2103-09-16 07:45:00 Physician Resident Progress Note
24 Hour Events:
   - Remains on Vent
   - Discontinued lasix gtt b/c crt rising; renal team consulted.
   - Bladder pressure elevated in 30s
   - No BM
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Ampicillin - [**2103-9-15**] 09:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2103-9-15**] 08:12 PM
   Other medications:
   Flowsheet Data as of  [**2103-9-16**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.8
C (98.2
   HR: 52 (50 - 66) bpm
   BP: 137/49(70) {109/38(55) - 187/71(103)} mmHg
   RR: 20 (16 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
    Bladder pressure: 33 (33 - 33) mmHg
   Total In:
                                                                  1,372 mL
                                                                    447 mL
   PO:
   TF:
                                                                    855 mL
                                                                    341 mL
   IVF:
                                                                    177 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                    780 mL
                                                                    175 mL
   Urine:
                                                                    780 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    592 mL
                                                                    272 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   Plateau: 31 cmH2O
   Compliance: 25.4 cmH2O/mL
   SpO2: 96%
   ABG: 7.46/42/69/29/5
   Ve: 15.1 L/min
   PaO2 / FiO2: 115
   Physical Examination
   General: Obese, chronically ill appearing woman, sedated on vent. .
   HEENT: NCAT, PERRL, EOMI, no scleral icterus, poor dentition
   Neck: thick, unable to appreciate JVP. tracheostomy in place
   Pulmonary: ascultated anteriorly with coarse, rhoncorous bs b/l, no
   crackles, expiratory wheezes centrally.
   Cardiac: distant
   Abdomen: tympanitic, winces w/ deep palpation, no rebound or guarding.
   ++ anasarca
   Extremities: marked anasarca, cool extremities with pitting edema.
   right PICC c/d/i
   Skin: pale
   Neurologic: sedated.
   Labs / Radiology
   198 K/uL
   8.4 g/dL
   59 mg/dL
   2.0 mg/dL
   29 mEq/L
   4.8 mEq/L
   56 mg/dL
   101 mEq/L
   140 mEq/L
   26.4 %
   11.8 K/uL
        [image002.jpg]
                             [**2103-9-13**]  02:10 AM
                             [**2103-9-13**]  02:32 AM
                             [**2103-9-14**]  04:08 AM
                             [**2103-9-14**]  04:23 AM
                             [**2103-9-14**]  11:25 PM
                             [**2103-9-15**]  02:23 AM
                             [**2103-9-15**]  02:40 AM
                             [**2103-9-15**]  06:50 AM
                             [**2103-9-16**]  12:26 AM
                             [**2103-9-16**]  04:01 AM
   WBC
   13.4
   12.7
   16.4
   11.8
   Hct
   28.1
   27.2
   27.3
   26.4
   Plt
   172
   176
   203
   198
   Cr
   1.2
   1.4
   1.7
   2.0
   Other labs: PT / PTT / INR:15.9/28.4/1.4, Differential-Neuts:87.5 %,
   Lymph:8.2 %, Mono:2.2 %, Eos:2.0 %, Lactic Acid:0.8 mmol/L, Albumin:2.6
   g/dL, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   79F with MMP, complicated pulmonary history, respiratory failure due to
   ? GBS with subsequent airway obstruction and repeated stenting p/w
   hypoxic respiratory failure.
   ## Hypoxic Respiratory Failure: During Initially thought to be due to
   proximal airway obstruction with overgrowth of lumenal granulation
   tissue within the patient's y- stent.  The original plan was to take
   the patient to OR for stent removal.  However, pt also found to have
   e/o PNA & CHF, thus, OR on hold.  Pt remains on vent, desaturating when
   lying flat.
   -f/u CXR from this am
   -Will try bolus diuretic to keep to even w/ I/O
   -Continue to treat PNA, w/ unasyn since cx growing acinetobacter. Plan
   to treat for 14 days (currently day [**10-14**]) for VAP
   -Continue nebs as needed
   -Plan to 0R when less of an 02 requirement for stent removal.  Goal
   PEEP <10, ideally 5, would like Fi02 60% or less.
   -f/u with IP
   ## Distended abd: pt w/ increasingly distended abd.  No documented
   stool for ~4 days.  KUB poor study.  PT seems to be wincing on exam w/
   palpation of abd.  Not yet responding to bowel regimen.  Also,
   increased bladder pressure.
   - CT scan w/ PO contrast (no IV) to eval for obstruction
   ## CHF: Recent TTE showed moderate systolic pulm artery hypertension.
   Mild LVH with no focal wall motion abnormalities, nl to slightly
   depressed EF at 45%.
   -Hold on aggressive diuresis given ARF
   ## ARF: Cause unclear.  [**Name2 (NI) 945**] not c/w pre-renal azotemia.  Pt does
   have increased bladder pressure.
   -Renal consulted.
   -holding off on re-adding home HCTZ for ARF but may need to for add'l
   diuresis.
   -No ACEI for now.
   ## COPD: Continue MDI
   ## AF: Was anticoagulated on lovenox.  Anticoagulation held after
   admission for GIB last month, will need to touch base with GI and pt's
   primary on whether to continue that.
   ## DM2: Return to home lantus regimen with RISS
   .
   ## Depression/anxiety:</I> Liberal ativan prn for anxiety.  Continue
   paxil, ? standing BZD  to prevent anxiety attacks associated with
   respiratory distress.
   .
   ## HTN: pt has periods of HTN during which she is anxious appearing
   (not sure if the anxiety is a result of the HTN or vice-versa).
   Continue amlodipine, BB, clonidine and hydral for now; will increase
   frequency of
   wean nitro as tolerated, consider addition of ACEI and or long acting
   nitrate. [**Month (only) 60**] need to hold off on ACEI until ARF resolves.  Holding on
   home norvasc.
   ICU Care
   Nutrition: Hold TF while trying to clarify abd process
   Glycemic Control:
   Lines:
   PICC Line - [**2103-9-15**] 05:45 AM
   20 Gauge - [**2103-9-15**] 05:47 AM
   Arterial Line - [**2103-9-15**] 05:54 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU

2103-09-17 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Bladder pressure decreased from 33-->20-->19
   - Went for CT scan which showed possible early SBO vs partial SBO
   - Surgery consulted re: ?SBO, felt no SBO, but possibly partial SBO
   - NGT placed, PEG put to gravity.
   - Pt began stooling this AM
   - Daughter informed of above events
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Ampicillin - [**2103-9-16**] 08:00 AM
   Infusions:
   Lorazepam (Ativan) - 0.5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2103-9-16**] 01:00 PM
   Furosemide (Lasix) - [**2103-9-16**] 05:08 PM
   Other medications:
   Flowsheet Data as of  [**2103-9-17**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.2
C (97.1
   HR: 51 (47 - 66) bpm
   BP: 129/47(68) {106/42(59) - 185/76(105)} mmHg
   RR: 23 (1 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
    Bladder pressure: 19 (19 - 22) mmHg
   Total In:
                                                                  1,269 mL
                                                                    409 mL
   PO:
   TF:
                                                                    540 mL
   IVF:
                                                                    579 mL
                                                                    409 mL
   Blood products:
   Total out:
                                                                  1,121 mL
                                                                    780 mL
   Urine:
                                                                    571 mL
                                                                    505 mL
   NG:
                                                                    550 mL
                                                                    275 mL
   Stool:
   Drains:
   Balance:
                                                                    148 mL
                                                                   -371 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 614 (522 - 617) mL
   PS : 20 cmH2O
   RR (Set): 0
   RR (Spontaneous): 23
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   SpO2: 98%
   ABG: 7.42/46/68/30/4
   Ve: 13.2 L/min
   PaO2 / FiO2: 113
   Physical Examination
   General: Obese, chronically ill appearing woman, sedated on vent. .
   HEENT: NCAT, PERRL, EOMI, no scleral icterus, poor dentition
   Neck: thick, unable to appreciate JVP. tracheostomy in place
   Pulmonary: ascultated anteriorly with coarse, rhoncorous bs b/l, no
   crackles, expiratory wheezes centrally.
   Cardiac: distant
   Abdomen: tympanitic, winces w/ deep palpation, no rebound or guarding.
   ++ anasarca
   Extremities: marked anasarca, cool extremities with pitting edema.
   right PICC c/d/i
   Skin: pale
   Neurologic: sedated.
   Labs / Radiology
   222 K/uL
   9.3 g/dL
   65 mg/dL
   2.2 mg/dL
   30 mEq/L
   5.0 mEq/L
   59 mg/dL
   99 mEq/L
   138 mEq/L
   29.2 %
   11.6 K/uL
        [image002.jpg]
                             [**2103-9-14**]  11:25 PM
                             [**2103-9-15**]  02:23 AM
                             [**2103-9-15**]  02:40 AM
                             [**2103-9-15**]  06:50 AM
                             [**2103-9-16**]  12:26 AM
                             [**2103-9-16**]  04:01 AM
                             [**2103-9-16**]  09:37 PM
                             [**2103-9-16**]  09:55 PM
                             [**2103-9-17**]  03:24 AM
                             [**2103-9-17**]  04:13 AM
   WBC
   16.4
   11.8
   10.6
   11.6
   Hct
   27.3
   26.4
   25.6
   29.2
   Plt
   [**Telephone/Fax (3) 4456**]22
   Cr
   1.7
   2.0
   2.2
   2.2
   TCO2
   33
   34
   32
   31
   32
   31
   Glucose
   142
   59
   76
   65
   Other labs: PT / PTT / INR:15.7/28.4/1.4, ALT / AST:27/19, Alk Phos / T
   Bili:220/0.4, Differential-Neuts:87.5 %, Lymph:8.2 %, Mono:2.2 %,
   Eos:2.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.6 g/dL, Ca++:8.2 mg/dL,
   Mg++:2.2 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   79F with MMP, complicated pulmonary history, respiratory failure due to
   ? GBS with subsequent airway obstruction and repeated stenting p/w
   hypoxic respiratory failure.  Hosp course complicated by partial SBO,
   which now appears to be resolving
   ## Hypoxic Respiratory Failure: During Initially thought to be due to
   proximal airway obstruction with overgrowth of lumenal granulation
   tissue within the patient's y- stent.  The original plan was to take
   the patient to OR for stent removal.  However, pt also found to have
   e/o PNA & CHF, thus, OR on hold.  Pt remains on vent, desaturating when
   lying flat.
   -f/u CXR from this am
   -Will try bolus diuretic to keep to even w/ I/O
   -Continue to treat PNA, w/ unasyn since cx growing acinetobacter. Plan
   to treat for 14 days (currently day [**10-14**]) for VAP
   -Continue nebs as needed
   -Plan to 0R when less of an 02 requirement for stent removal.  Goal
   PEEP <10, ideally 5, would like Fi02 60% or less.
   -f/u with IP
   ## Query Partial SBO: pt had increasingly distended abd.  CT w/
   possible early SBO vs partial SBO.  Suspect the latter. Significant
   volume of NGT/PEG.  Pt now stooling.  Also, increased bladder pressure.
   -          monitor abd exams & bladder pressure
   -
   ## CHF/Total body overload: Recent TTE showed moderate systolic pulm
   artery hypertension. Mild LVH with no focal wall motion abnormalities,
   nl to slightly depressed EF at 45%.
   -Hold on aggressive diuresis given ARF
   ## ARF: Cause unclear.  [**Name2 (NI) 945**] not c/w pre-renal azotemia.  Pt does
   have increased bladder pressure.
   -Renal consulted.
   -holding off on re-adding home HCTZ for ARF but may need to for add'l
   diuresis.
   -No ACEI for now.
   ## HTN: significantly improved since decompressing pt
s abd.  pt has
   periods of HTN during which she is anxious appearing (not sure if the
   anxiety is a result of the HTN or vice-versa).
   Continue amlodipine, BB, clonidine and hydral for now; will increase
   frequency of
   wean nitro as tolerated, consider addition of ACEI and or long acting
   nitrate. [**Month (only) 60**] need to hold off on ACEI until ARF resolves.
   ## COPD: Continue MDI
   ## AF: Was anticoagulated on lovenox.  Anticoagulation held after
   admission for GIB last month, will need to touch base with GI and pt's
   primary on whether to continue that.
   ## DM2: Return to home lantus regimen with RISS
   ## Depression/anxiety:</I> Liberal ativan prn for anxiety.  Continue
   paxil, ? standing BZD  to prevent anxiety attacks associated with
   respiratory distress.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2103-9-15**] 05:45 AM
   20 Gauge - [**2103-9-15**] 05:47 AM
   Arterial Line - [**2103-9-15**] 05:54 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2103-09-18 07:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 Pt planned to go to OR today for Y-stent removal
 Given 80mg IV Lasix yesterday with good outpt response
 EKG - At [**2103-9-17**] 08:00 AM
 SPUTUM CULTURE - At [**2103-9-17**] 11:00 AM
 UNPLANNED LINE/CATHETER REMOVAL (NON-PATIENT INITATED) - At
   [**2103-9-17**] 08:00 PM
   Right arm picc in place, however, reported that catheter spit in half
   via flushing on dayshift today.  Awaiting peva to come and evaluate.
   -clamped and unable to use at this time.
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Ampicillin - [**2103-9-16**] 08:00 AM
   Ampicillin/Sulbactam (Unasyn) - [**2103-9-18**] 07:41 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Dextrose 50% - [**2103-9-17**] 11:00 AM
   Heparin Sodium (Prophylaxis) - [**2103-9-18**] 07:40 AM
   Lansoprazole (Prevacid) - [**2103-9-18**] 07:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-9-18**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.1
C (97
   HR: 59 (50 - 67) bpm
   BP: 169/63(90) {119/43(63) - 190/71(105)} mmHg
   RR: 22 (16 - 39) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 64 Inch
    Bladder pressure: 22 (22 - 22) mmHg
   Total In:
                                                                  1,330 mL
                                                                    486 mL
   PO:
   TF:
   IVF:
                                                                    755 mL
                                                                    186 mL
   Blood products:
   Total out:
                                                                  2,305 mL
                                                                    550 mL
   Urine:
                                                                  2,030 mL
                                                                    550 mL
   NG:
                                                                    275 mL
   Stool:
   Drains:
   Balance:
                                                                   -976 mL
                                                                    -64 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 598 (515 - 598) mL
   PS : 20 cmH2O
   RR (Spontaneous): 23
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 31 cmH2O
   SpO2: 96%
   ABG: 7.46/44/86/28/6
   Ve: 13 L/min
   PaO2 / FiO2: 172
   Physical Examination
   General: Obese, chronically ill appearing woman, sedated on vent. .
   HEENT: NCAT, PERRL, EOMI, no scleral icterus, poor dentition
   Neck: thick, unable to appreciate JVP. tracheostomy in place
   Pulmonary: ascultated anteriorly with coarse, rhoncorous bs b/l, no
   crackles, expiratory wheezes centrally.
   Cardiac: distant
   Abdomen: tympanitic, winces w/ deep palpation, no rebound or guarding.
   ++ anasarca
   Extremities: marked anasarca, cool extremities with pitting edema.
   right PICC c/d/i
   Skin: pale
   Neurologic: sedated.
   Labs / Radiology
   185 K/uL
   8.1 g/dL
   75 mg/dL
   2.1 mg/dL
   28 mEq/L
   4.4 mEq/L
   54 mg/dL
   101 mEq/L
   140 mEq/L
   25.1 %
   8.1 K/uL
        [image002.jpg]
                             [**2103-9-16**]  12:26 AM
                             [**2103-9-16**]  04:01 AM
                             [**2103-9-16**]  09:37 PM
                             [**2103-9-16**]  09:55 PM
                             [**2103-9-17**]  03:24 AM
                             [**2103-9-17**]  04:13 AM
                             [**2103-9-17**]  01:18 PM
                             [**2103-9-17**]  02:40 PM
                             [**2103-9-18**]  05:02 AM
                             [**2103-9-18**]  05:25 AM
   WBC
   11.8
   10.6
   11.6
   8.1
   Hct
   26.4
   25.6
   29.2
   25.1
   Plt
   198
   172
   222
   185
   Cr
   2.0
   2.2
   2.2
   2.3
   2.1
   TCO2
   31
   32
   31
   32
   32
   Glucose
   59
   76
   65
   70
   75
   Other labs: PT / PTT / INR:15.7/31.3/1.4, ALT / AST:20/14, Alk Phos / T
   Bili:192/0.5, Amylase / Lipase:[**12-8**], Differential-Neuts:87.5 %,
   Lymph:8.2 %, Mono:2.2 %, Eos:2.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.5
   g/dL, LDH:192 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   79F with MMP, including h/o GBS, s/p trach with subsequent airway
   obstruction and repeated stenting, who p/w hypoxic respiratory
   failure.  Hosp course complicated by partial SBO, which now appears to
   be resolving
   ## Hypoxic Respiratory Failure: Initially thought to be due to proximal
   airway obstruction with overgrowth of lumenal granulation tissue within
   the patient's y- stent.  The original plan was to take the patient to
   OR for stent removal.  However, pt also found to have e/o PNA & CHF,
   thus, OR was on hold. Plan is to take pt to surgery today.
   -Continue to try to keep pt I/O even to negative; can try bolus
   diuretic PRN
   -Continue to treat PNA, will transition to Zosyn today given BAL now
   growing pseudomonas. Original treatment plan was for 14 days (currently
   day [**1-13**]) for VAP; however may adjust this pending results of repeat
   BAL today.
   -Continue nebs as needed
   -Tentative plan is to OR for stent removal today.
   -repeat CXR today
   ## Partial SBO/illeus: Pt
s abd distention has improved s/p NGT
   placement. This is now removed and pt is now stooling.  Process seems
   to be resolving.
   - monitor abd exams & bladder pressure
   - Appreciate surgery recs
   ## CHF/Total body overload: Recent TTE showed moderate systolic pulm
   artery hypertension. Mild LVH with no focal wall motion abnormalities,
   nl to slightly depressed EF at 45%.
   -Attempt continued diuresis as above
   ## ARF: FeUrea not c/w pre-renal azotemia.  Timing of ARF c/w possible
   contrast nephropathy s/p CTA.
   -Renal consulted; appreciate input
   -holding off on re-adding home HCTZ and  ACEI for now.
   - Monitor closely in setting of diuresis
   ## HTN: significantly improved since decompressing pt
s abd.  Pt has
   periods of HTN during which she is anxious appearing (not sure if the
   anxiety is a result of the HTN or vice-versa).
   - Continue amlodipine and clonidine; will titrate up hydral today
   ## COPD: Continue MDI
   ## AF: Was anticoagulated on lovenox.  Anticoagulation held after
   admission for GIB last month, will need to touch base with GI and pt's
   primary on whether to continue that.
   ## DM2: Con
t RISS, dose reduce lantus
   ## Depression/anxiety: Much improved on midazolam gtt.  Continue home
   Paxil. Fentanyl for pain control/anxiolysis PRN.
   ICU Care
   Nutrition: TFs
   Glycemic Control:  Sugars well controlled on ISS.
   Lines:
   PICC Line - [**2103-9-15**] 05:45 AM
   Arterial Line - [**2103-9-15**] 05:54 AM
   20 Gauge - [**2103-9-17**] 09:30 AM
   Prophylaxis:
   DVT: Hep subq
   Stress ulcer: TFs
   VAP:  on treatment
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2103-09-18 15:16:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   79 yo woman with chronic respiratory respiratory failure due to
   [**First Name9 (NamePattern2) 4461**] [**Location (un) 1935**], severe tracheobronchomalacia sp recent Y stent, recent
   acinetobacter and stenotrophomonas pneumonia, admitted [**9-11**] with
   respiratory distress thought due to recurrent acinetobacter pneumonia
   and congestive heart failure.
   24 Hour Events:
 EKG - At [**2103-9-17**] 08:00 AM
 SPUTUM CULTURE - At [**2103-9-17**] 11:00 AM
 UNPLANNED LINE/CATHETER REMOVAL (NON-PATIENT INITATED) - At
   [**2103-9-17**] 08:00 PM
   Right arm picc in place, however, reported that catheter spit in half
   via flushing on dayshift today.  Awaiting peva to come and evaluate.
   -clamped and unable to use at this time.
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Ampicillin - [**2103-9-16**] 08:00 AM
   Ampicillin/Sulbactam (Unasyn) - [**2103-9-18**] 07:41 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2103-9-18**] 07:40 AM
   Lansoprazole (Prevacid) - [**2103-9-18**] 07:41 AM
   Midazolam (Versed) - [**2103-9-18**] 09:00 AM
   Fentanyl - [**2103-9-18**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-9-18**] 03:12 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.3
C (95.6
   HR: 80 (50 - 80) bpm
   BP: 196/76(110) {119/43(63) - 196/76(110)} mmHg
   RR: 34 (16 - 53) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,330 mL
                                                                    629 mL
   PO:
             TF:
   IVF:
                                                                    755 mL
                                                                    269 mL
   Blood products:
   Total out:
                                                                  2,305 mL
                                                                    790 mL
   Urine:
                                                                  2,030 mL
                                                                    790 mL
   NG:
                                                                    275 mL
   Stool:
   Drains:
   Balance:
                                                                   -976 mL
                                                                   -161 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Spontaneous): 669 (595 - 669) mL
   PS : 20 cmH2O
   RR (Spontaneous): 20
   PEEP: 15 cmH2O
   FiO2: 50%
   PIP: 33 cmH2O
   SpO2: 92%
   ABG: 7.46/44/86/28/6
   Ve: 5.2 L/min
   PaO2 / FiO2: 143
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: No(t) Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Crackles : , No(t)
   Bronchial: , Wheezes : , Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Distended
   Extremities: Right: 3+, Left: 3+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   185 K/uL
   75 mg/dL
   2.1 mg/dL
   28 mEq/L
   4.4 mEq/L
   54 mg/dL
   101 mEq/L
   140 mEq/L
   25.1 %
   8.1 K/uL
        [image002.jpg]
                             [**2103-9-16**]  12:26 AM
                             [**2103-9-16**]  04:01 AM
                             [**2103-9-16**]  09:37 PM
                             [**2103-9-16**]  09:55 PM
                             [**2103-9-17**]  03:24 AM
                             [**2103-9-17**]  04:13 AM
                             [**2103-9-17**]  01:18 PM
                             [**2103-9-17**]  02:40 PM
                             [**2103-9-18**]  05:02 AM
                             [**2103-9-18**]  05:25 AM
   WBC
   11.8
   10.6
   11.6
   8.1
   Hct
   26.4
   25.6
   29.2
   25.1
   Plt
   198
   172
   222
   185
   Cr
   2.0
   2.2
   2.2
   2.3
   2.1
   TCO2
   31
   32
   31
   32
   32
   Glucose
   59
   76
   65
   70
   75
   Other labs: PT / PTT / INR:15.7/31.3/1.4, ALT / AST:20/14, Alk Phos / T
   Bili:192/0.5, Amylase / Lipase:[**12-8**], Differential-Neuts:87.5 %,
   Lymph:8.2 %, Mono:2.2 %, Eos:2.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.5
   g/dL, LDH:192 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:4.8 mg/dL
   Imaging:
   Chest [**7-18**]-concerning for increased RUL opacity.
   Microbiology: Micro: 3+ GNR >25PMS less than 10 epis.
   Assessment and Plan
   Micro: 3+ GNR >25PMS less than 10 epis.
   Chest [**7-18**]-concerning for increased RUL opacity.
   Assessment and Plan:  Agree with notes as outlined by House staff.
   Would add emphasize the following.
   1) respiratory failure due to hypoxemia (related to VAP and CHF) as
   well as tracheal stenosis
   -Continue Unasyn for acinetobacter pneumonia -.  Will broaden coverage
   to include Pseudomonas given +cx and new infiltrate and secretions.  IP
   to BAL RUL prior to initiating tx.
   2) Acute renal failure due to contrast, abdominal hypertension, less
   likely pre-renal.  Continues to produce urine.
   3) CHF related to diastolic dysfunction vs MR-Continue hydralazine 25
   q6, and isordil 20 tid, clonidine 0.2 [**Hospital1 **], Norvasc 10qday for improved
   blood pressure control. Hold beta blocker/ace. Continue lasix goal
   negative.
   4) Abdominal distension, partial SBO appreciate Surgical consultation.
   Moving bowels well.  Will repeat bladder pressures.
   5)Aggitiation-On versed drip becomes agitated with withdrawal.  Trial
   of pain control with fent.  Trial of zydis if no improvement with fent.
   6)Access-lost PICC line will need to be replaced.
   7)ICU: SC Hep, PPI, FULL CODE.  HCP is daughter.
   ICU [**Name2 (NI) **]
   Nutrition: TF to restart after stent removal
   Glycemic Control:  SSRI
   Lines:
   Arterial Line - [**2103-9-15**] 05:54 AM
   20 Gauge - [**2103-9-17**] 09:30 AM
   18 Gauge - [**2103-9-18**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Communication:  family meeting with daughter yesterday
   [**Name2 (NI) 66**] status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending Addendum
   Upon return from OR after stent change
 pt was hypoxemic wheezing and
   dysynchronous with vent . Required bagging and saline lavage for plugs
   increased PEEP to 15 and given Fentanyl to good effect. Will monitor
   through evening and keep PEEP at 15
 with her degree of malacia it may
   be tough to have any less PEEP at least for now. Will follow up BAL
   from IP.
   Critical care 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 1876**] [**Last Name (NamePattern1) 1877**], MD
   on:[**2103-9-18**] 15:22 ------

2103-09-19 08:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Went for Y stent removal w/ IP.  Pt still has severe tracheal/ R main
   & L main bronchus malacea.  Stoma revised & trach changed to a larger
   size.  RUL BAL performed as well.
 PICC LINE - STOP [**2103-9-18**] 10:00 AM
   PICC  lumen cracked; awaiting to be fixed by IV.
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2103-9-18**] 07:41 AM
   Piperacillin/Tazobactam (Zosyn) - [**2103-9-19**] 06:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2103-9-18**] 03:00 PM
   Fentanyl - [**2103-9-18**] 06:00 PM
   Midazolam (Versed) - [**2103-9-18**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2103-9-19**] 08:00 AM
   Lansoprazole (Prevacid) - [**2103-9-19**] 08:00 AM
   Other medications:
   Flowsheet Data as of  [**2103-9-19**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.5
   HR: 54 (50 - 80) bpm
   BP: 102/37(54) {89/34(47) - 196/77(110)} mmHg
   RR: 49 (5 - 49) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 64 Inch
             Total In:
                                                                  1,202 mL
                                                                    718 mL
   PO:
             TF:
   IVF:
                                                                    482 mL
                                                                    418 mL
   Blood products:
   Total out:
                                                                  1,300 mL
                                                                    305 mL
   Urine:
                                                                  1,300 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -98 mL
                                                                    413 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 499 (499 - 669) mL
   PS : 20 cmH2O
   RR (Spontaneous): 18
   PEEP: 15 cmH2O
   FiO2: 60%
   PIP: 36 cmH2O
   SpO2: 97%
   ABG: ///25/
   Ve: 9.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   232 K/uL
   7.9 g/dL
   98 mg/dL
   2.4 mg/dL
   25 mEq/L
   4.6 mEq/L
   55 mg/dL
   98 mEq/L
   138 mEq/L
   24.4 %
   12.8 K/uL
        [image002.jpg]
                             [**2103-9-16**]  04:01 AM
                             [**2103-9-16**]  09:37 PM
                             [**2103-9-16**]  09:55 PM
                             [**2103-9-17**]  03:24 AM
                             [**2103-9-17**]  04:13 AM
                             [**2103-9-17**]  01:18 PM
                             [**2103-9-17**]  02:40 PM
                             [**2103-9-18**]  05:02 AM
                             [**2103-9-18**]  05:25 AM
                             [**2103-9-19**]  05:32 AM
   WBC
   11.8
   10.6
   11.6
   8.1
   12.8
   Hct
   26.4
   25.6
   29.2
   25.1
   24.4
   Plt
   198
   172
   222
   185
   232
   Cr
   2.0
   2.2
   2.2
   2.3
   2.1
   2.4
   TCO2
   32
   31
   32
   32
   Glucose
   59
   76
   65
   70
   75
   98
   Other labs: PT / PTT / INR:16.4/31.3/1.5, ALT / AST:20/14, Alk Phos / T
   Bili:192/0.5, Amylase / Lipase:[**12-8**], Differential-Neuts:87.5 %,
   Lymph:8.2 %, Mono:2.2 %, Eos:2.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.5
   g/dL, LDH:192 IU/L, Ca++:7.3 mg/dL, Mg++:2.1 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
   79F with MMP, including h/o GBS, s/p trach with subsequent airway
   obstruction and repeated stenting, who p/w hypoxic respiratory
   failure.  Hosp course complicated by partial SBO, which now appears to
   be resolving
   ## Hypoxic Respiratory Failure: Initially thought to be due to proximal
   airway obstruction with overgrowth of lumenal granulation tissue within
   the patient's y- stent.  The original plan was to take the patient to
   OR for stent removal.  However, pt also found to have e/o PNA & CHF,
   thus, OR was on hold. Plan is to take pt to surgery today.
   -Continue to try to keep pt I/O even to negative; can try bolus
   diuretic PRN
   -Continue to treat PNA, will transition to Zosyn today given BAL now
   growing pseudomonas. Original treatment plan was for 14 days (currently
   day [**1-13**]) for VAP; however may adjust this pending results of repeat
   BAL today.
   -Continue nebs as needed
   -Tentative plan is to OR for stent removal today.
   -repeat CXR today
   ## Partial SBO/illeus: Pt
s abd distention has improved s/p NGT
   placement. This is now removed and pt is now stooling.  Process seems
   to be resolving.
   - monitor abd exams & bladder pressure
   - Appreciate surgery recs
   ## CHF/Total body overload: Recent TTE showed moderate systolic pulm
   artery hypertension. Mild LVH with no focal wall motion abnormalities,
   nl to slightly depressed EF at 45%.
   -Attempt continued diuresis as above
   ## ARF: FeUrea not c/w pre-renal azotemia.  Timing of ARF c/w possible
   contrast nephropathy s/p CTA.
   -Renal consulted; appreciate input
   -holding off on re-adding home HCTZ and  ACEI for now.
   - Monitor closely in setting of diuresis
   ## HTN: significantly improved since decompressing pt
s abd.  Pt has
   periods of HTN during which she is anxious appearing (not sure if the
   anxiety is a result of the HTN or vice-versa).
   - Continue amlodipine and clonidine; will titrate up hydral today
   ## COPD: Continue MDI
   ## AF: Was anticoagulated on lovenox.  Anticoagulation held after
   admission for GIB last month, will need to touch base with GI and pt's
   primary on whether to continue that.
   ## DM2: Con
t RISS, dose reduce lantus
   ## Depression/anxiety: Much improved on midazolam gtt.  Continue home
   Paxil. Fentanyl for pain control/anxiolysis PRN.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2103-9-15**] 05:54 AM
   20 Gauge - [**2103-9-17**] 09:30 AM
   18 Gauge - [**2103-9-18**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2103-09-19 12:07:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: remote GBS s/p trach and PEG with chronic resp failure due to
   tracheobronchomalacia and recurrent VAPs
   24 Hour Events:
 PICC LINE - STOP [**2103-9-18**] 10:00 AM
   PICC  lumen cracked; awaiting to be fixed by IV.
 UNPLANNED LINE/CATHETER REMOVAL (PATIENT INITIATED) - At [**2103-9-18**]
   10:00 AM
 OR SENT - At [**2103-9-18**] 12:15 PM
 OR RECEIVED - At [**2103-9-18**] 01:45 PM
   Y stent removal with IP yesterday. Persistent severe
   tracheobronchomalacia. Revised stoma extralong trach. RUL BAL.
   Resp distress upon return, increased sedation and PEEP to good effect
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2103-9-18**] 07:41 AM
   Piperacillin/Tazobactam (Zosyn) - [**2103-9-19**] 06:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2103-9-18**] 03:00 PM
   Fentanyl - [**2103-9-18**] 06:00 PM
   Midazolam (Versed) - [**2103-9-18**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2103-9-19**] 08:00 AM
   Lansoprazole (Prevacid) - [**2103-9-19**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-9-19**] 12:07 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 56 (50 - 80) bpm
   BP: 103/35(53) {89/34(47) - 196/77(110)} mmHg
   RR: 33 (5 - 49) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 64 Inch
             Total In:
                                                                  1,202 mL
                                                                    758 mL
   PO:
             TF:
   IVF:
                                                                    482 mL
                                                                    458 mL
   Blood products:
   Total out:
                                                                  1,300 mL
                                                                    305 mL
   Urine:
                                                                  1,300 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -98 mL
                                                                    453 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 499 (499 - 556) mL
   PS : 20 cmH2O
   RR (Spontaneous): 18
   PEEP: 15 cmH2O
   FiO2: 60%
   PIP: 36 cmH2O
   SpO2: 99%
   ABG: ///25/
   Ve: 9.6 L/min
   Physical Examination
   Gen: lying in bed, eyes open, anxious, forceful exhalation on vent
   CV: tachy RR nl s1 and s2
   Chest: dimished BS, scattered rales, no wheezes
   Abd: obese soft distended + BS
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: eyes open, squeezes hands but not to command, moving all
   ext
   Labs / Radiology
   7.9 g/dL
   232 K/uL
   98 mg/dL
   2.4 mg/dL
   25 mEq/L
   4.6 mEq/L
   55 mg/dL
   98 mEq/L
   138 mEq/L
   24.4 %
   12.8 K/uL
        [image002.jpg]
                             [**2103-9-16**]  04:01 AM
                             [**2103-9-16**]  09:37 PM
                             [**2103-9-16**]  09:55 PM
                             [**2103-9-17**]  03:24 AM
                             [**2103-9-17**]  04:13 AM
                             [**2103-9-17**]  01:18 PM
                             [**2103-9-17**]  02:40 PM
                             [**2103-9-18**]  05:02 AM
                             [**2103-9-18**]  05:25 AM
                             [**2103-9-19**]  05:32 AM
   WBC
   11.8
   10.6
   11.6
   8.1
   12.8
   Hct
   26.4
   25.6
   29.2
   25.1
   24.4
   Plt
   198
   172
   222
   185
   232
   Cr
   2.0
   2.2
   2.2
   2.3
   2.1
   2.4
   TCO2
   32
   31
   32
   32
   Glucose
   59
   76
   65
   70
   75
   98
   Other labs: PT / PTT / INR:16.4/31.3/1.5, ALT / AST:20/14, Alk Phos / T
   Bili:192/0.5, Amylase / Lipase:[**12-8**], Differential-Neuts:87.5 %,
   Lymph:8.2 %, Mono:2.2 %, Eos:2.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.5
   g/dL, LDH:192 IU/L, Ca++:7.3 mg/dL, Mg++:2.1 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
   1) Respiratory failure: multifactorial with malacia, VAP, obesity
   hypoventilation, pulm edema.
       VAP: awaiting BAL results
 continue Zosyn for now and adjust
   accordingly.
   2) Acute renal failure: worsening with relative hypotension overnight
   may be due to diuresis and poor perfusion. Watch UOP and CR today,
   renally dose all meds
   3) Relative Hypotension: complex situation with likely right worse than
   left heart failure, total body volume overloaded, intravsc may be even.
   We are holding hydral. Watch I and O but allow autoregulation today and
   monitor UOP and trend Cr
   4) Abdominal distension, partial SBO appreciate Surgical consultation.
   Moving bowels well
 now slowing with restart of fentanyl. Monitor
   closely. .
   5)Agitiation-On versed drip becomes agitated with withdrawal Did well
   off Versed all AM then went for PICC. Start po Zydis and wean Versed
   off again.
   6)Access-lost PICC line for replacement with IR today.
   7)ICU: SC Hep, PPI, FULL CODE.  HCP is daughter.
   ICU [**Name2 (NI) **]
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2103-9-15**] 05:54 AM
   20 Gauge - [**2103-9-17**] 09:30 AM
   18 Gauge - [**2103-9-18**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2103-09-19 18:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Respiratory support
   Physical Examination
   Labs / Radiology
        [image002.jpg]
   WBC
   Hct
   Plt
   Cr
   TropT
   TCO2
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status:
   Disposition:

2103-09-19 18:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -POD #1 s/p Y stent removal, trach revision, and trach upgrade.  Still
   severe tracheobroncheomalacia.
   -Had PICC line placed in IR this AM
   - Two BM yesterday
   History obtained from Medical records
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2103-9-18**] 07:41 AM
   Piperacillin/Tazobactam (Zosyn) - [**2103-9-19**] 12:00 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2103-9-19**] 08:00 AM
   Fentanyl - [**2103-9-19**] 12:30 PM
   Heparin Sodium (Prophylaxis) - [**2103-9-19**] 02:00 PM
   Other medications:
   Flowsheet Data as of  [**2103-9-19**] 06:50 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 75 (53 - 85) bpm
   BP: 183/62(96) {89/34(47) - 194/63(99)} mmHg
   RR: 28 (5 - 49) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,203 mL
                                                                  1,036 mL
   PO:
             TF:
   IVF:
                                                                    483 mL
                                                                    676 mL
   Blood products:
   Total out:
                                                                  1,300 mL
                                                                    685 mL
   Urine:
                                                                  1,300 mL
                                                                    685 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -97 mL
                                                                    351 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 617 (499 - 617) mL
   PS : 20 cmH2O
   RR (Spontaneous): 25
   PEEP: 12 cmH2O
   FiO2: 60%
   PIP: 33 cmH2O
   Plateau: 16 cmH2O
   SpO2: 97%
   ABG: ///25/
   Ve: 8 L/min
   Physical Examination
   General Appearance: No(t) Overweight / Obese
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   232 K/uL
   7.9 g/dL
   98 mg/dL
   2.4 mg/dL
   25 mEq/L
   4.6 mEq/L
   55 mg/dL
   98 mEq/L
   138 mEq/L
   24.4 %
   12.8 K/uL
        [image002.jpg]
                             [**2103-9-16**]  04:01 AM
                             [**2103-9-16**]  09:37 PM
                             [**2103-9-16**]  09:55 PM
                             [**2103-9-17**]  03:24 AM
                             [**2103-9-17**]  04:13 AM
                             [**2103-9-17**]  01:18 PM
                             [**2103-9-17**]  02:40 PM
                             [**2103-9-18**]  05:02 AM
                             [**2103-9-18**]  05:25 AM
                             [**2103-9-19**]  05:32 AM
   WBC
   11.8
   10.6
   11.6
   8.1
   12.8
   Hct
   26.4
   25.6
   29.2
   25.1
   24.4
   Plt
   198
   172
   222
   185
   232
   Cr
   2.0
   2.2
   2.2
   2.3
   2.1
   2.4
   TCO2
   32
   31
   32
   32
   Glucose
   59
   76
   65
   70
   75
   98
   Assessment and Plan
   79F with MMP, including h/o GBS, s/p trach with subsequent airway
   obstruction and repeated stenting, who p/w hypoxic respiratory
   failure.  Now, POD#1 s/p Y stent removal, trach revision, and trach
   upgrade.
   ## Hypoxic Respiratory Failure: Due to tracheobroncheomalacia,
   multifocal PNA, as well as pulm edema.  Having difficulty weaning from
   vent.  Minimal response to diuresis.
   -Decrease PEEP; wean vent as tolerated
   -Continue to treat PNA, w/ Zosyn (for pseudomonas) and adjust abx
   according to BAL.  Original treatment plan was for 14 days (currently
   day [**1-13**]) for VAP; however may adjust this pending results of repeat
   BAL.
   -Continue nebs as needed
   -Hold diuresis for now given crt rising
   ## Partial SBO/illeus: Pt
s abd distention has improved s/p NGT
   placement. This is now removed and pt is now stooling.  Process seems
   resolved.
   - monitor abd exams & bladder pressure
   - Appreciate surgery recs
   ## CHF/Total body overload: Recent TTE showed moderate systolic pulm
   artery hypertension. Mild LVH with no focal wall motion abnormalities,
   nl to slightly depressed EF at 45%.
   -hold on diuresis for now given relative hypotension and crt slightly
   up
   ## ARF: FeUrea not c/w pre-renal azotemia.  Timing of ARF c/w possible
   contrast nephropathy s/p CTA.
   -Renal consulted; appreciate input
   -holding off on re-adding home HCTZ and  ACEI for now.
   ## HTN: relatively hypotensive except for periods of anxiety, when SBP
   rises as high as 200s.
   - Continue amlodipine and clonidine; will hold hydral and isosorbide
   ## COPD: Continue MDI
   ## AF: Off anticoagulation since GIB last month,
   ## DM2: Con
t RISS, dose reduce lantus
   ## Depression/anxiety: Much improved on midazolam gtt.  Continue home
   Paxil. Fentanyl for pain control/anxiolysis PRN.
   ICU Care
   Nutrition: Restart tube feeds
   Lines:
   Arterial Line - [**2103-9-15**] 05:54 AM
   20 Gauge - [**2103-9-17**] 09:30 AM
   PICC Line - [**2103-9-19**] 12:33 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: freq turning
   VAP:  tx
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2103-09-20 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2103-9-19**] 12:30 PM
 PICC LINE - START [**2103-9-19**] 12:33 PM
   placed in I.R.
 successful weaning of PEEP to 12
 successful reduction of sedation requirements
 some BP meds held for relative hypotension
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2103-9-18**] 07:41 AM
   Piperacillin/Tazobactam (Zosyn) - [**2103-9-19**] 12:00 PM
   Piperacillin - [**2103-9-20**] 12:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2103-9-19**] 08:00 AM
   Fentanyl - [**2103-9-19**] 12:30 PM
   Heparin Sodium (Prophylaxis) - [**2103-9-19**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-9-20**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (97
   HR: 55 (54 - 97) bpm
   BP: 122/40(60) {97/34(52) - 194/63(99)} mmHg
   RR: 33 (13 - 49) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 64 Inch
             Total In:
                                                                  1,270 mL
                                                                    466 mL
   PO:
             TF:
             89 mL
   IVF:
                                                                    760 mL
                                                                    197 mL
   Blood products:
   Total out:
                                                                    869 mL
                                                                    213 mL
   Urine:
                                                                    869 mL
                                                                    213 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    401 mL
                                                                    253 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 651 (562 - 720) mL
   PS : 20 cmH2O
   RR (Spontaneous): 22
   PEEP: 10 cmH2O
   FiO2: 60%
   PIP: 33 cmH2O
   Plateau: 16 cmH2O
   SpO2: 99%
   ABG: 7.36/49/95.[**Numeric Identifier 607**]/26/0
   Ve: 13.3 L/min
   PaO2 / FiO2: 158
   Physical Examination
   General: Obese, chronically ill appearing woman, sedated on vent. .
   HEENT: NCAT, PERRL, EOMI, no scleral icterus, poor dentition
   Neck: thick, unable to appreciate JVP. tracheostomy in place
   Pulmonary: ascultated anteriorly with coarse, rhoncorous bs b/l, no
   crackles, expiratory wheezes centrally.
   Cardiac: distant
   Abdomen: tympanitic, winces w/ deep palpation, no rebound or guarding.
   ++ anasarca
   Extremities: marked anasarca, cool extremities with pitting edema.
   right PICC c/d/i
   Skin: pale
   Neurologic: sedated.
   Labs / Radiology
   237 K/uL
   8.0 g/dL
   118 mg/dL
   2.4 mg/dL
   26 mEq/L
   4.1 mEq/L
   53 mg/dL
   98 mEq/L
   137 mEq/L
   25.3 %
   10.8 K/uL
        [image002.jpg]
                             [**2103-9-16**]  09:55 PM
                             [**2103-9-17**]  03:24 AM
                             [**2103-9-17**]  04:13 AM
                             [**2103-9-17**]  01:18 PM
                             [**2103-9-17**]  02:40 PM
                             [**2103-9-18**]  05:02 AM
                             [**2103-9-18**]  05:25 AM
                             [**2103-9-19**]  05:32 AM
                             [**2103-9-20**]  03:20 AM
                             [**2103-9-20**]  04:19 AM
   WBC
   11.6
   8.1
   12.8
   10.8
   Hct
   29.2
   25.1
   24.4
   25.3
   Plt
   222
   185
   232
   237
   Cr
   2.2
   2.3
   2.1
   2.4
   2.4
   TCO2
   32
   31
   32
   32
   29
   Glucose
   65
   70
   75
   98
   118
   Other labs: PT / PTT / INR:16.3/32.5/1.5, ALT / AST:20/14, Alk Phos / T
   Bili:192/0.5, Amylase / Lipase:[**12-8**], Differential-Neuts:87.5 %,
   Lymph:8.2 %, Mono:2.2 %, Eos:2.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.5
   g/dL, LDH:192 IU/L, Ca++:7.0 mg/dL, Mg++:2.2 mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
   79F with MMP, including h/o GBS, s/p trach with subsequent airway
   obstruction and repeated stenting, who p/w hypoxic respiratory
   failure.  Now s/p Y stent removal, trach revision, and trach upgrade.
   ## Hypoxic Respiratory Failure: Due to tracheobroncheomalacia,
   multifocal PNA, as well as pulm edema.  Previously with difficulty
   weaning from vent, now with some progress.
   -Continue to wean PEEP, vent as tolerated
   -Continue to treat PNA, w/ Zosyn (for pseudomonas) and adjust abx
   according to BAL.  Original treatment plan was for 14 days (currently
   day 3 of Zosyn) for VAP; however may adjust this pending results of
   repeat BAL.
   -Continue nebs as needed
   -Had been holding diuresis given elevated Cr; as pt clearly volume
   overloaded, will try Lasix gtt today.
   ## Partial SBO/illeus: Pt
s abd distention has improved s/p NGT
   placement. This is now removed and pt is now stooling.  Process seems
   resolved.
   - monitor abd exams & bladder pressure
   - Appreciate surgery recs
   ## CHF/Total body overload: Recent TTE showed moderate systolic pulm
   artery hypertension. Mild LVH with no focal wall motion abnormalities,
   nl to slightly depressed EF at 45%.
   -try Lasix gtt today as above and trend Cr and volume status
   ## ARF: FeUrea not c/w pre-renal azotemia.  Timing of ARF c/w possible
   contrast nephropathy s/p CTA.
   -Renal consulted; appreciate input
   -holding off on re-adding home HCTZ and  ACEI for now.
   ## HTN: relatively hypotensive except for periods of anxiety, when SBP
   rises as high as 200s. Continue to titrate BP meds based on BP trends.
   - Continue amlodipine and clonidine; will hold hydral and, today,
   isosorbide
   ## COPD: Continue MDI
   ## AF: Off anticoagulation since GIB last month,
   ## DM2: Con
t RISS, dose reduce lantus
   ## Depression/anxiety: Much improved on midazolam gtt., however as this
   is not a long-term solution, will attempt to wean and titrate up
   olanzapine. Continue home Paxil. Fentanyl for pain control/anxiolysis
   PRN.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2103-9-20**] 03:00 AM 20 mL/hour
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2103-9-15**] 05:54 AM
   20 Gauge - [**2103-9-17**] 09:30 AM
   PICC Line - [**2103-9-19**] 12:33 PM
   Prophylaxis:
   DVT: hep subq
   Stress ulcer: TFs
   Code status: Full code
   Disposition: MICU

2103-09-20 09:00:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 STOOL CULTURE - At [**2103-9-19**] 12:30 PM
 PICC LINE - START [**2103-9-19**] 12:33 PM
   placed in I.R.
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2103-9-18**] 07:41 AM
   Piperacillin/Tazobactam (Zosyn) - [**2103-9-19**] 12:00 PM
   Piperacillin - [**2103-9-20**] 12:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Fentanyl - [**2103-9-19**] 12:30 PM
   Lorazepam (Ativan) - [**2103-9-20**] 08:03 AM
   Heparin Sodium (Prophylaxis) - [**2103-9-20**] 08:21 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-9-20**] 09:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.7
C (96.3
   HR: 74 (54 - 97) bpm
   BP: 162/49(79) {97/35(52) - 194/63(99)} mmHg
   RR: 26 (13 - 49) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,270 mL
                                                                    606 mL
   PO:
             TF:
             121 mL
   IVF:
                                                                    760 mL
                                                                    215 mL
   Blood products:
   Total out:
                                                                    869 mL
                                                                    263 mL
   Urine:
                                                                    869 mL
                                                                    263 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    401 mL
                                                                    343 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 673 (562 - 720) mL
   PS : 20 cmH2O
   RR (Spontaneous): 18
   PEEP: 10 cmH2O
   FiO2: 60%
   PIP: 31 cmH2O
   Plateau: 16 cmH2O
   SpO2: 98%
   ABG: 7.36/49/95.[**Numeric Identifier 607**]/26/0
   Ve: 11.6 L/min
   PaO2 / FiO2: 158
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (S1: Normal), (S2: Normal, No(t) Loud, No(t) Widely
   split , No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: No(t)
   Resonant : , No(t) Hyperresonant: , No(t) Dullness : ), (Breath Sounds:
   No(t) Clear : , No(t) Crackles : , Bronchial: , No(t) Wheezes : ,
   Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender:
   Extremities: Right: 4+, Left: 4+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   237 K/uL
   118 mg/dL
   2.4 mg/dL
   26 mEq/L
   4.1 mEq/L
   53 mg/dL
   98 mEq/L
   137 mEq/L
   25.3 %
   10.8 K/uL
        [image002.jpg]
                             [**2103-9-16**]  09:55 PM
                             [**2103-9-17**]  03:24 AM
                             [**2103-9-17**]  04:13 AM
                             [**2103-9-17**]  01:18 PM
                             [**2103-9-17**]  02:40 PM
                             [**2103-9-18**]  05:02 AM
                             [**2103-9-18**]  05:25 AM
                             [**2103-9-19**]  05:32 AM
                             [**2103-9-20**]  03:20 AM
                             [**2103-9-20**]  04:19 AM
   WBC
   11.6
   8.1
   12.8
   10.8
   Hct
   29.2
   25.1
   24.4
   25.3
   Plt
   222
   185
   232
   237
   Cr
   2.2
   2.3
   2.1
   2.4
   2.4
   TCO2
   32
   31
   32
   32
   29
   Glucose
   65
   70
   75
   98
   118
   Other labs: PT / PTT / INR:16.3/32.5/1.5, ALT / AST:20/14, Alk Phos / T
   Bili:192/0.5, Amylase / Lipase:[**12-8**], Differential-Neuts:87.5 %,
   Lymph:8.2 %, Mono:2.2 %, Eos:2.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.5
   g/dL, LDH:192 IU/L, Ca++:7.0 mg/dL, Mg++:2.2 mg/dL, PO4:5.4 mg/dL
   Imaging: CXR: worsening RUL infiltrates
   Microbiology: Sputum sparse 3 colonies of GNR
   BAL: pending
   Assessment and Plan
    Assessment and Plan
   1) Respiratory failure: multifactorial with malacia, VAP, obesity
   hypoventilation, pulm edema.
       VAP: awaiting BAL results
 continue Zosyn for now and adjust
   accordingly. Worsening CXR is concerning for new or resistant organism
   but clinically she is stable and on less PEEP
   2) Acute renal failure: worsening with relative hypotension overnight
   may be due to diuresis and poor perfusion. Watch UOP and CR today,
   renally dose all meds
 she is so volume overloaded with such
   significant right heart dysfunction that in many ways CVVH would be the
   most elegant way to get her back [**Female First Name (un) **] starling curve but this would be
   invasive and it is not the only thing limiting her form being free of
   vent support. Will discuss with Renal team.
   3) Relative Hypotension: complex situation with likely right worse than
   left heart failure, total body volume overloaded, intravsc may be even
 has been stable with adjusting BP meds
   4) Abdominal distension, partial SBO appreciate Surgical consultation.
   Moving bowels well
 now slowing with restart of fentanyl. Monitor
   closely. .
   5)Agitiation-weaning versed try and trying po zydis
   7)ICU: SC Hep, PPI, FULL CODE.  HCP is daughter.
   ICU [**Name2 (NI) **]
   Nutrition:
   ProBalance (Full) - [**2103-9-20**] 03:00 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2103-9-15**] 05:54 AM
   20 Gauge - [**2103-9-17**] 09:30 AM
   PICC Line - [**2103-9-19**] 12:33 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  dtr
   [**Name (NI) 66**] status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2103-09-21 05:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Tried to decrease Fi02 to 50%, ABG worse, returned to prior settings
   ID consulted for assistance with PNA abx coverage, sputum grew
   pseudomonas and acinetobacter, BAL grew stenotrophomonas and
   acinetobacter, currently covering for pseudomonas only.  ID recs to
   continue current management but if pt decompensates further to
   transition regimen to high dose unasyn, bactrim and cefepime.
   became very agitated with attempted wean of sedation, with agitation
   would become hypertenstive and would desaturate.  Off versed gtt.
   Started fentanyl patch to assist with transition off gtt.  Will still
   require boluses when manipulated.  Did not respond to ativan prn.
   Lasix gtt continued, no worsening of renal function, but pt still not
   negative.
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2103-9-18**] 07:41 AM
   Piperacillin - [**2103-9-20**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2103-9-21**] 01:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Furosemide (Lasix) - 6 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2103-9-20**] 10:00 PM
   Lorazepam (Ativan) - [**2103-9-21**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-9-21**] 05:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.1
C (97
   HR: 71 (55 - 87) bpm
   BP: 150/53(79) {104/37(54) - 174/61(91)} mmHg
   RR: 20 (16 - 34) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,834 mL
                                                                    581 mL
   PO:
             TF:
                                                                    677 mL
                                                                    259 mL
   IVF:
                                                                    567 mL
                                                                    262 mL
   Blood products:
   Total out:
                                                                  1,418 mL
                                                                    490 mL
   Urine:
                                                                  1,418 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    416 mL
                                                                     91 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 612 (483 - 673) mL
   PS : 20 cmH2O
   RR (Spontaneous): 16
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   SpO2: 95%
   ABG: 7.38/49/68/28/2
   Ve: 9.6 L/min
   PaO2 / FiO2: 113
   Physical Examination
   General: Obese, chronically ill appearing woman, sedated on vent. .
   HEENT: NCAT, PERRL, EOMI, no scleral icterus, poor dentition
   Neck: thick, unable to appreciate JVP. tracheostomy in place
   Pulmonary: ascultated anteriorly with coarse, rhoncorous bs b/l, no
   crackles, expiratory wheezes centrally.
   Cardiac: distant
   Abdomen: tympanitic, winces w/ deep palpation, no rebound or guarding.
   ++ anasarca
   Extremities: marked anasarca, cool extremities with pitting edema.
   right PICC c/d/i
   Skin: pale
   Neurologic: sedated.
   Labs / Radiology
   270 K/uL
   8.3 g/dL
   132 mg/dL
   2.3 mg/dL
   28 mEq/L
   4.0 mEq/L
   49 mg/dL
   100 mEq/L
   140 mEq/L
   26.5 %
   15.4 K/uL
        [image002.jpg]
                             [**2103-9-17**]  02:40 PM
                             [**2103-9-18**]  05:02 AM
                             [**2103-9-18**]  05:25 AM
                             [**2103-9-19**]  05:32 AM
                             [**2103-9-20**]  03:20 AM
                             [**2103-9-20**]  04:19 AM
                             [**2103-9-20**]  03:56 PM
                             [**2103-9-20**]  05:33 PM
                             [**2103-9-21**]  01:29 AM
                             [**2103-9-21**]  01:38 AM
   WBC
   8.1
   12.8
   10.8
   15.4
   Hct
   25.1
   24.4
   25.3
   26.5
   Plt
   185
   232
   237
   270
   Cr
   2.3
   2.1
   2.4
   2.4
   2.3
   2.3
   TCO2
   32
   29
   29
   30
   Glucose
   70
   75
   98
   118
   157
   132
   Other labs: PT / PTT / INR:16.3/32.5/1.5, ALT / AST:20/14, Alk Phos / T
   Bili:192/0.5, Amylase / Lipase:[**12-8**], Differential-Neuts:87.5 %,
   Lymph:8.2 %, Mono:2.2 %, Eos:2.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.5
   g/dL, LDH:192 IU/L, Ca++:7.0 mg/dL, Mg++:2.1 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   79F with MMP, including h/o GBS, s/p trach with subsequent airway
   obstruction and repeated stenting, who p/w hypoxic respiratory
   failure.  Now s/p Y stent removal, trach revision, and trach upgrade.
   ## Hypoxic Respiratory Failure: Due to tracheobroncheomalacia,
   multifocal PNA, as well as pulm edema. Pt has been persistently
   difficult to wean from vent.
   -Continue weaning as tolerated
   -Continue to treat PNA w/ Zosyn for Pseudomonal coverage. Most recent
   BAL with ACINETOBACTER and STENOTROPHOMONAS. Appreciate ID recs
   concerning alternative regimen to treat for these organisms; concern
   for degree of nephrotoxicity with this drugs.
   -ask lab to add on [**Last Name (un) 430**] sensitivities as this may allow an alternative
   treatment regimen for pt
s probable PNA
   -Continue nebs as needed
   -Continue Lasix gtt today with uptitration; will add [**Hospital1 **] Diuril
   ## Partial SBO/illeus: Pt
s abd distention has improved s/p NGT
   placement. This is now removed and pt is now stooling.  Process seems
   resolved.
   - monitor abd exams and bladder pressure
   - Appreciate surgery recs
   ## CHF/Total body overload: Recent TTE showed moderate systolic pulm
   artery hypertension. Mild LVH with no focal wall motion abnormalities,
   nl to slightly depressed EF at 45%.
   -continue Lasix gtt today as above and trend Cr and volume status
   ## ARF: FeUrea not c/w pre-renal azotemia.  Timing of ARF c/w possible
   contrast nephropathy s/p CTA.
   -Renal consulted; appreciate input
   -holding off on re-adding home HCTZ and  ACEI for now.
   ## HTN: relatively hypotensive except for periods of anxiety, when SBP
   rises as high as 200s. Continue to titrate BP meds based on BP trends.
   - Continue amlodipine and clonidine; will hold hydral and, today,
   isosorbide
   ## COPD: Continue MDI
   ## AF: Off anticoagulation since GIB last month,
   ## DM2: Con
t RISS, dose reduce lantus
   ## Agitation: Unclear to what extent pt
s agitation is caused by pain
   versus possible anxiety. Appears to respond well to fentanyl, thus have
   transitioned to fentanyl patch and will bolus PRN. Continue olanzapine.
   Try to avoid benzos as much as possible as this may contribute to
   delirium.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2103-9-20**] 03:00 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2103-9-15**] 05:54 AM
   20 Gauge - [**2103-9-17**] 09:30 AM
   PICC Line - [**2103-9-19**] 12:33 PM
   Prophylaxis:
   DVT: heparin subq
   Stress ulcer: TFs
   Code status: Full code
   Disposition:

2103-09-21 10:26:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   PaO2 went to 54 with FIo2 decrease from 60 to 50%
   ID consulted -
   Did not have good response to lasix. Responds well to fentanyl for
   pain.
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2103-9-20**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2103-9-21**] 06:03 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Furosemide (Lasix) - 8 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2103-9-21**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2103-9-21**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-9-21**] 10:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 57 (57 - 88) bpm
   BP: 111/42(59) {104/37(54) - 170/61(88)} mmHg
   RR: 13 (13 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 64 Inch
             Total In:
                                                                  1,838 mL
                                                                    990 mL
   PO:
             TF:
                                                                    681 mL
                                                                    463 mL
   IVF:
                                                                    567 mL
                                                                    407 mL
   Blood products:
   Total out:
                                                                  1,418 mL
                                                                    650 mL
   Urine:
                                                                  1,418 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    420 mL
                                                                    340 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 650 (483 - 650) mL
   PS : 20 cmH2O
   RR (Spontaneous): 16
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   SpO2: 97%
   ABG: 7.38/49/68/28/2
   Ve: 9.9 L/min
   PaO2 / FiO2: 113
   Physical Examination
   Labs / Radiology
   8.3 g/dL
   270 K/uL
   132 mg/dL
   2.3 mg/dL
   28 mEq/L
   4.0 mEq/L
   49 mg/dL
   100 mEq/L
   140 mEq/L
   26.5 %
   15.4 K/uL
        [image002.jpg]
                             [**2103-9-17**]  02:40 PM
                             [**2103-9-18**]  05:02 AM
                             [**2103-9-18**]  05:25 AM
                             [**2103-9-19**]  05:32 AM
                             [**2103-9-20**]  03:20 AM
                             [**2103-9-20**]  04:19 AM
                             [**2103-9-20**]  03:56 PM
                             [**2103-9-20**]  05:33 PM
                             [**2103-9-21**]  01:29 AM
                             [**2103-9-21**]  01:38 AM
   WBC
   8.1
   12.8
   10.8
   15.4
   Hct
   25.1
   24.4
   25.3
   26.5
   Plt
   185
   232
   237
   270
   Cr
   2.3
   2.1
   2.4
   2.4
   2.3
   2.3
   TCO2
   32
   29
   29
   30
   Glucose
   70
   75
   98
   118
   157
   132
   Other labs: PT / PTT / INR:16.3/32.5/1.5, ALT / AST:20/14, Alk Phos / T
   Bili:192/0.5, Amylase / Lipase:[**12-8**], Differential-Neuts:88.4 %,
   Lymph:6.2 %, Mono:3.2 %, Eos:2.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.5
   g/dL, LDH:192 IU/L, Ca++:7.0 mg/dL, Mg++:2.1 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   1) Respiratory failure: multifactorial with malacia, VAP, obesity
   hypoventilation, pulm edema.
       VAP: BAL with Acinetobacter
 will check sensi to Meropenem- if
   possible would favor this over high dose Unasyn, I would
       not use Bactrim for the stenotrophomonas
 given profound
   nephrotoxicity and only 10-100k
 though would consider if she
   decompensates. If not sensitive to [**Last Name (un) 430**] and need to use high dose
   sulbactam with discuss with daughter that she may well be headed
   towards HD and confirm this is something they would want to pursue.
   2) Acute renal failure: trying to keep even to 500 cc neg/day- increase
   Lasix gtts, add [**Hospital1 **] Diuruil. Working with renal team and may be heading
   to CVVHD
 will need to discuss this with family as above
   3) Hemodynamics: overall BP now higher
 seems to trend with agitation
   4) Abdominal distension, partial SBO appreciate Surgical consultation.
   Moving bowels well
 now slowing with restart of fentanyl. Monitor
   closely. .
   5) Agitiation-weaning versed try and trying po zydis. Fentanyl patch
   instead of IV fentanyl but can use fentanyl bolus prn
   6) ICU: SC Hep, PPI, FULL CODE.  HCP is daughter.
   ICU [**Name2 (NI) **]
   Nutrition:
   ProBalance (Full) - [**2103-9-21**] 07:00 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2103-9-15**] 05:54 AM
   20 Gauge - [**2103-9-17**] 09:30 AM
   PICC Line - [**2103-9-19**] 12:33 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB
   Communication:  need to update daughter who is currently out of town
   but available by cell phone
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2103-09-22 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 Lasix gtt rate increased; [**Hospital1 **] diuril added
 Acinitobacter sensitivities added to most recent BAL
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2103-9-20**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2103-9-22**] 06:17 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Furosemide (Lasix) - 12 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2103-9-21**] 08:09 AM
   Heparin Sodium (Prophylaxis) - [**2103-9-21**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-9-22**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.8
   HR: 54 (54 - 89) bpm
   BP: 100/34(49) {100/34(49) - 177/61(94)} mmHg
   RR: 31 (13 - 37) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 120 kg (admission): 114.5 kg
   Height: 64 Inch
             Total In:
                                                                  2,540 mL
                                                                    589 mL
   PO:
             TF:
                                                                  1,084 mL
                                                                    235 mL
   IVF:
                                                                    966 mL
                                                                    353 mL
   Blood products:
   Total out:
                                                                  1,490 mL
                                                                    690 mL
   Urine:
                                                                  1,490 mL
                                                                    690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,050 mL
                                                                   -101 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 639 (530 - 650) mL
   PS : 20 cmH2O
   RR (Spontaneous): 14
   PEEP: 10 cmH2O
   FiO2: 60%
   PIP: 31 cmH2O
   SpO2: 96%
   ABG: 7.35/57/89.[**Numeric Identifier 128**]/31/3 (7.38/49/68)
   Ve: 8.8 L/min
   PaO2 / FiO2: 148
   Physical Examination
   General: Obese, chronically ill appearing woman, sedated on vent. .
   HEENT: NCAT, PERRL, EOMI, no scleral icterus, poor dentition
   Neck: thick, unable to appreciate JVP. tracheostomy in place
   Pulmonary: ascultated anteriorly with coarse, rhoncorous bs b/l, no
   crackles, expiratory wheezes centrally.
   Cardiac: distant
   Abdomen: tympanitic, winces w/ deep palpation, no rebound or guarding.
   ++ anasarca
   Extremities: marked anasarca, cool extremities with pitting edema.
   right PICC c/d/i
   Skin: pale
   Neurologic: sedated.
   Labs / Radiology
   283 K/uL
   7.6 g/dL
   122 mg/dL
   2.2 mg/dL
   31 mEq/L
   3.9 mEq/L
   47 mg/dL
   100 mEq/L
   139 mEq/L
   23.8 %
   11.1 K/uL
        [image002.jpg]
                             [**2103-9-19**]  05:32 AM
                             [**2103-9-20**]  03:20 AM
                             [**2103-9-20**]  04:19 AM
                             [**2103-9-20**]  03:56 PM
                             [**2103-9-20**]  05:33 PM
                             [**2103-9-21**]  01:29 AM
                             [**2103-9-21**]  01:38 AM
                             [**2103-9-21**]  07:13 PM
                             [**2103-9-22**]  03:43 AM
                             [**2103-9-22**]  03:53 AM
   WBC
   12.8
   10.8
   15.4
   11.1
   Hct
   24.4
   25.3
   26.5
   23.8
   Plt
   232
   237
   270
   283
   Cr
   2.4
   2.4
   2.3
   2.3
   2.2
   2.2
   TCO2
   29
   29
   30
   33
   Glucose
   98
   118
   157
   132
   125
   122
   Other labs: PT / PTT / INR:15.9/32.2/1.4, ALT / AST:20/14, Alk Phos / T
   Bili:192/0.5, Amylase / Lipase:[**12-8**], Differential-Neuts:88.4 %,
   Lymph:6.2 %, Mono:3.2 %, Eos:2.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.5
   g/dL, LDH:192 IU/L, Ca++:7.1 mg/dL, Mg++:2.2 mg/dL, PO4:4.4 mg/dL
   CXR ([**9-21**]):
   Since yesterday, right PICC line tip is in unchanged position at the
   junction
   of both brachiocephalic veins. A tracheostomy is in unchanged position.
   Cardiomegaly and mediastinal widening are unchanged. Right upper lobe
   consolidation persists. Left mid lung and basilar atelectasis are
   unchanged.
   Pulmonary congestion slightly decreased.
   Assessment and Plan
   79F with MMP, including h/o GBS, s/p trach with subsequent airway
   obstruction and repeated stenting, who p/w hypoxic respiratory
   failure.  Now s/p Y stent removal, trach revision, and trach upgrade.
   ## Hypoxic Respiratory Failure: Multifactorial including
   tracheobroncheomalacia, multifocal PNA, as well as pulm edema.
   Currently treating Pseudomonas with Zosyn. Options for Acinetobacter
   coverage include Bactrim, which is not ideal given the patient
   current renal function. Awaiting sensitivities to Meropenem as this
   would be a better option for coverage. Currently, patient is not
   requiring more oxygen, is afebrile, down-trending WBC and scant
   secretions, suggesting that acute broadening of coverage is not
   necessary. Other contributor to hypoxic respiratory failure is
   pulmonary edema, less evident on CXR, but certainly contributing from
   heavy chest wall in the setting of anasarca and subsequent decreased
   lung compliance. Attempting diuresis with some difficulty.
   -Continue Zosyn for pseudomonas treatment. Await sensitivities to
   Acinetobacter. F/U ID recs
   -Will increase Lasix gtt and Diuril
   -Continue nebs as needed
   .
   ## Partial SBO/illeus: Pt
s abd distention has improved s/p NGT
   placement. This is now removed and pt is now stooling.  Process seems
   resolved.
   - monitor abd exams and bladder pressure
   - Appreciate surgery recs
   .
   ## CHF/Total body overload: Recent TTE showed moderate systolic pulm
   artery hypertension. Mild LVH with no focal wall motion abnormalities,
   nl to slightly depressed EF at 45%.
   -Continue diuresis as above
   ## ARF: FeUrea not c/w pre-renal azotemia.  Timing of ARF c/w possible
   contrast nephropathy s/p CTA.
   -Renal consulted; appreciate input
   -holding off on re-adding home HCTZ and  ACEI for now.
   ## HTN: relatively hypotensive except for periods of anxiety, when SBP
   rises as high as 200s. This may be due to GBS and or autonomic
   dysfunction in the setting of DM. Would work to avoid extreme
   hypertension so as to prevent pulmonary flash edema.
   - Continue current antihypertensive regimen with sedation PRN
   ## COPD: Continue MDI
   ## AF: Off anticoagulation since GIB last month,
   ## DM2: Con
t RISS/Lantus
   ## Agitation: Unclear to what extent pt
s agitation is caused by pain
   versus possible anxiety. Appears to respond well to fentanyl, thus have
   transitioned to fentanyl patch and will bolus PRN. Continue olanzapine.
   Try to avoid benzos as much as possible as this may contribute to
   delirium.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2103-9-15**] 05:54 AM
   Midline - [**2103-9-21**] 12:00 PM
   Prophylaxis:
   DVT:  Heparin SC
   Stress ulcer:  PPI
   VAP:  Oral care, head of the bed elevated, on abx
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2103-09-22 10:35:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident and fellow for key portions of the services provided.  I agree
   with Dr. [**First Name (STitle) 2807**]
s note above, including assessment and plan.
   HPI:
   79 F PMH chronic respiratory failure secondary to Guillian-[**Location (un) 1935**] and
   severe TBM s/p Y-stent, recent infection with Acinetobacter and
   Stenotrophomonas admitted with recurrent respiratory failure on [**9-11**].
   During this admission, her stent was found to be obstructed with
   granulation tissue and this was removed.  She has continued to grow
   Acinetobacter and Stenotrophomonas in the sputum, in addition to PsA
   for which she is now receiving Zosyn.  She has also been diuresed for
   volume overload.
   24 Hour Events:
 MIDLINE - START [**2103-9-21**] 12:00 PM
   originally was picc, pulled out some and midline placement confirmed by
   cxr
 PICC LINE - STOP [**2103-9-21**] 12:06 PM
   placed in I.R.
   -Lasix drip increased and [**Hospital1 **] diuril added.
   -Sensitivities added to Acinetobacter.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2103-9-20**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2103-9-22**] 06:17 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2103-9-22**] 08:15 AM
   Other medications:
   Lasix gtt 12 mg/hr
   Peridex
   Lansoprazole
   Celexa
   Miralax
   Senna
   RISS
   Amlodipine
   Albuterol
   Colace
   Clonidine
   Zyprexa
   Fentanyl patch
   Diuril
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: Tube feeds
   Respiratory: Vent dependent
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Neurologic: GBS
   Flowsheet Data as of  [**2103-9-22**] 10:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.8
   HR: 61 (54 - 89) bpm
   BP: 138/43(67) {100/34(49) - 177/61(94)} mmHg
   RR: 19 (14 - 37) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 120 kg (admission): 114.5 kg
   Height: 64 Inch
             Total In:
                                                                  2,540 mL
                                                                    723 mL
   PO:
             TF:
                                                                  1,084 mL
                                                                    235 mL
   IVF:
                                                                    966 mL
                                                                    407 mL
   Blood products:
   Total out:
                                                                  1,490 mL
                                                                    860 mL
   Urine:
                                                                  1,490 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,050 mL
                                                                   -137 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 610 (530 - 639) mL
   PS : 20 cmH2O
   RR (Spontaneous): 14
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   SpO2: 91%
   ABG: 7.36/53/62/31/2
   Ve: 7.5 L/min
   PaO2 / FiO2: 124
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: Bilateral)
   Abdominal: Non-tender, Bowel sounds present, Obese
   Extremities: Right: 4+, Left: 4+, Anasarca
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   283 K/uL
   122 mg/dL
   2.2 mg/dL
   31 mEq/L
   3.9 mEq/L
   47 mg/dL
   100 mEq/L
   139 mEq/L
   23.8 %
   11.1 K/uL
        [image002.jpg]
                             [**2103-9-20**]  03:20 AM
                             [**2103-9-20**]  04:19 AM
                             [**2103-9-20**]  03:56 PM
                             [**2103-9-20**]  05:33 PM
                             [**2103-9-21**]  01:29 AM
                             [**2103-9-21**]  01:38 AM
                             [**2103-9-21**]  07:13 PM
                             [**2103-9-22**]  03:43 AM
                             [**2103-9-22**]  03:53 AM
                             [**2103-9-22**]  09:45 AM
   WBC
   10.8
   15.4
   11.1
   Hct
   25.3
   26.5
   23.8
   Plt
   237
   270
   283
   Cr
   2.4
   2.3
   2.3
   2.2
   2.2
   TCO2
   29
   29
   30
   33
   31
   Glucose
   118
   157
   132
   125
   122
   Other labs: PT / PTT / INR:15.9/32.2/1.4, ALT / AST:20/14, Alk Phos / T
   Bili:192/0.5, Amylase / Lipase:[**12-8**], Differential-Neuts:88.4 %,
   Lymph:6.2 %, Mono:3.2 %, Eos:2.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.5
   g/dL, LDH:192 IU/L, Ca++:7.1 mg/dL, Mg++:2.2 mg/dL, PO4:4.4 mg/dL
   Imaging: CXR ([**9-21**]) - Cardiomegaly.  RUL opacity - unchanged.  Linear
   atelectasis left base.  Elevated R hemidiaphragm.  Trach.  R PICC.
   Microbiology: BAL ([**9-18**]) - >100K Acinetobacter, 10-100K
   Stenotrophomonas
   Sputum ([**9-17**]) - Sparse Acinetobacter, Stenotrophomonas and PsA ([**Last Name (un) **]
   Zosyn)
   BAL ([**9-11**]) - >100K Acinetobacter, 10-100K Stenotrophomonas, 10-100K PsA
   ([**Last Name (un) **] Zosyn)
   Assessment and Plan
   79 PMH chronic respiratory failure related to GBS and TBM now with
   recurrent episode.  She has consistently grown MDR bacteria in her
   sputum and is volume overloaded.  Over the past 24 hours, her FiO2 has
   come down to 50% and she has only a small amount of secretions.  She
   has been afebrile and her WBC is overall improved.
   1)       Respiratory failure
 There are currently no acute indications
   for broadening her antibiotic therapy at this point.  We are awaiting
   sensitivities on the Acinetobacter from [**9-18**].  We will continue Zosyn
   for now.  Continue PSV, albuterol.
   2)       Anasarca
 Continue lasix and diuril, which we will increase
   diuril to 500 mg [**Hospital1 **].  Goal negative 1 L.
   3)       Sedation
 Has hemodynamic response to stimulation with ~15
   minutes of hypertension.  Fentanyl patch recently begun so we will
   discontinue the Fentanyl gtt and use boluses as needed.
   4)       HTN
 Continue amlodipine, clonidine.
   5)       ARF
 Improving.
   6)       SBO
 Continue bowel regimen.  Tolerating TF at goal.
   7)       DM
 RISS.
   8)       Mental status
 unclear what baseline mental status is. As
   above, will d/c fentanyl drip.
   ICU Care
   Nutrition: Tube feeds.
   Glycemic Control:  Regular insulin sliding scale
   Lines: Midline
   Arterial Line - [**2103-9-15**] 05:54 AM
   Midline - [**2103-9-21**] 12:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Lansoprazole
   VAP: Peridex
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : Remains in ICU, critically ill
   Time spent : 30 minutes

2103-09-23 03:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   * Decision was made not to broaden antibiotic coverage as patient had
   not decompensated clinically.
   * Lasix gtt and Diurill were increased in an effort to diurese close to
   1 goal negative/day
   * FiO2 decreased from 60 to 50% and patient maintained pulse oximetry >
   90% for most of the day, but later dropped her sats and was agitated
   despite suctioning. In this setting PEEP was increased and eventually,
   FiO2 was returned to 60%, decreased back to 50% this.
   * Given agitation, Fentanyl gtt could not be weaned off and resultant
   HTN was treated with multiple Fentanyl boluses as well as Nitro TP.
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2103-9-22**] 11:36 AM
   Piperacillin - [**2103-9-23**] 12:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Furosemide (Lasix) - 16 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2103-9-22**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Sedated
   Flowsheet Data as of  [**2103-9-23**] 03:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.1
C (97
   HR: 78 (54 - 108) bpm
   BP: 147/62(83) {100/34(49) - 199/76(110)} mmHg
   RR: 14 (14 - 37) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 120 kg (admission): 114.5 kg
   Height: 64 Inch
             Total In:
                                                                  2,104 mL
                                                                    375 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    133 mL
   IVF:
                                                                    714 mL
                                                                    153 mL
   Blood products:
   Total out:
                                                                  2,555 mL
                                                                    200 mL
   Urine:
                                                                  2,555 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -451 mL
                                                                    175 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 355 (355 - 685) mL
   PS : 20 cmH2O
   RR (Spontaneous): 12
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   SpO2: 98%
   ABG: 7.36/53/62/31/2
   Ve: 6.8 L/min
   PaO2 / FiO2: 103
   Physical Examination
   General: Obese, chronically ill appearing woman, sedated on vent. .
   HEENT: NCAT, PERRL, EOMI, no scleral icterus, poor dentition
   Neck: thick, unable to appreciate JVP. tracheostomy in place
   Pulmonary: ascultated anteriorly with coarse, rhoncorous bs b/l, no
   crackles, expiratory wheezes centrally.
   Cardiac: distant
   Abdomen: tympanitic, winces w/ deep palpation, no rebound or guarding.
   ++ anasarca
   Extremities: marked anasarca, cool extremities with pitting edema.
   right PICC c/d/i
   Skin: pale
   Neurologic: sedated. Not responsive to sternal rub.
   Labs / Radiology
   2339 K/uL
   7.6 g/dL
   97mg/dL
   2.3 mg/dL
   30 mEq/L
   4.1 mEq/L
   50 mg/dL
   97 mEq/L
   137 mEq/L
   23.7 %
   9.3 K/uL
        [image002.jpg]
                             [**2103-9-20**]  04:19 AM
                             [**2103-9-20**]  03:56 PM
                             [**2103-9-20**]  05:33 PM
                             [**2103-9-21**]  01:29 AM
                             [**2103-9-21**]  01:38 AM
                             [**2103-9-21**]  07:13 PM
                             [**2103-9-22**]  03:43 AM
                             [**2103-9-22**]  03:53 AM
                             [**2103-9-22**]  09:45 AM
                             [**2103-9-22**]  03:33 PM
   WBC
   15.4
   11.1
   Hct
   26.5
   23.8
   Plt
   270
   283
   Cr
   2.3
   2.3
   2.2
   2.2
   2.3
   TCO2
   29
   29
   30
   33
   31
   Glucose
   157
   132
   125
   122
   156
   Other labs: PT / PTT / INR:15.9/32.2/1.4, ALT / AST:20/14, Alk Phos / T
   Bili:192/0.5, Amylase / Lipase:[**12-8**], Differential-Neuts:88.4 %,
   Lymph:6.2 %, Mono:3.2 %, Eos:2.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.5
   g/dL, LDH:192 IU/L, Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   79F with MMP, including h/o GBS, s/p trach with subsequent airway
   obstruction and repeated stenting, who p/w hypoxic respiratory
   failure.  Now s/p Y stent removal, trach revision, and trach upgrade.
   ## Hypoxic Respiratory Failure: Multifactorial including
   tracheobroncheomalacia, multifocal PNA, as well as pulm edema and COPD.
   s/p treatment for acinetobacter and stenotrophamonas with bactrim and
   unasyn this admission. Now being treated with zosyn for pseudomonas
   pna.  Had initially contemplated again treating for the other two above
   organisms, was considering meropenem, however  pseudomonas now resulted
   as resistant. Given improvement on CXR, pt not decompensating with no
   increased fevers, wbc or sputum production, will not plan to broaden
   coverage at this time.  ABG overnight showed hypercarbia, this was in
   setting of hypopnea, potentially related to sedation with fentanyl.  Pt
   also with COPD with wheezes on exam which could be contributing to dead
   space and difficulty with ventilation
   -Continue Zosyn for pseudomonas treatment.
   -Continue to diurese with lasix gtt and diuril
   -Increase nebs to Q4
   -Monitor pt
s sedation/RR/tidal volumes.  Check ABG when pt not
   hypopneic.  If pt persistently requiring sedation with fentanyl to the
   point where she RR/TV fall will switch to mandatory ventilation mode on
   vent.
   .
   ## Partial SBO/illeus: Pt
s abd distention has improved s/p NGT
   placement. This is now removed and pt is now stooling.  Process seems
   resolved. Had BM last night at MN
   - monitor abd exams and bladder pressure
   -Continue bowel regiment.
   .
   ## CHF/Total body overload: Recent TTE showed moderate systolic pulm
   artery hypertension. Mild LVH with no focal wall motion abnormalities,
   nl to slightly depressed EF at 45%.
   -Continue diuresis as above, have recently increased gtt and diuril
   dose. Renal function has stayed stable. Goal neg 1 L today.
   -check [**Hospital1 **] lytes while diuresing.
   ## ARF: FeUrea not c/w pre-renal azotemia.  Timing of ARF c/w possible
   contrast nephropathy s/p CTA.
   -Renal consulted; appreciate input
   -holding off on re-adding home HCTZ and  ACEI for now.
   -renal function stable while diuresing.
   ## HTN: relatively hypotensive except for periods of anxiety, when SBP
   rises as high as 200s. This may be due to GBS and or autonomic
   dysfunction in the setting of DM. Would work to avoid extreme
   hypertension so as to prevent pulmonary flash edema.
   - Continue current antihypertensive regimen with clonidine and
   amlodipine.
   -Predominant contributor to HTN is agitation, treat as below.
   ## COPD: Continue MDI
   ## AF: Off anticoagulation since GIB last month,
   ## DM2: Con
t RISS/Lantus
   ## Agitation/AMS: Difficult at present to establish pt
s mental status.
   Per daughter at rehab pt was communicative and awake.  Since transfer
   to our service she has been sedated and unresponsive on multiple
   sedating medications. She does become intermittently agitated,
   initially thought due to anxiety and was treated with BZD gtt and later
   prn boluses, however this did not seem to help her agitation and all
   bzds were held due to concerns about clouding mental status picture. Pt
   now on fentanyl gtt with patch and boluses as well as celexa. Got
   haldol this am during rounds for agitation.  Plan to attempt to return
   pt to rehab doses of pain/anxiety/psych meds in order to  better
   elucidate her mental status as compared to how she was at rehab.
   -d/c fentanyl patch
   -consider adding  back standing [**Hospital1 **] PO ativan if tolerates seroquel
   -Re-start home dose seroquel
   -continue fentanyl gtt with boluses as needed
   -check TSH
   ICU Care
   Nutrition: TF
   Glycemic Control: ISS/lantus
   Lines:
   Arterial Line - [**2103-9-15**] 05:54 AM
 need to readdress removing this
   once agitation better controlled
   Midline - [**2103-9-21**] 12:00 PM
   Prophylaxis:
   DVT:  Heparin SC
   Stress ulcer:  PPI
   VAP:  Oral care, head of the bed elevated, on abx
   Comments:
   Communication:  Comments: Dtr, HCP
   [**Name (NI) 66**] status: Full code
   Disposition:ICU

2103-09-23 10:38:00 Physician Attending Progress Note
Chief Complaint: Hypoxic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   79 F PMH chronic respiratory failure secondary to GBS and severe TBM
   s/p Y-stent, h/o infection of Acinetobacter and Stenotrophomonas
   admitted with recurrent hypoxic respiratory failure.  During her
   admission here, she has undergone removal of the Y-stent secondary to
   obstruction from granulation tissue, treatment of Acinetobacter and PsA
   infection and diuresis for diffuse anasarca
   24 Hour Events:
   -Attempted wean fentanyl drip but she became agitated-->dysynchrony and
   desat, HTN
   -Fentanyl gtt resumed
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2103-9-22**] 11:36 AM
   Piperacillin - [**2103-9-23**] 12:00 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Furosemide (Lasix) - 16 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2103-9-23**] 09:04 AM
   Other medications:
   Peridex.
   Lansoprazole
   Celexa
   Miralax
   Senna
   RISS
   Amlodipine 10 mg daily
   Colace
   Clonidine
   Zyprexa
   Fentanyl 25 mcg
   Diuril 500 mg [**Hospital1 **]
   Lantus
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Hypertension
   Nutritional Support: Tube feeds
   Respiratory: Vent dependent, hypoxic
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Psychiatric / Sleep: Agitated
   Flowsheet Data as of  [**2103-9-23**] 10:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.5
C (97.7
   HR: 88 (56 - 108) bpm
   BP: 196/60(97) {110/37(55) - 219/76(111)} mmHg
   RR: 20 (14 - 46) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 120 kg (admission): 114.5 kg
   Height: 64 Inch
             Total In:
                                                                  2,104 mL
                                                                    968 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    454 mL
   IVF:
                                                                    714 mL
                                                                    334 mL
   Blood products:
   Total out:
                                                                  2,555 mL
                                                                    850 mL
   Urine:
                                                                  2,555 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -451 mL
                                                                    118 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 638 (355 - 786) mL
   PS : 20 cmH2O
   RR (Spontaneous): 13
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   SpO2: 90%
   ABG: 7.33/61/78.[**Numeric Identifier 244**]/30/3
   Ve: 8.2 L/min
   PaO2 / FiO2: 158
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Wheezes : , Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right: 4+, Left: 4+, Diffuse anasarca
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   339 K/uL
   97 mg/dL
   2.3 mg/dL
   30 mEq/L
   4.1 mEq/L
   50 mg/dL
   97 mEq/L
   137 mEq/L
   23.7 %
   9.3 K/uL
        [image002.jpg]
                             [**2103-9-21**]  01:29 AM
                             [**2103-9-21**]  01:38 AM
                             [**2103-9-21**]  07:13 PM
                             [**2103-9-22**]  03:43 AM
                             [**2103-9-22**]  03:53 AM
                             [**2103-9-22**]  09:45 AM
                             [**2103-9-22**]  03:33 PM
                             [**2103-9-23**]  03:04 AM
                             [**2103-9-23**]  03:51 AM
                             [**2103-9-23**]  08:39 AM
   WBC
   15.4
   11.1
   9.3
   Hct
   26.5
   23.8
   23.7
   Plt
   [**Telephone/Fax (3) 4686**]
   Cr
   2.3
   2.2
   2.2
   2.3
   2.3
   TCO2
   30
   33
   31
   34
   34
   Glucose
   132
   125
   122
   156
   97
   Other labs: PT / PTT / INR:15.9/32.2/1.4, ALT / AST:20/14, Alk Phos / T
   Bili:192/0.5, Amylase / Lipase:[**12-8**], Differential-Neuts:88.4 %,
   Lymph:6.2 %, Mono:3.2 %, Eos:2.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.5
   g/dL, LDH:192 IU/L, Ca++:7.3 mg/dL, Mg++:2.1 mg/dL, PO4:4.6 mg/dL
   Imaging: CXR - Cardiomegaly.  Resolving RUL opacity.  Trach.  Right
   midline.
   Microbiology: PsA - R meropenem
   Acinetobacter - R bactrim
   Assessment and Plan
   79 F chronic respiratory failure secondary to GBS and severe TBM, h/o
   infection with Acinetobacter, Stenotrophomonas admitted with recurrent
   hypoxic respiratory failure.  So far in her course, she has been
   treated for a RUL pneumonia and diuresed for diffuse anasarca.  Her SBO
   seems to be improved.  Over the past 24 hours, her ventilation seems to
   have worsened, which may be related to either sedation or increase dead
   space.  Review of ABG and Ve points toward respiratory depression from
   narcotics.
   1)       Respiratory failure
 Complete course of therapy with Zosyn.
   Increase combivent to Q4H.  Repeat ABG this afternoon.  Minimize
   sedation.
   2)       Agitation
 Previously had better mental status on regimen of
   Seroquel, celexa, Ativan and oxycodone at [**Hospital1 82**].  Will resume
   previous dose of Seroquel today and attempt to minimize fentanyl
   infusion.  DC fentanyl patch.  [**Month (only) 60**] need to add parenteral oxycodone in
   order to completely wean fentanyl.
   3)       Anasarca
 Continue lasix, diuril for goal I/O negative 500 cc
   to 1 L.
   4)       CRI
 Creatinine stable.  Holding HCTZ, ACEI.
   5)       HTN
 Correlates with agitation.  Continue clonidine,
   amlodipine.
   6)       Partial SBO -  Continues to tolerate TF.  Bowel regimen.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2103-9-23**] 03:25 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Lantus
   Lines:
   Arterial Line - [**2103-9-15**] 05:54 AM
   Midline - [**2103-9-21**] 12:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Lansoprazole
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : Remains in ICU.
   Total time spent:  35 minutes
   Patient seen and examined with housestaff and fellow with whose note
   above I agree.

2103-09-24 06:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2103-9-24**] 12:00 AM -- QTc ~400
   Ongoing attempts to adjust sedation in setting of agitation/AMS.
   Persistently agitated and hypertensive, not interactive or responsive
   to caregivers.  In attempt to decrease fentanyl, and return pt to close
   to "home" regimen, seroquel restarted.  Pt still requiring fentanyl gtt
   with boluses. Also got another 1mg haldol overnight.
   ABG virtually unchanged during the day despite adequate minute
   ventilation
   Increased purulent secretions
   Pt slightly negative on lasix gtt/diuril though not at goal
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2103-9-23**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2103-9-24**] 12:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Furosemide (Lasix) - 16 mg/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2103-9-23**] 09:45 AM
   Heparin Sodium (Prophylaxis) - [**2103-9-23**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-9-24**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.2
C (97.1
   HR: 78 (56 - 96) bpm
   BP: 101/40(56) {90/36(50) - 216/70(109)} mmHg
   RR: 24 (15 - 43) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 120 kg (admission): 114.5 kg
   Height: 64 Inch
             Total In:
                                                                  2,508 mL
                                                                    720 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    280 mL
   IVF:
                                                                  1,008 mL
                                                                    261 mL
   Blood products:
   Total out:
                                                                  2,105 mL
                                                                    880 mL
   Urine:
                                                                  2,105 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    403 mL
                                                                   -160 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 547 (540 - 786) mL
   PS : 20 cmH2O
   RR (Spontaneous): 15
   PEEP: 12 cmH2O
   FiO2: 50%
   PIP: 33 cmH2O
   SpO2: 95%
   ABG: 7.37/57/70/32/5
   Ve: 8 L/min
   PaO2 / FiO2: 140
   Physical Examination
   General: Obese, chronically ill appearing woman, sedated on vent. .
   HEENT: NCAT, PERRL, EOMI, no scleral icterus, poor dentition
   Neck: thick, unable to appreciate JVP. tracheostomy in place
   Pulmonary: ascultated anteriorly with coarse, rhoncorous bs b/l, no
   crackles, expiratory wheezes centrally.
   Cardiac: distant
   Abdomen: tympanitic, winces w/ deep palpation, no rebound or guarding.
   ++ anasarca
   Extremities: marked anasarca, cool extremities with pitting edema.
   right PICC c/d/i
   Skin: pale
   Neurologic: sedated. Not responsive to sternal rub.
   Labs / Radiology
   341 K/uL
   7.3 g/dL
   125 mg/dL
   2.2 mg/dL
   32 mEq/L
   4.2 mEq/L
   51 mg/dL
   97 mEq/L
   137 mEq/L
   23.2 %
   7.5 K/uL
        [image002.jpg]
                             [**2103-9-22**]  03:53 AM
                             [**2103-9-22**]  09:45 AM
                             [**2103-9-22**]  03:33 PM
                             [**2103-9-23**]  03:04 AM
                             [**2103-9-23**]  03:51 AM
                             [**2103-9-23**]  08:39 AM
                             [**2103-9-23**]  02:30 PM
                             [**2103-9-23**]  02:54 PM
                             [**2103-9-24**]  03:12 AM
                             [**2103-9-24**]  04:17 AM
   WBC
   9.3
   7.5
   Hct
   23.7
   23.2
   Plt
   339
   341
   Cr
   2.3
   2.3
   2.3
   2.2
   TCO2
   33
   31
   34
   34
   34
   34
   Glucose
   156
   97
   157
   125
   Other labs: PT / PTT / INR:16.5/35.6/1.5, ALT / AST:20/14, Alk Phos / T
   Bili:192/0.5, Amylase / Lipase:[**12-8**], Differential-Neuts:88.4 %,
   Lymph:6.2 %, Mono:3.2 %, Eos:2.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.5
   g/dL, LDH:192 IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   79F with MMP, including h/o GBS, s/p trach with subsequent airway
   obstruction and repeated stenting, who p/w hypoxic respiratory
   failure.  Now s/p Y stent removal, trach revision, and trach upgrade.
   ## Hypoxic Respiratory Failure: Multifactorial including
   tracheobroncheomalacia, multifocal PNA, as well as pulm edema and COPD.
   s/p treatment for acinetobacter and stenotrophamonas with bactrim and
   unasyn this admission. Now being treated with zosyn for pseudomonas
   pna.  Had initially contemplated again treating for the other two above
   organisms, was considering meropenem, however  pseudomonas now resulted
   as resistant.  still requiring significant ventilatory support. Given
   improvement on CXR, pt not decompensating with no increased fevers, wbc
   or sputum production, will not plan to broaden coverage at this time.
   ABG with slightly improved hypercarbia on lower fentanyl dosing.  Pt
   also with COPD with wheezes on exam which could be contributing to dead
   space and difficulty with ventilation
   -Continue Zosyn for pseudomonas treatment.  (?consider cefepime,
   unasyn, bactrim)
   -Continue to diurese with lasix gtt and diuril
   -Increase nebs to Q4
   -Monitor pt
s sedation/RR/tidal volumes.  Check ABG when pt not
   hypopneic.  If pt persistently requiring sedation with fentanyl to the
   point where she RR/TV fall will switch to mandatory ventilation mode on
   vent.
   .
   ## Partial SBO/illeus: Pt
s abd distention has improved s/p NGT
   placement. This is now removed and pt is now stooling.  Process seems
   resolved. Had BM last night at MN
   - monitor abd exams and bladder pressure
   -Continue bowel regiment.
   .
   ## CHF/Total body overload: Recent TTE showed moderate systolic pulm
   artery hypertension. Mild LVH with no focal wall motion abnormalities,
   nl to slightly depressed EF at 45%.
   -Continue diuresis as above, have recently increased gtt and diuril
   dose. Renal function has stayed stable. Goal neg 1 L today.
   -check [**Hospital1 **] lytes while diuresing.
   ## ARF: FeUrea not c/w pre-renal azotemia.  Timing of ARF c/w possible
   contrast nephropathy s/p CTA.
   -Renal consulted; appreciate input
   -holding off on re-adding home HCTZ and  ACEI for now.
   -renal function stable while diuresing.
   ## HTN: relatively hypotensive except for periods of anxiety, when SBP
   rises as high as 200s. This may be due to GBS and or autonomic
   dysfunction in the setting of DM. Would work to avoid extreme
   hypertension so as to prevent pulmonary flash edema.
   - Continue current antihypertensive regimen with clonidine and
   amlodipine.
   -Predominant contributor to HTN is agitation, treat as below.
   ## COPD: Continue MDI
   ## AF: Off anticoagulation since GIB last month,
   ## DM2: Con
t RISS/Lantus
   ## Agitation/AMS: Difficult at present to establish pt
s mental status.
   Per daughter at rehab pt was communicative and awake.  Since transfer
   to our service she has been sedated and unresponsive on multiple
   sedating medications. She does become intermittently agitated,
   initially thought due to anxiety and was treated with BZD gtt and later
   prn boluses, however this did not seem to help her agitation and all
   bzds were held due to concerns about clouding mental status picture. Pt
   now on fentanyl gtt with patch and boluses as well as celexa. Got
   haldol yesterday agitation.  Plan to attempt to return pt to rehab
   doses of pain/anxiety/psych meds in order to better elucidate her
   mental status as compared to how she was at rehab.
   -d/c fentanyl patch
   -consider adding  back standing [**Hospital1 **] PO ativan if tolerates seroquel
   -Re-start home dose seroquel
   -continue fentanyl gtt with boluses as needed
   -check TSH
   ICU Care
   Nutrition: TF
   Glycemic Control: ISS/lantus
   Lines:
   Arterial Line - [**2103-9-15**] 05:54 AM
 need to readdress removing this
   once agitation better controlled
   Midline - [**2103-9-21**] 12:00 PM
   Prophylaxis:
   DVT:  Heparin SC
   Stress ulcer:  PPI
   VAP:  Oral care, head of the bed elevated, on abx
   Comments:
   Communication:  Comments: Dtr, HCP
   [**Name (NI) 66**] status: Full code
   Disposition:ICU

2103-09-24 10:37:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2103-9-24**] 12:00 AM
   Seroquel restarted
   Worsening purulent secretions
   Lasix Drip and Diuril
   Remains on Zosyn
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2103-9-23**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2103-9-24**] 12:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Furosemide (Lasix) - 16 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2103-9-24**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-9-24**] 10:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36
C (96.8
   HR: 65 (61 - 96) bpm
   BP: 118/45(63) {90/36(50) - 202/70(107)} mmHg
   RR: 13 (13 - 43) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 112.2 kg (admission): 114.5 kg
   Height: 64 Inch
             Total In:
                                                                  2,508 mL
                                                                  1,054 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    467 mL
   IVF:
                                                                  1,008 mL
                                                                    336 mL
   Blood products:
   Total out:
                                                                  2,105 mL
                                                                  1,940 mL
   Urine:
                                                                  2,105 mL
                                                                  1,940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    403 mL
                                                                   -886 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 582 (540 - 592) mL
   PS : 20 cmH2O
   RR (Spontaneous): 17
   PEEP: 12 cmH2O
   FiO2: 50%
   PIP: 33 cmH2O
   SpO2: 100%
   ABG: 7.37/57/70/32/5
   Ve: 8.4 L/min
   PaO2 / FiO2: 140
   Physical Examination
   Gen: intubated and sedated, minimially response to tactile stimulation
   CV: RR
   Chest: diminished BS no wheezes
   Abd; obese soft NT +min BS
   Ext: anasarca
   Labs / Radiology
   7.3 g/dL
   341 K/uL
   125 mg/dL
   2.2 mg/dL
   32 mEq/L
   4.2 mEq/L
   51 mg/dL
   97 mEq/L
   137 mEq/L
   23.2 %
   7.5 K/uL
        [image002.jpg]
                             [**2103-9-22**]  03:53 AM
                             [**2103-9-22**]  09:45 AM
                             [**2103-9-22**]  03:33 PM
                             [**2103-9-23**]  03:04 AM
                             [**2103-9-23**]  03:51 AM
                             [**2103-9-23**]  08:39 AM
                             [**2103-9-23**]  02:30 PM
                             [**2103-9-23**]  02:54 PM
                             [**2103-9-24**]  03:12 AM
                             [**2103-9-24**]  04:17 AM
   WBC
   9.3
   7.5
   Hct
   23.7
   23.2
   Plt
   339
   341
   Cr
   2.3
   2.3
   2.3
   2.2
   TCO2
   33
   31
   34
   34
   34
   34
   Glucose
   156
   97
   157
   125
   Other labs: PT / PTT / INR:16.5/35.6/1.5, ALT / AST:20/14, Alk Phos / T
   Bili:192/0.5, Amylase / Lipase:[**12-8**], Differential-Neuts:88.4 %,
   Lymph:6.2 %, Mono:3.2 %, Eos:2.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.5
   g/dL, LDH:192 IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   79 F chronic respiratory failure secondary to GBS and severe TBM, h/o
   infection with Acinetobacter, Stenotrophomonas admitted with recurrent
   hypoxic respiratory failure.  So far in her course, she has been
   treated for a RUL pneumonia and diuresed for diffuse anasarca.  Her SBO
   seems to be improved.  Over the past 24 hours, her ventilation seems to
   have worsened, which may be related to either sedation or increase dead
   space.  Review of ABG and Ve points toward respiratory depression from
   narcotics.
   1)       Respiratory failure
 Multiple organisms on BAL but elected to
   Rx only the Pseudomonas. We will complete course of therapy with Zosyn
   14 days.  Increase combivent to Q4H. Try to wean Fio2. If decompensates
   will Rx Acinetobacter with high dose unasyn versus Meropenem (if
   sensitive)
   2)       Agitation
 Previously had better mental status on regimen of
   Seroquel, celexa, Ativan and oxycodone at [**Hospital1 82**].  Started back on
   Seroqeul over weekend but also getting Zydis. Would pick one or the
   other
 so Seroquel for now.   Will also decrease fentanyl drip and use
   bolus prn.
   3)       Anasarca
 Continue lasix, diuril for goal I/O negative 500 cc
   to 1 L.
   4)       CRI
 Creatine stable.  Holding HCTZ, ACEI.
   5)       HTN
 Correlates with agitation.  Continue clonidine,
   amlodipine.
   6)       Partial SBO -  Continues to tolerate TF.  Bowel regimen.
   ICU Care
   Nutrition: ProBalance (Full) - [**2103-9-24**] 01:37 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2103-9-15**] 05:54 AM
   Midline - [**2103-9-21**] 12:00 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: ppi
   VAP: hob elevation, chlorhex
   Communication:  set up meeting with daughter for [**Name2 (NI) **] or Wednesday
   Code status: Full code
   Disposition :ICU  Total time spent: 40 min

2103-09-25 06:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Continued on diuresis, early contraction alkalosis
   Seroquel d/c's and olanzapine inc. to tid per pharmacy
   Having some
grimacing
 overnight, basal fentanyl increased to minimize
   boluses
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2103-9-23**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2103-9-25**] 06:01 AM
   Infusions:
   Furosemide (Lasix) - 6 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2103-9-24**] 10:09 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-9-25**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.9
C (96.7
   HR: 78 (62 - 102) bpm
   BP: 185/63(102) {111/39(57) - 210/79(120)} mmHg
   RR: 31 (7 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 112.2 kg (admission): 114.5 kg
   Height: 64 Inch
             Total In:
                                                                  3,426 mL
                                                                    728 mL
   PO:
             TF:
                                                                  2,061 mL
                                                                    293 mL
   IVF:
                                                                    844 mL
                                                                    375 mL
   Blood products:
   Total out:
                                                                  4,240 mL
                                                                  1,960 mL
   Urine:
                                                                  4,240 mL
                                                                  1,960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -814 mL
                                                                 -1,232 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 735 (339 - 735) mL
   PS : 20 cmH2O
   RR (Spontaneous): 26
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, Unstable Airway, Vent Dependant
   PIP: 35 cmH2O
   SpO2: 96%
   ABG: ///36/
   Ve: 11.5 L/min
   Physical Examination
   General: Obese, chronically ill appearing woman, sedated on vent. .
   HEENT: NCAT, PERRL, EOMI, no scleral icterus, poor dentition
   Neck: thick, unable to appreciate JVP. tracheostomy in place
   Pulmonary: ascultated anteriorly with coarse, rhoncorous bs b/l, no
   crackles, expiratory wheezes centrally.
   Cardiac: distant
   Abdomen: tympanitic, winces w/ deep palpation, no rebound or guarding.
   ++ anasarca
   Extremities: marked anasarca, cool extremities with pitting edema.
   right PICC c/d/i
   Skin: pale
   Neurologic: sedated. Not responsive to sternal rub.
   Labs / Radiology
   341 K/uL
   7.3 g/dL
   112 mg/dL
   2.0 mg/dL
   36 mEq/L
   4.1 mEq/L
   53 mg/dL
   95 mEq/L
   140 mEq/L
   23.2 %
   7.5 K/uL
        [image002.jpg]
                             [**2103-9-22**]  03:33 PM
                             [**2103-9-23**]  03:04 AM
                             [**2103-9-23**]  03:51 AM
                             [**2103-9-23**]  08:39 AM
                             [**2103-9-23**]  02:30 PM
                             [**2103-9-23**]  02:54 PM
                             [**2103-9-24**]  03:12 AM
                             [**2103-9-24**]  04:17 AM
                             [**2103-9-24**]  07:15 PM
                             [**2103-9-25**]  05:19 AM
   WBC
   9.3
   7.5
   Hct
   23.7
   23.2
   Plt
   339
   341
   Cr
   2.3
   2.3
   2.3
   2.2
   2.1
   2.0
   TCO2
   34
   34
   34
   34
   Glucose
   156
   97
   157
   125
   110
   112
   Other labs: PT / PTT / INR:16.5/35.6/1.5, ALT / AST:20/14, Alk Phos / T
   Bili:192/0.5, Amylase / Lipase:[**12-8**], Differential-Neuts:88.4 %,
   Lymph:6.2 %, Mono:3.2 %, Eos:2.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.6
   g/dL, LDH:192 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   79F with MMP, including h/o GBS, s/p trach with subsequent airway
   obstruction and repeated stenting, who p/w hypoxic respiratory
   failure.  Now s/p Y stent removal, trach revision, and trach upgrade.
   ## Hypoxic Respiratory Failure: Multifactorial including
   tracheobroncheomalacia, multifocal PNA, as well as pulm edema and COPD.
   s/p treatment for acinetobacter and stenotrophamonas with bactrim and
   unasyn this admission. Now being treated with zosyn for pseudomonas
   pna.  Still requiring significant ventilatory support. Given
   improvement on CXR, pt not decompensating with no increased fevers, wbc
   or sputum production, will hold on broadening coverage at this time.
   ABG with slightly improved hypercarbia on lower fentanyl dosing.
   -Continue Zosyn for pseudomonas treatment, currently day 7.
   -Continue to diurese with lasix gtt and diuril
   -Nebs to Q4
   -Monitor pt
s sedation/RR/tidal volumes.  Wean PEEP if possible
   ## CHF/Total body overload: Recent TTE showed moderate systolic pulm
   artery hypertension. Mild LVH with no focal wall motion abnormalities,
   nl to slightly depressed EF at 45%.
   -Continue diuresis as above, have recently increased gtt and diuril
   dose. Renal function has stayed stable. Goal neg 1 L today.
   -check [**Hospital1 **] lytes while diuresing, ? substitution of metalozone for
   diuril per pharm.
   ## ARF: FeUrea not c/w pre-renal azotemia.  Timing of ARF c/w possible
   contrast nephropathy s/p CTA.
   -Renal consulted; appreciate input
   -holding off on re-adding home HCTZ and  ACEI for now.
   -renal function stable while diuresing.
   ## Partial SBO/illeus: Pt
s abd distention has improved s/p NGT
   placement. Pt is now stooling.  Process seems resolved.
   -Continue bowel regiment.
   ## HTN: relatively hypotensive except for periods of anxiety, when SBP
   rises as high as 200s. This may be due to GBS and or autonomic
   dysfunction in the setting of DM. Would work to avoid extreme
   hypertension so as to prevent pulmonary flash edema.
   - Continue current antihypertensive regimen with clonidine and
   amlodipine.
   -Predominant contributor to HTN is agitation/pain, treat as below.
   ## Agitation/AMS/?Pain: Difficult at present to establish pt
s mental
   status. Per daughter at rehab pt was communicative and awake.  Since
   transfer to our service she has been sedated and unresponsive on
   multiple sedating medications. She does become intermittently agitated,
   initially thought due to anxiety and was treated with BZD gtt and later
   prn boluses, however this did not seem to help her agitation and all
   bzds were held due to concerns about clouding mental status picture. Pt
   now on fentanyl gtt with patch and boluses as well as celexa.  Fentanyl
   seems to be most effective, suggesting perhaps more of a pain
   component.  (Source of potential pain not clear
abd NT as it was
   previously--? [**3-3**] trach).  Plan was to attempt to return pt to rehab
   doses of pain/anxiety/psych meds in order to better elucidate her
   mental status as compared to how she was at rehab.  However, for now,
   will con
t olanzapine w/ PRN dosing & if addition of PRN dosing not
   effective will dc that & start seroquel.
   -standing olanzapine (increase from [**Hospital1 **] to TID) w/ PRN doses for
   brkthrough agitation.
   -DC home dose seroquel for now (to avoid too many psych meds, partic as
   QTc borderline).  Hold on haldol for agitation.
   -continue fentanyl gtt with boluses as needed; however, may consider
   giving methadone 20mg IV x1 in place of fentanyl (per pharmacy) as this
   may eventually allow pt to be transitioned to methadone PO long term
   -f/u TSH
   ## COPD: Continue MDI
   ## AF: Off anticoagulation since GIB last month,
   ## DM2: Con
t RISS/Lantus
   ICU Care
   Nutrition: TF
   Glycemic Control: ISS/lantus
   Lines:
   Arterial Line - [**2103-9-15**] 05:54 AM
 need to readdress removing this
   once agitation better controlled
   Midline - [**2103-9-21**] 12:00 PM
   Prophylaxis:
   DVT:  Heparin SC
   Stress ulcer:  PPI
   VAP:  Oral care, head of the bed elevated, on abx
   Communication:  Comments: Dtr, HCP
   [**Name (NI) 66**] status: Full code
   Disposition:ICU

2103-09-25 11:36:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Excellent diuresis but bicarb rising
   More alert this AM
   Trach was coughed out partially- replaced overnight by RT
 on CXR this
   AM looks higher
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2103-9-23**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2103-9-25**] 06:01 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2103-9-25**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2103-9-25**] 08:00 AM
   Fentanyl - [**2103-9-25**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-9-25**] 11:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.8
C (96.4
   HR: 77 (62 - 102) bpm
   BP: 180/67(100) {120/37(58) - 210/79(120)} mmHg
   RR: 28 (10 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 112.2 kg (admission): 114.5 kg
   Height: 64 Inch
             Total In:
                                                                  3,426 mL
                                                                  1,250 mL
   PO:
             TF:
                                                                  2,061 mL
                                                                    522 mL
   IVF:
                                                                    844 mL
                                                                    468 mL
   Blood products:
   Total out:
                                                                  4,240 mL
                                                                  3,560 mL
   Urine:
                                                                  4,240 mL
                                                                  3,560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -814 mL
                                                                 -2,310 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 640 (339 - 879) mL
   PS : 20 cmH2O
   RR (Spontaneous): 10
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, Unstable Airway, Vent Dependant
   PIP: 33 cmH2O
   SpO2: 100%
   ABG: ///36/
   Ve: 6.2 L/min
   Physical Examination
   General Appearance: Overweight / Obese, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Chest: good air movement, no wheezes
   Abd: obese soft NT + BS
   Ext: 3+ edema
   Labs / Radiology
   8.0 g/dL
   398 K/uL
   112 mg/dL
   2.0 mg/dL
   36 mEq/L
   4.1 mEq/L
   53 mg/dL
   95 mEq/L
   140 mEq/L
   24.7 %
   8.5 K/uL
        [image002.jpg]
                             [**2103-9-22**]  03:33 PM
                             [**2103-9-23**]  03:04 AM
                             [**2103-9-23**]  03:51 AM
                             [**2103-9-23**]  08:39 AM
                             [**2103-9-23**]  02:30 PM
                             [**2103-9-23**]  02:54 PM
                             [**2103-9-24**]  03:12 AM
                             [**2103-9-24**]  04:17 AM
                             [**2103-9-24**]  07:15 PM
                             [**2103-9-25**]  05:19 AM
   WBC
   9.3
   7.5
   8.5
   Hct
   23.7
   23.2
   24.7
   Plt
   [**Telephone/Fax (3) 4751**]
   Cr
   2.3
   2.3
   2.3
   2.2
   2.1
   2.0
   TCO2
   34
   34
   34
   34
   Glucose
   156
   97
   157
   125
   110
   112
   Other labs: PT / PTT / INR:16.3/36.0/1.5, ALT / AST:20/14, Alk Phos / T
   Bili:192/0.5, Amylase / Lipase:[**12-8**], Differential-Neuts:88.4 %,
   Lymph:6.2 %, Mono:3.2 %, Eos:2.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.6
   g/dL, LDH:192 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   79 F chronic respiratory failure secondary to GBS and severe TBM, h/o
   infection with Acinetobacter, Stenotrophomonas admitted with recurrent
   hypoxic respiratory failure.  So far in her course, she has been
   treated for a RUL pneumonia and diuresed for diffuse anasarca.  Her SBO
   seems to be improved.  Over the past 24 hours, her ventilation seems to
   have worsened, which may be related to either sedation or increase dead
   space.  Review of ABG and Ve points toward respiratory depression from
   narcotics.
   1)       Respiratory failure
 Multiple organisms on BAL but elected to
   Rx only the Pseudomonas. We will complete course of therapy with Zosyn
   14 days.  Increase combivent to Q4H. Try to wean PEEP to 10. If
   decompensates will Rx Acinetobacter with high dose unasyn versus
   Meropenem (if sensitive). Will will adjust trach and clairfu with IP if
   they would like to follow up.
   2)       Agitation
 Previously had better mental status on regimen of
   Seroquel, celexa, Ativan and oxycodone at [**Hospital1 82**].  Started back on
   Seroqeul over weekend but also getting Zydis.  We have stopped
   Seroquel, standing Zydis. We will decrease fentanyl drip from 75 to 50
   and use bolus prn. Goals is to wean Fentanyl by 10-20% a day until off
   and prn only
   3)       Anasarca
 doing much better - Continue lasix, for goal I/O
   negative 500 cc to 1 L.
   4)       CRI
 Creatine improving with diruesis, slight contraction but
   we will press on for another day with lasix hold diuril
 and tremnd
   labs
   5)       HTN
 Correlates with agitation.  Continue clonidine,
   amlodipine.
   6)       Partial SBO -  Continues to tolerate TF.  Bowel regimen.
   ICU Care
   Nutrition: ProBalance (Full) - [**2103-9-25**] 12:04 AM 45 mL/hour
   Glycemic Control:  SSRI
   Lines:
   Arterial Line - [**2103-9-15**] 05:54 AM
   Midline - [**2103-9-21**] 12:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   Communication:  call dtr to update and set up a family meeting
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2103-09-26 07:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Lasix stopped with continued excellent urine outpt
   Pt appearing more awake and responsive
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2103-9-26**] 06:03 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2103-9-25**] 08:00 AM
   Fentanyl - [**2103-9-25**] 04:03 PM
   Heparin Sodium (Prophylaxis) - [**2103-9-25**] 10:09 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-9-26**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 65 (42 - 87) bpm
   BP: 131/44(67) {114/35(55) - 198/68(108)} mmHg
   RR: 17 (8 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 112.2 kg (admission): 114.5 kg
   Height: 64 Inch
             Total In:
                                                                  2,564 mL
                                                                    568 mL
   PO:
             TF:
                                                                  1,090 mL
                                                                    351 mL
   IVF:
                                                                    958 mL
                                                                    217 mL
   Blood products:
   Total out:
                                                                  6,580 mL
                                                                  1,400 mL
   Urine:
                                                                  6,580 mL
                                                                  1,400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,016 mL
                                                                   -832 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 510 (407 - 640) mL
   PS : 20 cmH2O
   RR (Spontaneous): 18
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   SpO2: 97%
   ABG: 7.45/56/69/38/12
   Ve: 9 L/min
   PaO2 / FiO2: 138
   Physical Examination
   General: Obese, chronically ill appearing woman, trached.
   HEENT: NCAT, PERRL, EOMI, no scleral icterus, poor dentition
   Neck: thick, unable to appreciate JVP. tracheostomy in place
   Pulmonary: ascultated anteriorly with coarse, rhoncorous bs b/l
   Cardiac: distant
   Abdomen: minimally distended, + BS, G-tube in place. Non-tender
   Extremities: marked anasarca, cool extremities with pitting edema.
   right midline and a-line c/d/i
   Skin: pale
   Neurologic: sedated, eyes open, responds to command to wiggle toes and
   close eyes. Mouthing some responses. Blinks to threat.
   Labs / Radiology
   432 K/uL
   8.3 g/dL
   141 mg/dL
   1.8 mg/dL
   38 mEq/L
   4.1 mEq/L
   48 mg/dL
   95 mEq/L
   140 mEq/L
   24.9 %
   8.0 K/uL
        [image002.jpg]
                             [**2103-9-23**]  02:30 PM
                             [**2103-9-23**]  02:54 PM
                             [**2103-9-24**]  03:12 AM
                             [**2103-9-24**]  04:17 AM
                             [**2103-9-24**]  07:15 PM
                             [**2103-9-25**]  05:19 AM
                             [**2103-9-25**]  11:57 AM
                             [**2103-9-25**]  05:55 PM
                             [**2103-9-25**]  06:00 PM
                             [**2103-9-26**]  03:49 AM
   WBC
   7.5
   8.5
   8.0
   Hct
   23.2
   24.7
   24.9
   Plt
   [**Telephone/Fax (3) 4788**]
   Cr
   2.3
   2.2
   2.1
   2.0
   1.9
   1.8
   TCO2
   34
   34
   39
   40
   Glucose
   157
   125
   110
   112
   91
   141
   Other labs: PT / PTT / INR:16.3/36.0/1.5, ALT / AST:20/14, Alk Phos / T
   Bili:192/0.5, Amylase / Lipase:[**12-8**], Differential-Neuts:88.4 %,
   Lymph:6.2 %, Mono:3.2 %, Eos:2.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.6
   g/dL, LDH:192 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   79F with MMP, including h/o GBS, s/p trach with subsequent airway
   obstruction and repeated stenting, who p/w hypoxic respiratory
   failure.  Now s/p Y stent removal, trach revision, and trach upgrade.
   ## Hypoxic Respiratory Failure: Multifactorial including
   tracheobroncheomalacia, multifocal PNA, as well as pulm edema and COPD.
   s/p treatment for acinetobacter and stenotrophamonas with bactrim and
   unasyn this admission. Now being treated with zosyn for pseudomonas
   pna.  Volume status much improved.
   -Nebs
   -Pt is auto-diuresing well
   -Continue zosyn for [**10-14**] day course.
   -attempt further weaning of vent settings, starting with pressure
   support
   ## CHF/Total body overload: Recent TTE showed moderate systolic pulm
   artery hypertension. Mild LVH with no focal wall motion abnormalities,
   nl to slightly depressed EF at 45%.
   -After many days effort at attempted diuresis, pt began briskly
   diuresing two days ago on lasix gtt and diuril.  Have now d/c
d these
   meds and will trend progress. Goal remains 1L negative daily.
   ## ARF: FeUrea not c/w pre-renal azotemia.  Timing of ARF c/w possible
   contrast nephropathy s/p CTA.
   -Renal consulted; appreciate input
   -pt
s creatinine improving, mobilizing fluid in what may represent
   post-atn autodiuresis.
   -monitor [**Hospital1 **] lytes, replete prn.
   -pharmacolgic diuresis now d/c
   ## Agitation/AMS/?Pain: Difficult at present to establish pt
s mental
   status. Per daughter at rehab pt was communicative and awake.  Since
   transfer to our service she has been sedated and unresponsive on
   multiple sedating medications. She does become intermittently agitated,
   initially thought due to anxiety and was treated with BZD gtt and later
   prn boluses, however this did not seem to help her agitation and all
   bzds were held due to concerns about clouding mental status picture. Pt
   now on fentanyl gtt with patch and boluses as well as celexa.  Fentanyl
   seems to be most effective, suggesting perhaps more of a pain
   component; attempting to wean gtt with some success at this point.
   Olanzapine dose increased, seroquel discontinued.  This morning pt
   mental status continues to improve. Is awake, responding to commands,
   seems aware of team.  Mouthing a few words.
   -Continue olanzapine
   -fenanyl gtt, attempting to wean
   -continue aggressive bowel regimen with goal to have pt stool today
   ## HTN: relatively hypotensive except for periods of anxiety, when SBP
   rises as high as 200s. This may be due to GBS and or autonomic
   dysfunction in the setting of DM. Would work to avoid extreme
   hypertension so as to prevent pulmonary flash edema.
   - Continue current antihypertensive regimen with clonidine and
   amlodipine.
   -Predominant contributor to HTN is agitation/pain, treat as above.
   ## COPD: Continue MDI
   ## AF: Off anticoagulation since GIB last month,
   ## DM2: Con
t RISS/Lantus
   ICU Care
   Nutrition: TFs
   ProBalance (Full) - [**2103-9-25**] 10:15 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2103-9-15**] 05:54 AM
   Midline - [**2103-9-21**] 12:00 PM
   Prophylaxis:
   DVT: hep subq
   Stress ulcer: PPI
   VAP:  VAP bundle
   Communication:  Comments:
   Code status: Full code
   Disposition: MICU

2103-09-26 11:16:00 Physician Attending Progress Note
Chief Complaint:
   HPI: I saw and examined the patient, and was physically present with
   the ICU Resident for key portions of the services provided.  I agree
   with his / her note above, including assessment and plan.
   79 F chronic respiratory failure secondary to GBS and severe TBM, h/o
   infection with Acinetobacter, Stenotrophomonas and pseudomonus admitted
   with recurrent hypoxic respiratory failure.  So far in her course, she
   has been treated for a RUL pneumonia and diuresed for diffuse
   anasarca.  Her SBO seems to have resolved.
   24 Hour Events:  Good urine output increased MS.
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2103-9-26**] 06:03 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2103-9-26**] 08:00 AM
   Lansoprazole (Prevacid) - [**2103-9-26**] 08:00 AM
   Fentanyl - [**2103-9-26**] 10:30 AM
   Other medications:
   Lantus
   Q6ss
   Hep 5K tid
   Chlorhex
   Lansoprazole
   Celexa
   Mirilax
   Senna [**Hospital1 **]
   Lasix drip off
   Clonidine 0.2 [**Hospital1 **]
   Olanzapine 10 tid
   Norvasc
   Fent drip 25
   Alb/atrovent
   Docusate qday
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-9-26**] 10:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.8
   HR: 63 (42 - 87) bpm
   BP: 119/42(62) {114/35(55) - 196/67(100)} mmHg
   RR: 15 (8 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 112.2 kg (admission): 114.5 kg
   Height: 64 Inch
             Total In:
                                                                  2,564 mL
                                                                    883 mL
   PO:
             TF:
                                                                  1,090 mL
                                                                    491 mL
   IVF:
                                                                    958 mL
                                                                    251 mL
   Blood products:
   Total out:
                                                                  6,580 mL
                                                                  1,870 mL
   Urine:
                                                                  6,580 mL
                                                                  1,870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,016 mL
                                                                   -987 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 502 (407 - 640) mL
   PS : 20 cmH2O
   RR (Spontaneous): 16
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   SpO2: 98%
   ABG: 7.45/56/69/38/12
   Ve: 8.3 L/min
   PaO2 / FiO2: 138
   Physical Examination: Gen: Trach, responsive appropriate,  HEENT:
   PERRL, EOMI Lungs: CTA anteriorly, CV:RRR s1s2 no m/r/g.  Ext:Diffuse
   anasarca.
   Labs / Radiology: Chest
   8.3 g/dL
   432 K/uL
   141 mg/dL
   1.8 mg/dL
   38 mEq/L
   4.1 mEq/L
   48 mg/dL
   95 mEq/L
   140 mEq/L
   24.9 %
   8.0 K/uL
        [image002.jpg]
                             [**2103-9-23**]  02:30 PM
                             [**2103-9-23**]  02:54 PM
                             [**2103-9-24**]  03:12 AM
                             [**2103-9-24**]  04:17 AM
                             [**2103-9-24**]  07:15 PM
                             [**2103-9-25**]  05:19 AM
                             [**2103-9-25**]  11:57 AM
                             [**2103-9-25**]  05:55 PM
                             [**2103-9-25**]  06:00 PM
                             [**2103-9-26**]  03:49 AM
   WBC
   7.5
   8.5
   8.0
   Hct
   23.2
   24.7
   24.9
   Plt
   [**Telephone/Fax (3) 4788**]
   Cr
   2.3
   2.2
   2.1
   2.0
   1.9
   1.8
   TCO2
   34
   34
   39
   40
   Glucose
   157
   125
   110
   112
   91
   141
   Other labs: PT / PTT / INR:16.3/36.0/1.5, ALT / AST:20/14, Alk Phos / T
   Bili:192/0.5, Amylase / Lipase:[**12-8**], Differential-Neuts:88.4 %,
   Lymph:6.2 %, Mono:3.2 %, Eos:2.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.6
   g/dL, LDH:192 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan 79 F chronic respiratory failure secondary to GBS
   and severe TBM, h/o infection with Acinetobacter, Stenotrophomonas
   admitted with recurrent hypoxic respiratory failure.  So far in her
   course, she has been treated for a RUL pneumonia and diuresed for
   diffuse anasarca.  Her SBO seems to be improved.   Continued
   autodiuresis s/p suspected ATN from contrast.
   1)       Respiratory failure
 Multiple organisms on BAL but elected to
   Rx only the Pseudomonas. We will complete course of therapy with Zosyn
   14 days.  Try to wean PEEP and FIO2 and PS.
   2)       Agitation
 HTN related to pain and agitation.  Continue
   olanzapine.  Hold all benzos.  Continue fentanyl for pain but needs to
   have BM narca if needed.
   3)       Anasarca
 doing much better - Continue lasix, for goal I/O
   negative 500 cc to 1 L.
   4)       CRI
 Creatine improving with diruesis, slight contraction but
   we will press on for another day with lasix hold diuril
 and trend
   labs
   5)       HTN
 Correlates with agitation.  Continue clonidine,
   amlodipine.
   6)       Partial SBO -  Continues to tolerate TF.  Bowel regimen.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2103-9-25**] 10:15 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2103-9-15**] 05:54 AM
   Midline - [**2103-9-21**] 12:00 PM
   Prophylaxis:
   DVT: SC hep
   Stress ulcer: PPI
   VAP: HOB chlorhex
   Communication:  left messages for dtr
   [**Name (NI) 66**] status: Full code
   Disposition : ICU
   Total time spent: 40

2103-09-27 05:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Brisk UOP continued off diuretics with ongoing cr improvement
   Did well overnight without agitation, on 25mcg fentanyl per hour with
   2x 50mcg boluses
   ABG showed improved oxygenation:  7.48/54/123, Fi02 decreased to 40%,
   pt desatted.  ABG was not obtained and FiO2 increased back to 60%.
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2103-9-27**] 12:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2103-9-26**] 08:00 AM
   Lansoprazole (Prevacid) - [**2103-9-26**] 08:00 AM
   Fentanyl - [**2103-9-27**] 03:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-9-27**] 05:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 63 (62 - 95) bpm
   BP: 117/43(64) {117/39(61) - 220/77(123)} mmHg
   RR: 0 (0 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 112.2 kg (admission): 114.5 kg
   Height: 64 Inch
             Total In:
                                                                  1,879 mL
                                                                    441 mL
   PO:
             TF:
                                                                  1,083 mL
                                                                    259 mL
   IVF:
                                                                    516 mL
                                                                    122 mL
   Blood products:
   Total out:
                                                                  3,040 mL
                                                                    650 mL
   Urine:
                                                                  3,040 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,161 mL
                                                                   -209 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 420 (420 - 629) mL
   PS : 15 cmH2O
   RR (Set): 12
   RR (Spontaneous): 29
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   SpO2: 98%
   ABG: 7.48/54/123/37/15
   Ve: 12.9 L/min
   PaO2 / FiO2: 205
   Physical Examination
   General: Obese, chronically ill appearing woman, trached.
   HEENT: NCAT, PERRL, EOMI, no scleral icterus, poor dentition
   Neck: thick, unable to appreciate JVP. tracheostomy in place
   Pulmonary: ascultated anteriorly with coarse, rhoncorous bs b/l
   Cardiac: distant
   Abdomen: minimally distended, + BS, G-tube in place. Non-tender
   Extremities: marked anasarca, cool extremities with pitting edema.
   right midline and a-line c/d/i
   Skin: pale
   Neurologic: sedated, eyes open, responds to command to wiggle toes and
   close eyes. Mouthing some responses. Blinks to threat.
   Labs / Radiology
   380 K/uL
   7.9 g/dL
   112 mg/dL
   1.6 mg/dL
   37 mEq/L
   3.9 mEq/L
   47 mg/dL
   97 mEq/L
   141 mEq/L
   24.0 %
   6.7 K/uL
        [image002.jpg]
                             [**2103-9-24**]  04:17 AM
                             [**2103-9-24**]  07:15 PM
                             [**2103-9-25**]  05:19 AM
                             [**2103-9-25**]  11:57 AM
                             [**2103-9-25**]  05:55 PM
                             [**2103-9-25**]  06:00 PM
                             [**2103-9-26**]  03:49 AM
                             [**2103-9-26**]  06:43 PM
                             [**2103-9-27**]  01:35 AM
                             [**2103-9-27**]  01:40 AM
   WBC
   8.5
   8.0
   6.7
   Hct
   24.7
   24.9
   24.0
   Plt
   398
   432
   380
   Cr
   2.1
   2.0
   1.9
   1.8
   1.7
   1.6
   TCO2
   34
   39
   40
   41
   Glucose
   110
   112
   91
   141
   111
   112
   Other labs: PT / PTT / INR:16.3/36.0/1.5, ALT / AST:20/14, Alk Phos / T
   Bili:192/0.5, Amylase / Lipase:[**12-8**], Differential-Neuts:88.4 %,
   Lymph:6.2 %, Mono:3.2 %, Eos:2.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.6
   g/dL, LDH:192 IU/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   79F with MMP, including h/o GBS, s/p trach with subsequent airway
   obstruction and repeated stenting, who p/w hypoxic respiratory
   failure.  Now s/p Y stent removal, trach revision, and trach upgrade.
   ## Hypoxic Respiratory Failure: Multifactorial including
   tracheobroncheomalacia, multifocal PNA, as well as pulm edema and COPD.
   s/p treatment for acinetobacter and stenotrophamonas with bactrim and
   unasyn this admission. Now being treated with zosyn for pseudomonas
   pna.  Volume status much improved.
   -Nebs
   -Pt is auto-diuresing well
   -Continue Zosyn for [**11-13**] day course.
   -attempt further weaning of vent settings, starting with pressure
   support
   ## CHF/Total body overload: Recent TTE showed moderate systolic pulm
   artery hypertension. Mild LVH with no focal wall motion abnormalities,
   nl to slightly depressed EF at 45%.
   -After many days effort at attempted diuresis, pt began briskly
   diuresing two days ago on lasix gtt and diuril.  Have now d/c
d these
   meds and will trend progress. Goal remains 1L negative daily.
   ## ARF: FeUrea not c/w pre-renal azotemia.  Timing of ARF c/w possible
   contrast nephropathy s/p CTA.
   -Renal consulted and has now signed off.
   -pt
s creatinine improving, mobilizing fluid in what may represent
   post-atn autodiuresis.
   -monitor [**Hospital1 **] lytes, replete prn.
   -pharmacolgic diuresis now d/c
   ## Agitation/AMS/?Pain: Difficult at present to establish pt
s mental
   status. Per daughter at rehab pt was communicative and awake.  Since
   transfer to our service she has been sedated and unresponsive on
   multiple sedating medications. She does become intermittently agitated,
   initially thought due to anxiety and was treated with BZD gtt and later
   prn boluses, however this did not seem to help her agitation and all
   bzds were held due to concerns about clouding mental status picture. Pt
   now on fentanyl gtt with patch and boluses as well as celexa.  Fentanyl
   seems to be most effective, suggesting perhaps more of a pain
   component; attempting to wean gtt with some success at this point.
   Olanzapine dose increased, seroquel discontinued.  This morning pt
   mental status continues to improve. Is awake, responding to commands,
   seems aware of team.  Mouthing a few words.
   -Continue olanzapine
   -fenanyl gtt, attempting to wean
   -continue aggressive bowel regimen; pt with bowel movement yesterday
   ## HTN: relatively hypotensive except for periods of anxiety, when SBP
   rises as high as 200s. This may be due to GBS and or autonomic
   dysfunction in the setting of DM. Would work to avoid extreme
   hypertension so as to prevent pulmonary flash edema.
   - Continue current antihypertensive regimen with clonidine and
   amlodipine.
   -Predominant contributor to HTN is agitation/pain, treat as above.
   -Expect BPs to improve overall as fluid overload is decreased
   ## COPD: Continue Combivent MDI
   ## AF: Off anticoagulation since GIB last month,
   ## DM2: Con
t RISS/Lantus
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2103-9-26**] 08:24 PM 45 mL/hour
   Glycemic Control:  Lantus and ISS
   Lines:
   Arterial Line - [**2103-9-15**] 05:54 AM
   Midline - [**2103-9-21**] 12:00 PM
   Prophylaxis:
   DVT: Hep subq
   Stress ulcer: TFs and PPI
   VAP: VAP bundle
   Communication:  Comments:
   Code status: Full code
   Disposition: MICU

2103-09-27 10:18:00 Physician Attending Progress Note
Chief Complaint:
   HPI: I saw and examined the patient, and was physically present with
   the ICU Resident for key portions of the services provided.  I agree
   with his / her note above, including assessment and plan.   79 F
   chronic respiratory failure secondary to GBS and severe TBM, h/o
   infection with Acinetobacter, Stenotrophomonas and pseudomonus admitted
   with recurrent hypoxic respiratory failure.  So far in her course, she
   has been treated for a RUL pneumonia and diuresed for diffuse
   anasarca.  Her SBO seems to have resolved and MS has cleared.
   24 Hour Events:ABG 7.48 titrated vent dropped sats.  Doing very well
   today.
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2103-9-27**] 06:26 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Fentanyl - [**2103-9-27**] 03:15 AM
   Heparin Sodium (Prophylaxis) - [**2103-9-27**] 08:05 AM
   Lansoprazole (Prevacid) - [**2103-9-27**] 08:23 AM
   Other medications:
   Hep sc
   Lansoprazloe
   Mirilax
   Senna
   RISS
   Lantus
   Chlorhex
   Olanzapine
   Amalodapien 10
   [**Last Name (un) 4813**] 25
   Combivent
   Colace
   Naloxone x 3 days
   Celexa
   Clonidine .2 [**Hospital1 **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-9-27**] 09:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (97
   HR: 59 (59 - 95) bpm
   BP: 126/46(69) {117/39(61) - 220/77(123)} mmHg
   RR: 16 (0 - 28) insp/min
   SpO2: 94%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 112.2 kg (admission): 114.5 kg
   Height: 64 Inch
             Total In:
                                                                  1,879 mL
                                                                    814 mL
   PO:
             TF:
                                                                  1,083 mL
                                                                    449 mL
   IVF:
                                                                    516 mL
                                                                    225 mL
   Blood products:
   Total out:
                                                                  3,040 mL
                                                                    795 mL
   Urine:
                                                                  3,040 mL
                                                                    795 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,161 mL
                                                                     19 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 518 (420 - 629) mL
   PS : 15 cmH2O
   RR (Set): 12
   RR (Spontaneous): 16
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   SpO2: 94%
   ABG: 7.44/56/76.[**Numeric Identifier 128**]/37/11
   Ve: 9.1 L/min
   PaO2 / FiO2: 152
   Physical Examination Gen: Trach, responsive appropriate,  HEENT: PERRL,
   EOMI Lungs: CTA anteriorly, CV:RRR s1s2 no m/r/g.  Ext:Diffuse
   anasarca.  Lines CDI
   Labs / Radiology: Improved edema, question nodule/infiltrate LUL
   7.9 g/dL
   380 K/uL
   112 mg/dL
   1.6 mg/dL
   37 mEq/L
   3.9 mEq/L
   47 mg/dL
   97 mEq/L
   141 mEq/L
   24.0 %
   6.7 K/uL
        [image002.jpg]
                             [**2103-9-24**]  07:15 PM
                             [**2103-9-25**]  05:19 AM
                             [**2103-9-25**]  11:57 AM
                             [**2103-9-25**]  05:55 PM
                             [**2103-9-25**]  06:00 PM
                             [**2103-9-26**]  03:49 AM
                             [**2103-9-26**]  06:43 PM
                             [**2103-9-27**]  01:35 AM
                             [**2103-9-27**]  01:40 AM
                             [**2103-9-27**]  09:10 AM
   WBC
   8.5
   8.0
   6.7
   Hct
   24.7
   24.9
   24.0
   Plt
   398
   432
   380
   Cr
   2.1
   2.0
   1.9
   1.8
   1.7
   1.6
   TCO2
   39
   40
   41
   39
   Glucose
   110
   112
   91
   141
   111
   112
   Other labs: PT / PTT / INR:16.3/36.0/1.5, ALT / AST:20/14, Alk Phos / T
   Bili:192/0.5, Amylase / Lipase:[**12-8**], Differential-Neuts:88.4 %,
   Lymph:6.2 %, Mono:3.2 %, Eos:2.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.6
   g/dL, LDH:192 IU/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan 79 F chronic respiratory failure secondary to GBS
   and severe TBM, h/o infection with Acinetobacter, Stenotrophomonas
   admitted with recurrent hypoxic respiratory failure.  So far in her
   course, she has been treated for a RUL pneumonia and diuresed for
   diffuse anasarca.  Her SBO seems to be improved.   Continued
   autodiuresis s/p suspected ATN from contrast.
   1)       Respiratory failure
 Multiple organisms on BAL but elected to
   Rx only the Pseudomonas. We will complete course of therapy with Zosyn
   10/14 days.  Try to wean PEEP and FIO2 and PS.
   2)       Agitation
 HTN related to pain and agitation.  Continue
   olanzapine.  Hold all benzos.  Will titrate off fentanyl for pain
   continue narca for continued bowel movements.
   3)       Anasarca
 doing much better - Continue lasix, for goal I/O
   negative 500 cc to 1 L.
   4)       CRI
 Creatine improving with auto diruesis, slight
   contraction
   5)       HTN
 Correlates with agitation.  Continue clonidine,
   amlodipine.
   6)       Partial SBO -  Continues to tolerate TF.  Bowel regimen.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2103-9-26**] 08:24 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2103-9-15**] 05:54 AM
   Midline - [**2103-9-21**] 12:00 PM
   Prophylaxis:
   DVT: Sc heprin
   Stress ulcer: PPI
   Communication:  with ot- try to encourage dtr to come in
 she had been
   fearful she upset her mother but now pt is more lucid and would like
   dtr to come in
   Code status: Full code
   Disposition : ICU
   Total time spent: 40

2103-09-28 07:44:00 Physician Attending Progress Note
Chief Complaint:
   HPI: I saw and examined the patient, and was physically present with
   the ICU Resident for key portions of the services provided.  I agree
   with his / her note above, including assessment and plan.
   79 F chronic respiratory failure secondary to GBS and severe TBM, h/o
   infection with Acinetobacter, Stenotrophomonas admitted with recurrent
   hypoxic respiratory failure.  So far in her course, she has been
   treated for a RUL pneumonia and diuresed for diffuse anasarca.  Her SBO
   seems to be improved.  Over the past 24 hours, her ventilation seems to
   have worsened, which may be related to either sedation or increase dead
   space.  Review of ABG and Ve points toward respiratory depression from
   narcotics
   24 Hour Events:
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2103-9-28**] 06:07 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2103-9-27**] 08:23 AM
   Fentanyl - [**2103-9-27**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2103-9-27**] 11:09 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-9-28**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37
C (98.6
   HR: 72 (59 - 96) bpm
   BP: 166/57(90) {115/41(62) - 196/68(106)} mmHg
   RR: 24 (9 - 28) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 112.2 kg (admission): 114.5 kg
   Height: 64 Inch
             Total In:
                                                                  2,000 mL
                                                                    553 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    346 mL
   IVF:
                                                                    475 mL
                                                                    177 mL
   Blood products:
   Total out:
                                                                  1,750 mL
                                                                    630 mL
   Urine:
                                                                  1,750 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    250 mL
                                                                    -77 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 438 (174 - 591) mL
   PS : 15 cmH2O
   RR (Spontaneous): 25
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   SpO2: 93%
   ABG: 7.44/56/76.[**Numeric Identifier 128**]/35/11
   Ve: 11.4 L/min
   PaO2 / FiO2: 152
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.2 g/dL
   436 K/uL
   82 mg/dL
   1.5 mg/dL
   35 mEq/L
   4.1 mEq/L
   45 mg/dL
   98 mEq/L
   140 mEq/L
   25.4 %
   8.4 K/uL
        [image002.jpg]
                             [**2103-9-25**]  11:57 AM
                             [**2103-9-25**]  05:55 PM
                             [**2103-9-25**]  06:00 PM
                             [**2103-9-26**]  03:49 AM
                             [**2103-9-26**]  06:43 PM
                             [**2103-9-27**]  01:35 AM
                             [**2103-9-27**]  01:40 AM
                             [**2103-9-27**]  09:10 AM
                             [**2103-9-27**]  03:15 PM
                             [**2103-9-28**]  04:14 AM
   WBC
   8.0
   6.7
   8.4
   Hct
   24.9
   24.0
   25.4
   Plt
   [**Telephone/Fax (3) 4842**]
   Cr
   1.9
   1.8
   1.7
   1.6
   1.5
   1.5
   TCO2
   39
   40
   41
   39
   Glucose
   91
   141
   111
   112
   133
   82
   Other labs: PT / PTT / INR:16.3/36.0/1.5, ALT / AST:20/14, Alk Phos / T
   Bili:192/0.5, Amylase / Lipase:[**12-8**], Differential-Neuts:88.4 %,
   Lymph:6.2 %, Mono:3.2 %, Eos:2.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.6
   g/dL, LDH:192 IU/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   1)       Respiratory failure
 Multiple organisms on BAL but elected to
   Rx only the Pseudomonas. We will complete course of therapy with Zosyn
   14 days.  Increase combivent to Q4H. Try to wean PEEP to 10. If
   decompensates will Rx Acinetobacter with high dose unasyn versus
   Meropenem (if sensitive). Will will adjust trach and clairfu with IP if
   they would like to follow up.
   2)       Agitation
 Previously had better mental status on regimen of
   Seroquel, celexa, Ativan and oxycodone at [**Hospital1 82**].  Started back on
   Seroqeul over weekend but also getting Zydis.  We have stopped
   Seroquel, standing Zydis. We will decrease fentanyl drip from 75 to 50
   and use bolus prn. Goals is to wean Fentanyl by 10-20% a day until off
   and prn only
   3)       Anasarca
 doing much better - Continue lasix, for goal I/O
   negative 500 cc to 1 L.
   4)       CRI
 Creatine improving with diruesis, slight contraction but
   we will press on for another day with lasix hold diuril
 and tremnd
   labs
   5)       HTN
 Correlates with agitation.  Continue clonidine,
   amlodipine.
   6)       Partial SBO -  Continues to tolerate TF.  Bowel regimen.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2103-9-27**] 05:15 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2103-9-15**] 05:54 AM
   Midline - [**2103-9-21**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2103-09-28 08:12:00 Physician Resident Progress Note
24 Hour Events:
   Attempt to wean Fi02 to 40% lead to dropping 02 sats.
   Minimal agitation ON.  Con
t on fentanyl 25mcg gtt.
   Pt w/o complaints.
   Daughter [**Name (NI) 420**] & informed that pt is more awake/less deliriuos &
   slowly improving.
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2103-9-28**] 06:07 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2103-9-27**] 08:23 AM
   Fentanyl - [**2103-9-27**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2103-9-27**] 11:09 PM
   Flowsheet Data as of  [**2103-9-28**] 08:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37
C (98.6
   HR: 72 (59 - 96) bpm
   BP: 166/57(90) {115/41(62) - 196/68(106)} mmHg
   RR: 24 (9 - 27) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 112.2 kg (admission): 114.5 kg
   Height: 64 Inch
             Total In:
                                                                  2,000 mL
                                                                    580 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    368 mL
   IVF:
                                                                    475 mL
                                                                    182 mL
   Blood products:
   Total out:
                                                                  1,750 mL
                                                                    630 mL
   Urine:
                                                                  1,750 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    250 mL
                                                                    -50 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 438 (174 - 591) mL
   PS : 15 cmH2O
   RR (Spontaneous): 25
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   SpO2: 93%
   ABG: 7.44/56/76.[**Numeric Identifier 128**]/35/11
   Ve: 11.4 L/min
   PaO2 / FiO2: 190
   Physical Examination
   General: Obese, chronically ill appearing woman, trached.
   HEENT: NCAT, PERRL, EOMI, no scleral icterus, poor dentition
   Neck: thick, unable to appreciate JVP. tracheostomy in place
   Pulmonary: auscultated anteriorly with coarse, rhoncorous bs b/l
   Cardiac: distant
   Abdomen: minimally distended, + BS, G-tube in place. Non-tender
   Extremities: nasarca, cool extremities with pitting edema. right
   midline and a-line c/d/i
   Skin: pale
   Neurologic: rousable, eyes open, responds to command to wiggle toes and
   close eyes. Mouthing some responses. Blinks to threat.
   Labs / Radiology
   436 K/uL
   8.2 g/dL
   82 mg/dL
   1.5 mg/dL
   35 mEq/L
   4.1 mEq/L
   45 mg/dL
   98 mEq/L
   140 mEq/L
   25.4 %
   8.4 K/uL
        [image002.jpg]
                             [**2103-9-25**]  11:57 AM
                             [**2103-9-25**]  05:55 PM
                             [**2103-9-25**]  06:00 PM
                             [**2103-9-26**]  03:49 AM
                             [**2103-9-26**]  06:43 PM
                             [**2103-9-27**]  01:35 AM
                             [**2103-9-27**]  01:40 AM
                             [**2103-9-27**]  09:10 AM
                             [**2103-9-27**]  03:15 PM
                             [**2103-9-28**]  04:14 AM
   WBC
   8.0
   6.7
   8.4
   Hct
   24.9
   24.0
   25.4
   Plt
   [**Telephone/Fax (3) 4842**]
   Cr
   1.9
   1.8
   1.7
   1.6
   1.5
   1.5
   TCO2
   39
   40
   41
   39
   Glucose
   91
   141
   111
   112
   133
   82
   Other labs: PT / PTT / INR:16.3/36.0/1.5, ALT / AST:20/14, Alk Phos / T
   Bili:192/0.5, Amylase / Lipase:[**12-8**], Differential-Neuts:88.4 %,
   Lymph:6.2 %, Mono:3.2 %, Eos:2.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.6
   g/dL, LDH:192 IU/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   79F with MMP, including h/o GBS, s/p trach with subsequent airway
   obstruction and repeated stenting, who p/w hypoxic respiratory
   failure.  Now s/p Y stent removal, trach revision, and trach upgrade.
   Slowly improving.
   ## Hypoxic Respiratory Failure: Multifactorial including
   tracheobroncheomalacia, multifocal PNA, as well as pulm edema and COPD.
   s/p treatment for acinetobacter and stenotrophamonas with bactrim and
   unasyn this admission. Now being treated with zosyn for pseudomonas
   pna.  Volume status much improved.
   -Nebs
   -Resume diuretics PRN to maintain negative fluid balance (w/ hope of
   further diuresis leading to further vent weaning)
   -Continue Zosyn, [**12-14**] day course.
   -attempt further weaning of vent settings as able
   ## CHF/Total body overload: Recent TTE showed moderate systolic pulm
   artery hypertension. Mild LVH with no focal wall motion abnormalities,
   nl to slightly depressed EF at 45%.
   - Goal remains 1L negative daily.
   ## ARF: FeUrea not c/w pre-renal azotemia.  Timing of ARF c/w possible
   contrast nephropathy s/p CTA.  Renal function now much improved,
   nearing baseline.  Good UOP>
   -Renal consulted and has now signed off.
   -pt
s creatinine improving, mobilizing fluid in what may represent
   post-atn autodiuresis.
   -monitor [**Hospital1 **] lytes, replete prn.
   ## Agitation/AMS/?Pain: Difficult at present to establish pt
s mental
   status. Per daughter at rehab pt was communicative and awake.  Since
   transfer to our service she has been sedated and unresponsive on
   multiple sedating medications. She does become intermittently agitated,
   initially thought due to anxiety and was treated with BZD gtt and later
   prn boluses, however this did not seem to help her agitation and all
   bzds were held due to concerns about clouding mental status picture. Pt
   now on fentanyl gtt with patch and boluses as well as celexa.  Fentanyl
   seems to be most effective, suggesting perhaps more of a pain
   component; attempting to wean gtt with some success at this point.
   Olanzapine dose increased, seroquel discontinued.  This morning pt
   mental status continues to improve. Is awake, responding to commands,
   seems aware of team.  Mouthing a few words.
   -Continue olanzapine
   -fenanyl gtt, attempting to wean
   -continue aggressive bowel regimen
   ## HTN: relatively hypotensive except for periods of anxiety, when SBP
   rises as high as 200s. This may be due to GBS and or autonomic
   dysfunction in the setting of DM. Would work to avoid extreme
   hypertension so as to prevent pulmonary flash edema.
   - Continue current antihypertensive regimen with clonidine and
   amlodipine.
   -Predominant contributor to HTN is agitation/pain, treat as above.
   -Expect BPs to improve overall as fluid overload is decreased
   ## COPD: Continue Combivent MDI
   ## AF: Off anticoagulation since GIB last month,
   ## DM2: Con
t RISS/Lantus
   ICU Care
   Nutrition: PEG TF
   ProBalance (Full) - [**2103-9-27**] 05:15 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2103-9-15**] 05:54 AM
   Midline - [**2103-9-21**] 12:00 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer:  PPI
   VAP:  HOB elevation, mouth care
   Comments:
   Communication:  Comments: w/ dtr
   [**Name (NI) 66**] status: Full code
   Disposition: ICU

2103-09-29 07:19:00 Physician Resident Progress Note
Chief Complaint:
   79F with MMP, including h/o GBS, s/p trach with subsequent airway
   obstruction and repeated stenting, who p/w hypoxic respiratory
   failure.  Now s/p Y stent removal, trach revision, and trach upgrade.
   Slowly improving.
   24 Hour Events:
 ARTERIAL LINE DC'd08/29/[**2103**] 09:13 PM
   - Given 40mg IV lasix, then restarted on lasix gtt as pt not meeting
   I/O goal.
   - Pt slept through night w/o agitation.
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2103-9-29**] 06:22 AM
   Infusions:
   Furosemide (Lasix) - 7 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2103-9-28**] 09:16 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-9-29**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.5
C (97.7
   HR: 55 (55 - 74) bpm
   BP: 119/54(69) {95/44(59) - 131/58(76)} mmHg
   RR: 19 (14 - 30) insp/min
   SpO2: 93%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 112.2 kg (admission): 114.5 kg
   Height: 64 Inch
             Total In:
                                                                  1,870 mL
                                                                    560 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    328 mL
   IVF:
                                                                    440 mL
                                                                    203 mL
   Blood products:
   Total out:
                                                                  1,745 mL
                                                                  1,060 mL
   Urine:
                                                                  1,745 mL
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    125 mL
                                                                   -500 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 460 (347 - 523) mL
   PS : 15 cmH2O
   RR (Spontaneous): 23
   PEEP: 10 cmH2O
   FiO2: 45%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   SpO2: 93%
   ABG: 7.46/52/65/37/10
   Ve: 10.1 L/min
   PaO2 / FiO2: 144
   Physical Examination
   General: Obese, chronically ill appearing woman, trached.
   HEENT: NCAT, PERRL, EOMI, no scleral icterus, poor dentition
   Neck: thick, unable to appreciate JVP. tracheostomy in place
   Pulmonary: auscultated anteriorly with coarse, rhoncorous bs b/l
   Cardiac: distant
   Abdomen: minimally distended, + BS, G-tube in place. Non-tender
   Extremities: nasarca, cool extremities with pitting edema. right
   midline and a-line c/d/i
   Skin: pale
   Neurologic: rousable, eyes open, responds to command to wiggle toes and
   close eyes. Mouthing some responses. Blinks to threat.
   Labs / Radiology
   349 K/uL
   8.0 g/dL
   120 mg/dL
   1.5 mg/dL
   37 mEq/L
   4.3 mEq/L
   44 mg/dL
   98 mEq/L
   141 mEq/L
   24.6 %
   8.0 K/uL
        [image002.jpg]
                             [**2103-9-25**]  06:00 PM
                             [**2103-9-26**]  03:49 AM
                             [**2103-9-26**]  06:43 PM
                             [**2103-9-27**]  01:35 AM
                             [**2103-9-27**]  01:40 AM
                             [**2103-9-27**]  09:10 AM
                             [**2103-9-27**]  03:15 PM
                             [**2103-9-28**]  04:14 AM
                             [**2103-9-28**]  09:39 AM
                             [**2103-9-29**]  03:51 AM
   WBC
   8.0
   6.7
   8.4
   8.0
   Hct
   24.9
   24.0
   25.4
   24.6
   Plt
   [**Telephone/Fax (3) 4884**]49
   Cr
   1.8
   1.7
   1.6
   1.5
   1.5
   1.5
   TCO2
   40
   41
   39
   38
   Glucose
   141
   111
   112
   133
   82
   120
   Other labs: PT / PTT / INR:16.3/36.0/1.5, ALT / AST:20/14, Alk Phos / T
   Bili:192/0.5, Amylase / Lipase:[**12-8**], Differential-Neuts:88.4 %,
   Lymph:6.2 %, Mono:3.2 %, Eos:2.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.6
   g/dL, LDH:192 IU/L, Ca++:7.6 mg/dL, Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   79F with MMP, including h/o GBS, s/p trach with subsequent airway
   obstruction and repeated stenting, who p/w hypoxic respiratory
   failure.  Now s/p Y stent removal, trach revision, and trach upgrade.
   Slowly improving.
   ## Hypoxic Respiratory Failure: Multifactorial including
   tracheobroncheomalacia, multifocal PNA, as well as pulm edema and COPD.
   s/p treatment for acinetobacter and stenotrophamonas with bactrim and
   unasyn this admission. Now being treated with zosyn for pseudomonas
   pna.  Volume status much improved.
   -Nebs
   -Resume diuretics PRN to maintain negative fluid balance (w/ hope of
   further diuresis leading to further vent weaning)
   -Continue Zosyn, [**12-14**] day course.
   -attempt further weaning of vent settings as able
   ## CHF/Total body overload: Recent TTE showed moderate systolic pulm
   artery hypertension. Mild LVH with no focal wall motion abnormalities,
   nl to slightly depressed EF at 45%.
   - Goal remains 1L negative daily.
   ## ARF: FeUrea not c/w pre-renal azotemia.  Timing of ARF c/w possible
   contrast nephropathy s/p CTA.  Renal function now much improved,
   nearing baseline.  Good UOP>
   -Renal consulted and has now signed off.
   -pt
s creatinine improving, mobilizing fluid in what may represent
   post-atn autodiuresis.
   -monitor [**Hospital1 **] lytes, replete prn.
   ## Agitation/AMS/?Pain: Difficult at present to establish pt
s mental
   status. Per daughter at rehab pt was communicative and awake.  Since
   transfer to our service she has been sedated and unresponsive on
   multiple sedating medications. She does become intermittently agitated,
   initially thought due to anxiety and was treated with BZD gtt and later
   prn boluses, however this did not seem to help her agitation and all
   bzds were held due to concerns about clouding mental status picture. Pt
   now on fentanyl gtt with patch and boluses as well as celexa.  Fentanyl
   seems to be most effective, suggesting perhaps more of a pain
   component; attempting to wean gtt with some success at this point.
   Olanzapine dose increased, seroquel discontinued.  This morning pt
   mental status continues to improve. Is awake, responding to commands,
   seems aware of team.  Mouthing a few words.
   -Continue olanzapine
   -fenanyl gtt, attempting to wean
   -continue aggressive bowel regimen
   ## HTN: relatively hypotensive except for periods of anxiety, when SBP
   rises as high as 200s. This may be due to GBS and or autonomic
   dysfunction in the setting of DM. Would work to avoid extreme
   hypertension so as to prevent pulmonary flash edema.
   - Continue current antihypertensive regimen with clonidine and
   amlodipine.
   -Predominant contributor to HTN is agitation/pain, treat as above.
   -Expect BPs to improve overall as fluid overload is decreased
   ## COPD: Continue Combivent MDI
   ## AF: Off anticoagulation since GIB last month,
   ## DM2: Con
t RISS/Lantus
   ICU Care
   Nutrition: PEG TF
   ProBalance (Full) - [**2103-9-27**] 05:15 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2103-9-15**] 05:54 AM
   Midline - [**2103-9-21**] 12:00 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer:  PPI
   VAP:  HOB elevation, mouth care
   Comments:
   Communication:  Comments: w/ dtr
   [**Name (NI) 66**] status: Full code
   Disposition: ICU

2103-09-29 07:32:00 Physician Attending Progress Note
Active issues:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with her
   note above, including assessment and plan.
   79yo woman chronic respiratory failure secondary to GBS and severe TBM
   s/p trach, h/o infection with Acinetobacter, Stenotrophomonas admitted
   with recurrent hypoxic respiratory failure.  Highlights of her course
   have been ATN and pseudomonal PNA. ARF from suspected ATN from contrast
   has been resolving. On [**9-28**] Fi02 from 50
 40% with sats high 80
s so
   FiO2 increased to 45%.
   24 Hour Events:
   Not agitated overnight.
   Afebrile overnight.
 ARTERIAL LINE - STOP [**2103-9-28**] 09:13 PM
   Allergies:
   Aspirin
 Unknown
   Last dose of Antibiotics:
   Zosyn - [**2103-9-29**] 06:22 AM
   Infusions:
   Lasix - 7 mg/hour
 8mg/hr
   Other ICU medications:
   Heparin 5000 units subQ TID
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-9-29**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.5
C (97.7
   HR: 55 (55 - 74) bpm
   BP: 119/54(69) {95/44(59) - 131/58(76)} mmHg
   RR: 19 (14 - 30) insp/min
   SpO2: 93%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 112.2 kg (admission): 114.5 kg
   Height: 64 Inch
             Total In:
                                                                  1,870 mL
                                                                    575 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    338 mL
   IVF:
                                                                    440 mL
                                                                    207 mL
   Blood products:
   Total out:
                                                                  1,745 mL
                                                                  1,060 mL
   Urine:
                                                                  1,745 mL
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    125 mL
                                                                   -485 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 460 (347 - 523) mL
   PS : 15 cmH2O
   RR (Spontaneous): 23
   PEEP: 10 cmH2O
   FiO2: 45%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   SpO2: 93%
   ABG: 7.46/52/65/37/10
   Ve: 10.1 L/min
   PaO2 / FiO2: 144
   Physical Examination
   General: NAD, obese, comfortable.
   HEENT: Trach site clean.
   CV: Soft HS
s, RRR without m/r/g
s appreciated.
   Lungs: Anterior exam without crackles or wheezing.
   Ab: Obese, patient refuses abdominal exam.
   Ext: 2+ LE edema.
   Neuro: Arouses to voice. Answering questions appropriately and
   interactive.
   Labs / Radiology
   8.0
   349
   120 mg/dL
   1.5 mg/dL
   37 mEq/L
   4.3 mEq/L
   44 mg/dL
   98 mEq/L
   141 mEq/L
   24.6 %
   8.0 K/uL
        [image002.jpg] VBG 7.44 / 58
                             [**2103-9-25**]  06:00 PM
                             [**2103-9-26**]  03:49 AM
                             [**2103-9-26**]  06:43 PM
                             [**2103-9-27**]  01:35 AM
                             [**2103-9-27**]  01:40 AM
                             [**2103-9-27**]  09:10 AM
                             [**2103-9-27**]  03:15 PM
                             [**2103-9-28**]  04:14 AM
                             [**2103-9-28**]  09:39 AM
                             [**2103-9-29**]  03:51 AM
   WBC
   8.0
   6.7
   8.4
   8.0
   Hct
   24.9
   24.0
   25.4
   24.6
   Plt
   [**Telephone/Fax (3) 4884**]49
   Cr
   1.8
   1.7
   1.6
   1.5
   1.5
   1.5
   TCO2
   40
   41
   39
   38
   Glucose
   141
   111
   112
   133
   82
   120
   Other labs: PT / PTT / INR:16.3/36.0/1.5, ALT / AST:20/14, Alk Phos / T
   Bili:192/0.5, Amylase / Lipase:[**12-8**], Differential-Neuts:88.4 %,
   Lymph:6.2 %, Mono:3.2 %, Eos:2.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.6
   g/dL, LDH:192 IU/L, Ca++:7.6 mg/dL, Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   79yo woman with respiratory failure, Pseudomonas pneumonia and ARF [**3-3**]
   ATN.
   1)      Respiratory failure
 Multiple organisms on BAL but elected to
   treat only the Pseudomonas. We will complete course of therapy with
   Zosyn 14 days. Continue combivent to Q4H. Continue to wean vent as
   tolerated. Still with a slightly increased oxygen requirement. Will
   recheck chest x-ray tomorrow given slightly increased RML opacity
   compared to [**9-27**] film. Currently day 12 of 14 of Zosyn.
   2)      Agitation
 Improved off pain meds. Better even from yesterday.
   Answering questions appropriately today. Changing Fentanyl gtt to
   boluses appear to help.
   3)       Anasarca
 doing better - continue lasix, for goal negative  1
   L.
   4)       CRI
 Creatine improving with diruesis, slight contraction
   will continue with lasix. ATN recovering with supportive care and
   continued diuresis.
   5)       HTN
 Correlates with agitation.  Continue clonidine,
   amlodipine. Currently well-controlled.
   6)       Partial SBO -  Resolved; continues to tolerate TF.  Bowel
   regimen.
   7)     COPD: Continue nebs. Lung exam stable.
   8)     F/E/N: TFs at goal. Follow/replete
lytes as needed.
   9)     Code: full; access: mid-line; prophylaxis: heparin subQ / PPI;
   dispo: MICU for now.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2103-9-28**] 03:22 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2103-9-21**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:
   ------ Protected Section ------
   79 year old female with chronic trach (GBS, tracheomalacia) adm [**9-11**]
   with acute resp distress, Pseudomonas PNA and anasarca. HAS ARF
   worsened by contrast nephropathy
    *Continue antibiotics
   *Wean vent as tolerated
   *Wean sedation given MS
   *Attempt diuresis
   ------ Protected Section Addendum Entered By:[**Name (NI) 749**] [**Last Name (NamePattern1) **], MD
   on:[**2103-9-29**] 14:07 ------
   Total time spent: 35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 749**] [**Last Name (NamePattern1) **], MD
   on:[**2103-9-29**] 15:10 ------

2103-09-30 07:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Increase in sputum production; sent for culture.
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2103-9-30**] 06:00 AM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2103-9-29**] 08:00 AM
   Fentanyl - [**2103-9-29**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2103-9-30**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-9-30**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.3
   HR: 62 (54 - 75) bpm
   BP: 117/50(67) {102/44(58) - 137/64(80)} mmHg
   RR: 18 (7 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 112.2 kg (admission): 114.5 kg
   Height: 64 Inch
             Total In:
                                                                  1,859 mL
                                                                    575 mL
   PO:
             TF:
                                                                  1,083 mL
                                                                    345 mL
   IVF:
                                                                    536 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  2,540 mL
                                                                    940 mL
   Urine:
                                                                  2,540 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -681 mL
                                                                   -365 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 527 (332 - 552) mL
   PS : 15 cmH2O
   RR (Spontaneous): 29
   PEEP: 10 cmH2O
   FiO2: 45%
   PIP: 26 cmH2O
   SpO2: 99%
   ABG: ///36/
   Ve: 9.6 L/min
   Physical Examination
   General: Obese, chronically ill appearing woman, trached.
   HEENT: NCAT, PERRL, EOMI, no scleral icterus, poor dentition
   Neck: thick, unable to appreciate JVP. Tracheostomy in place
   Pulmonary: auscultated anteriorly with coarse, rhoncorous bs b/l
   Cardiac: distant
   Abdomen: minimally distended, + BS, G-tube in place. Non-tender
   Extremities: anasarca, cool extremities with pitting edema, though
   overall improved from prior exams
   Skin: pale
   Neurologic: awake, mouthing words, responding to commands, asking
   questions.
   Labs / Radiology
   398 K/uL
   7.9 g/dL
   126 mg/dL
   1.5 mg/dL
   36 mEq/L
   4.2 mEq/L
   45 mg/dL
   98 mEq/L
   141 mEq/L
   24.2 %
   8.2 K/uL
        [image002.jpg]
                             [**2103-9-26**]  03:49 AM
                             [**2103-9-26**]  06:43 PM
                             [**2103-9-27**]  01:35 AM
                             [**2103-9-27**]  01:40 AM
                             [**2103-9-27**]  09:10 AM
                             [**2103-9-27**]  03:15 PM
                             [**2103-9-28**]  04:14 AM
                             [**2103-9-28**]  09:39 AM
                             [**2103-9-29**]  03:51 AM
                             [**2103-9-30**]  03:24 AM
   WBC
   8.0
   6.7
   8.4
   8.0
   8.2
   Hct
   24.9
   24.0
   25.4
   24.6
   24.2
   Plt
   [**Telephone/Fax (3) 4884**]49
   398
   Cr
   1.8
   1.7
   1.6
   1.5
   1.5
   1.5
   1.5
   TCO2
   41
   39
   38
   Glucose
   141
   111
   112
   133
   82
   120
   126
   Other labs: PT / PTT / INR:15.7/34.4/1.4, ALT / AST:20/14, Alk Phos / T
   Bili:192/0.5, Amylase / Lipase:[**12-8**], Differential-Neuts:88.4 %,
   Lymph:6.2 %, Mono:3.2 %, Eos:2.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.6
   g/dL, LDH:192 IU/L, Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   79F with MMP, including h/o GBS, s/p trach with subsequent airway
   obstruction and repeated stenting, who p/w hypoxic respiratory
   failure.  Now s/p Y stent removal, trach revision, and trach upgrade.
   Slowly improving.
   ## Hypoxic Respiratory Failure: Multifactorial including
   tracheobroncheomalacia, multifocal PNA, as well as pulm edema and COPD.
   s/p treatment for acinetobacter and stenotrophamonas with bactrim and
   unasyn this admission. Now being treated with zosyn for pseudomonas
   pna.  Volume status much improved.
   -Nebs
   -Resume diuretics PRN to maintain negative fluid balance (w/ hope of
   further diuresis leading to further vent weaning)
   -Continue Zosyn, [**1-13**] day course.
   -have been as of yet unable to wean FiO2, will continue to attempt as
   pt improves.
   -in setting of possibly worsened infiltrate on CXR will repeat sputum
   culture and CXR, consider adding unasyn/bactrim to cover
   stenotrophomonas/acinetobacter seen previously on culture if pt
   clinically decompensates/spikes.
   ## CHF/Total body overload: Recent TTE showed moderate systolic pulm
   artery hypertension. Mild LVH with no focal wall motion abnormalities,
   nl to slightly depressed EF at 45%.
   - Goal remains 1L negative daily.
   ## ARF: FeUrea not c/w pre-renal azotemia.  Timing of ARF c/w possible
   contrast nephropathy s/p CTA.  Renal function now much improved,
   nearing baseline.  Good UOP.
   -Renal consulted and has now signed off.
   -pt
s creatinine improving, mobilizing fluid in what may represent
   post-atn autodiuresis.
   -monitor lytes, replete prn
   ## Agitation/AMS/?Pain: Much improved as sedation weaned down. Will be
   minimizing benzos.
   -continue fentanyl boluses prn pain/agitation
   -olanzapine
   -celexa
   ## HTN: relatively hypotensive except for periods of anxiety, when SBP
   rises as high as 200s. This may be due to GBS and or autonomic
   dysfunction in the setting of DM. Would work to avoid extreme
   hypertension so as to prevent pulmonary flash edema.
   -Clonidine d/c
d to allow for additional BP room with diuresis
   -Continue amlodipine.
   -Predominant contributor to HTN is agitation/pain, treat as above.
   -Expect BPs to improve overall as fluid overload is decreased
   ## COPD: Continue Combivent MDI
   ## AF: Off anticoagulation since GIB last month,
   ## DM2: Con
t RISS/Lantus
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2103-9-29**] 01:29 PM 45 mL/hour
   Glycemic Control:  Lantus and ISS
   Lines:
   Midline - [**2103-9-21**] 12:00 PM
   Prophylaxis:
   DVT: Hep subq
   Stress ulcer: PPI
   VAP:  VAP bundle
   Communication:
   Code status: Full code
   Disposition: MICU

2103-10-01 06:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   **Weaning trial (reduced FiO2 and PS) attempted which pt tolerated for
   two hours, however then became agitated and hypertensive and had to be
   returned to original vent settings.
   **Amlodipine d/c
d to allow additional BP room for diuresis.
   Less than 1L negative with lasix gtt
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2103-9-30**] 06:00 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2103-9-30**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2103-9-30**] 02:00 PM
   Fentanyl - [**2103-9-30**] 02:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-10-1**] 06:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.8
   HR: 67 (61 - 113) bpm
   BP: 109/44(60) {97/29(46) - 153/64(86)} mmHg
   RR: 19 (14 - 40) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 112.2 kg (admission): 114.5 kg
   Height: 64 Inch
             Total In:
                                                                  1,786 mL
                                                                    329 mL
   PO:
             TF:
                                                                  1,082 mL
                                                                    269 mL
   IVF:
                                                                    524 mL
                                                                     60 mL
   Blood products:
   Total out:
                                                                  2,085 mL
                                                                    500 mL
   Urine:
                                                                  2,085 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -299 mL
                                                                   -171 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 600 (450 - 600) mL
   PS : 15 cmH2O
   RR (Spontaneous): 21
   PEEP: 10 cmH2O
   FiO2: 55%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   SpO2: 100%
   ABG: ///35/
   Ve: 7.9 L/min
   Physical Examination
   General: Obese, chronically ill appearing woman, trached.
   HEENT: NCAT, PERRL, EOMI, no scleral icterus, poor dentition
   Neck: thick, unable to appreciate JVP. Tracheostomy in place
   Pulmonary: auscultated anteriorly with coarse, rhoncorous bs b/l
   Cardiac: distant
   Abdomen: minimally distended, + BS, G-tube in place. Non-tender
   Extremities: anasarca, cool extremities with pitting edema, though
   overall improved from prior exams
   Skin: pale
   Neurologic: awake, mouthing words, responding to commands, asking
   questions.
   Labs / Radiology
   356 K/uL
   7.5 g/dL
   121 mg/dL
   1.5 mg/dL
   35 mEq/L
   4.0 mEq/L
   44 mg/dL
   101 mEq/L
   141 mEq/L
   22.8 %
   9.5 K/uL
        [image002.jpg]
                             [**2103-9-26**]  06:43 PM
                             [**2103-9-27**]  01:35 AM
                             [**2103-9-27**]  01:40 AM
                             [**2103-9-27**]  09:10 AM
                             [**2103-9-27**]  03:15 PM
                             [**2103-9-28**]  04:14 AM
                             [**2103-9-28**]  09:39 AM
                             [**2103-9-29**]  03:51 AM
                             [**2103-9-30**]  03:24 AM
                             [**2103-10-1**]  04:23 AM
   WBC
   6.7
   8.4
   8.0
   8.2
   9.5
   Hct
   24.0
   25.4
   24.6
   24.2
   22.8
   Plt
   [**Telephone/Fax (3) 4933**]98
   356
   Cr
   1.7
   1.6
   1.5
   1.5
   1.5
   1.5
   1.5
   TCO2
   41
   39
   38
   Glucose
   111
   112
   133
   82
   120
   126
   121
   Other labs: PT / PTT / INR:15.7/34.4/1.4, ALT / AST:20/14, Alk Phos / T
   Bili:192/0.5, Amylase / Lipase:[**12-8**], Differential-Neuts:88.4 %,
   Lymph:6.2 %, Mono:3.2 %, Eos:2.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.6
   g/dL, LDH:192 IU/L, Ca++:7.6 mg/dL, Mg++:2.3 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   79F with MMP, including h/o GBS, s/p trach with subsequent airway
   obstruction and repeated stenting, who p/w hypoxic respiratory
   failure.  Now s/p Y stent removal, trach revision, and trach upgrade.
   Slowly improving.
   ## Hypoxic Respiratory Failure: Multifactorial including
   tracheobroncheomalacia, multifocal PNA, as well as pulm edema and COPD.
   s/p treatment for acinetobacter and stenotrophamonas with bactrim and
   unasyn this admission. Now being treated with zosyn for pseudomonas
   pna.  Volume status much improved.
   -Nebs
   -Resume diuretics PRN to maintain negative fluid balance (w/ hope of
   further diuresis leading to further vent weaning)
   -Continue Zosyn, [**1-13**] day course.
   -have been as of yet unable to wean FiO2, will continue to attempt as
   pt improves.
   -in setting of possibly worsened infiltrate on CXR will repeat sputum
   culture and CXR, consider adding unasyn/bactrim to cover
   stenotrophomonas/acinetobacter seen previously on culture if pt
   clinically decompensates/spikes.
   ## CHF/Total body overload: Recent TTE showed moderate systolic pulm
   artery hypertension. Mild LVH with no focal wall motion abnormalities,
   nl to slightly depressed EF at 45%.
   - Goal remains 1L negative daily.
   ## ARF: FeUrea not c/w pre-renal azotemia.  Timing of ARF c/w possible
   contrast nephropathy s/p CTA.  Renal function now much improved,
   nearing baseline.  Good UOP.
   -Renal consulted and has now signed off.
   -pt
s creatinine improving, mobilizing fluid in what may represent
   post-atn autodiuresis.
   -monitor lytes, replete prn
   ## Agitation/AMS/?Pain: Much improved as sedation weaned down. Will be
   minimizing benzos.
   -continue fentanyl boluses prn pain/agitation
   -olanzapine
   -celexa
   ## HTN: relatively hypotensive except for periods of anxiety, when SBP
   rises as high as 200s. This may be due to GBS and or autonomic
   dysfunction in the setting of DM. Would work to avoid extreme
   hypertension so as to prevent pulmonary flash edema.
   -Clonidine d/c
d to allow for additional BP room with diuresis
   -Continue amlodipine.
   -Predominant contributor to HTN is agitation/pain, treat as above.
   -Expect BPs to improve overall as fluid overload is decreased
   ## COPD: Continue Combivent MDI
   ## AF: Off anticoagulation since GIB last month,
   ## DM2: Con
t RISS/Lantus
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2103-9-29**] 01:29 PM 45 mL/hour
   Glycemic Control:  Lantus and ISS
   Lines:
   Midline - [**2103-9-21**] 12:00 PM
   Prophylaxis:
   DVT: Hep subq
   Stress ulcer: PPI
   VAP:  VAP bundle
   Communication:
   Code status: Full code
   Disposition: MICU

2103-10-02 06:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Restarted Lasix gtt
   - FiO2 weaned from 55% to 45%, PS at 10/5
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2103-10-1**] 12:02 PM
   Piperacillin/Tazobactam (Zosyn) - [**2103-10-2**] 12:00 AM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2103-10-1**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-10-2**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38.1
C (100.5
   HR: 68 (60 - 85) bpm
   BP: 124/48(67) {93/36(50) - 150/78(96)} mmHg
   RR: 24 (15 - 25) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105.3 kg (admission): 114.5 kg
   Height: 64 Inch
             Total In:
                                                                  1,959 mL
                                                                    432 mL
   PO:
             TF:
                                                                  1,082 mL
                                                                    292 mL
   IVF:
                                                                    647 mL
                                                                    141 mL
   Blood products:
   Total out:
                                                                  2,355 mL
                                                                    875 mL
   Urine:
                                                                  2,355 mL
                                                                    875 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -396 mL
                                                                   -443 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 550 (473 - 644) mL
   PS : 15 cmH2O
   RR (Spontaneous): 23
   PEEP: 10 cmH2O
   FiO2: 45%
   RSBI Deferred: PEEP > 10, Vent Dependant
   PIP: 26 cmH2O
   SpO2: 92%
   ABG: ///34/
   Ve: 12 L/min
   Physical Examination
   General: Obese, chronically ill appearing woman, trached.
   HEENT: NCAT, PERRL, EOMI, no scleral icterus, poor dentition
   Neck: thick, unable to appreciate JVP. Tracheostomy in place
   Pulmonary: auscultated anteriorly with coarse, rhoncorous bs b/l
   Cardiac: distant
   Abdomen: minimally distended, + BS, G-tube in place. Non-tender
   Extremities: anasarca, cool extremities with pitting edema, though
   overall improved from prior exams
   Skin: pale
   Neurologic: awake, mouthing words, responding to commands, asking
   questions.  Able to make fist and splay fingers, lift arms off bed.
   Labs / Radiology
   365 K/uL
   7.7 g/dL
   155 mg/dL
   1.5 mg/dL
   34 mEq/L
   4.3 mEq/L
   41 mg/dL
   101 mEq/L
   141 mEq/L
   23.5 %
   10.9 K/uL
        [image002.jpg]
                             [**2103-9-27**]  01:35 AM
                             [**2103-9-27**]  01:40 AM
                             [**2103-9-27**]  09:10 AM
                             [**2103-9-27**]  03:15 PM
                             [**2103-9-28**]  04:14 AM
                             [**2103-9-28**]  09:39 AM
                             [**2103-9-29**]  03:51 AM
                             [**2103-9-30**]  03:24 AM
                             [**2103-10-1**]  04:23 AM
                             [**2103-10-2**]  03:36 AM
   WBC
   6.7
   8.4
   8.0
   8.2
   9.5
   10.9
   Hct
   24.0
   25.4
   24.6
   24.2
   22.8
   23.5
   Plt
   [**Telephone/Fax (3) 4933**]98
   356
   365
   Cr
   1.6
   1.5
   1.5
   1.5
   1.5
   1.5
   1.5
   TCO2
   41
   39
   38
   Glucose
   112
   133
   82
   120
   126
   121
   155
   Other labs: PT / PTT / INR:15.7/34.4/1.4, ALT / AST:20/14, Alk Phos / T
   Bili:192/0.5, Amylase / Lipase:[**12-8**], Differential-Neuts:88.4 %,
   Lymph:6.2 %, Mono:3.2 %, Eos:2.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.6
   g/dL, LDH:192 IU/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   79F with MMP, including h/o GBS, s/p trach with subsequent airway
   obstruction and repeated stenting, who p/w hypoxic respiratory
   failure.  Now s/p Y stent removal, trach revision, and trach upgrade.
   Slowly improving.
   ## Hypoxic Respiratory Failure: Multifactorial including
   tracheobroncheomalacia, multifocal PNA, as well as pulm edema and COPD.
   S/p treatment for acinetobacter and stenotrophamonas with Bactrim and
   Unasyn this admission. Now being treated with zosyn for pseudomonas
   pna.  Volume status much improved.
   -Nebs
   -Aggressive diuresis.
   -Final day of 14 day Zosyn course is today. Will stop all abx and
   monitor progress.
   -Continue to wean vent as tolerated
   -f/u sputum cultures
   -will check CXR today
   ## CHF/Total body overload: Recent TTE showed moderate systolic pulm
   artery hypertension. Mild LVH with no focal wall motion abnormalities,
   nl to slightly depressed EF at 45%.
   - Goal remains 1L negative daily
   - continue Lasix gtt today with uptitration. Will tolerate relative
   hypotension in 90s on gtt.  If doesn
t respond adequately will add
   diuril
   ## ARF: Considered to be post-contrast ATN, no resolved.
   ## Agitation/AMS/?Pain: Much improved as sedation weaned down. Will be
   minimizing benzos.
   -continue fentanyl boluses prn pain/agitation
   -olanzapine
   -celexa
   ## HTN: relatively hypotensive, holding home anti-hypertensives to
   allow for more diuresis.
   ## COPD: Continue Combivent MDIs
   ## AF: Off anticoagulation since GIB last month, currently in sinus
   rhythm
   ## DM2: Con
t RISS/Lantus
   ## Anemia. Hct has been in mid 20s throughout admission. No evidence
   bleeding or hemolysis.  Slightly down from 24 to 22 today.  Was iron
   deficient in 7/[**2103**].
   -Add on oral iron repletion.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2103-10-1**] 09:43 AM 45 mL/hour
   Glycemic Control:  insulin standing and SS
   Lines:
   Midline - [**2103-9-21**] 12:00 PM
   Prophylaxis:
   DVT: heparin subq and pneumoboots
   Stress ulcer: TFs
   VAP:  vent bundle
   Code status: Full code
   Disposition: MICU

2103-10-02 10:11:00 Physician Attending Progress Note
Chief Complaint:
   HPI: I saw and examined the patient, and was physically present with
   the ICU Resident for key portions of the services provided.  I agree
   with her note above, including assessment and plan.
   79yo woman chronic respiratory failure secondary to GBS and severe TBM
   s/p trach, h/o infection with Acinetobacter, Stenotrophomonas admitted
   with recurrent hypoxic respiratory failure. Highlights of her course
   have been ATN and pseudomonal PNA. ARF from suspected ATN from contrast
   has been resolving. On [**9-28**] Fi02 from 50
 40% with sats high 80
s so
   FiO2 increased to 45%. [**9-29**], more interactive and answering questions
   appropriately.
   24 Hour Events: Continue to wean from vent currently on [**11-4**] 45%.  On
   lasix drip.
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2103-10-1**] 12:02 PM
   Piperacillin/Tazobactam (Zosyn) - [**2103-10-2**] 06:00 AM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2103-10-2**] 06:00 AM
   Lansoprazole (Prevacid) - [**2103-10-2**] 08:00 AM
   Fentanyl - [**2103-10-2**] 09:35 AM
   Other medications:
   Chlorhex
   Mirilax
   Senna [**Hospital1 **]
   Lantus 10 qhs
   RISS
   Zosyn 2.25Q6
   Olanzapine tid
   Combivent
   Colace
   Celexa
   Iron
   Lasix drip @4mg/hr
   PRN fentanyl
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-10-2**] 10:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.4
C (99.4
   HR: 90 (60 - 95) bpm
   BP: 161/54(78) {93/36(50) - 171/78(96)} mmHg
   RR: 30 (15 - 30) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105.3 kg (admission): 114.5 kg
   Height: 64 Inch
             Total In:
                                                                  1,962 mL
                                                                    718 mL
   PO:
             TF:
                                                                  1,085 mL
                                                                    459 mL
   IVF:
                                                                    647 mL
                                                                    229 mL
   Blood products:
   Total out:
                                                                  2,355 mL
                                                                  1,720 mL
   Urine:
                                                                  2,355 mL
                                                                  1,720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -393 mL
                                                                 -1,002 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 521 (473 - 644) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 45%
   RSBI Deferred: PEEP > 10, Vent Dependant
   PIP: 16 cmH2O
   SpO2: 89%
   ABG: ///34/
   Ve: 13.5 L/min
   Physical ExaminationGeneral: Arousable to voice, following some
   commands, interacting appropriately.
   HEENT: Trach site clean.  CV: Soft HS
s, S1S2, no m/r/g
s. Lungs: CTA
   bilaterally anteriorly.
   Ab: Obese, positive BS
s, NT/ND. Ext: [**3-4**]+ peripheral edema
   significantly reduced. No c/c.
   Neuro: Arousable, following commands as above and moving all
   extremities symmetrically.
   Labs / Radiology
   7.7 g/dL
   365 K/uL
   155 mg/dL
   1.5 mg/dL
   34 mEq/L
   4.3 mEq/L
   41 mg/dL
   101 mEq/L
   141 mEq/L
   23.5 %
   10.9 K/uL
        [image002.jpg]
                             [**2103-9-27**]  01:35 AM
                             [**2103-9-27**]  01:40 AM
                             [**2103-9-27**]  09:10 AM
                             [**2103-9-27**]  03:15 PM
                             [**2103-9-28**]  04:14 AM
                             [**2103-9-28**]  09:39 AM
                             [**2103-9-29**]  03:51 AM
                             [**2103-9-30**]  03:24 AM
                             [**2103-10-1**]  04:23 AM
                             [**2103-10-2**]  03:36 AM
   WBC
   6.7
   8.4
   8.0
   8.2
   9.5
   10.9
   Hct
   24.0
   25.4
   24.6
   24.2
   22.8
   23.5
   Plt
   [**Telephone/Fax (3) 4933**]98
   356
   365
   Cr
   1.6
   1.5
   1.5
   1.5
   1.5
   1.5
   1.5
   TCO2
   41
   39
   38
   Glucose
   112
   133
   82
   120
   126
   121
   155
   Other labs: PT / PTT / INR:15.7/34.4/1.4, ALT / AST:20/14, Alk Phos / T
   Bili:192/0.5, Amylase / Lipase:[**12-8**], Differential-Neuts:88.4 %,
   Lymph:6.2 %, Mono:3.2 %, Eos:2.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.6
   g/dL, LDH:192 IU/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   79yo woman with respiratory failure, Pseudomonas pneumonia and ARF [**3-3**]
   ATN.
   1)      Acute on chronic respiratory failure
 Multiple organisms on
   sputum cultures but elected to treat only the Pseudomonas. We will
   complete course of therapy with Zosyn 14 days for this. Continue
   combivent Q4H. Continue to wean vent as tolerated. Wean FiO2 as
   tolerated. D
c Zosyn. Not treating Acinetobacter or Stenotropamonas.
   Remains afebrile without leukocytosis. She is chronically colonized
   with multiple gram-negative pathogens, no plans treat unless she
   develops an infiltrate on chest imaging, or frankly positive
   cultures.   Will Check chest x-ray today.
   2)      Agitation
 Answering questions appropriately over the past
   several days; continue to minimize sedation / analgesia and avoid
   drips. Would prefer to avoid benzos and use anti-psychotics for anxiety
   / agitation.
   3)       Anasarca
 She continues to go on and off lasix gtt given
   borderline BPs. Have d/c
ed clonidine and amlodipine in an effort to
   allow more BP for diuresis. Goal remains net negative 1 liter on a
   daily basis. If she cannot stay on the lasix gtt, need to consider
   intermittent boluses and/or other diuretics. If her BP cannot tolerate
   this, then considering pressors to allow for adequate diuresis may be
   needed.
   4)     ARF / CRI
 Creatinine stable.
   5)       Partial SBO
 Resolved; continues to tolerate TF.  Bowel
   regimen.
   6)     COPD
 Continue nebs. Will attempt to decrease FiO2 as above.
   Plan for another SBT today; she may not be able to
           complete wean from the vent during this hospitalization. [**Month (only) 60**]
   need to consider d/c
ing her to a long-term vent facility.
   7)     F/E/N: TFs at goal. Follow/replete
lytes as needed.
          8)      Heme: Hct trending down, 22.8% today. Will add FeSO4;
   goal transfusion is >21%. No e/o acute blood loss.
   9)     Code: full; access: mid-line; prophylaxis: heparin subQ / PPI;
   dispo: Will have screened for rehab.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2103-10-2**] 07:51 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2103-9-21**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2103-10-03 00:47:00 Physician Resident Progress Note
Chief Complaint: 79F with respiratory failure with trach x 2 years
   complicated by multiple stents for TMB and multiple VAPs. Initially
   presented with VAP, treated for stenotrophomonas and acinetobacter and
   discharged. Returned with respiratory failure believed to be a
   combination of trach stent narrowing and pneumonia.  Initially treated
   again for stenotrophomonas and acinetomacter.  Now just completed
   course of zosyn for pseudomonas PNA on [**10-2**].  Hospital course
   complicated by post-contrast nephropathy now resolved. Also anasarca
   for which she was on lasix gtt.
   24 Hour Events:
   Increased lasix gtt to try to accelerate diuresis, was -1.8L yesterday.
   Pt reported decreased hearing. Lasix gtt stopped due to concern for
   ototoxicity.
   Tried to decrease Fi02 to 40%, pt desatted, was increased back to 45%.
   Screening process initiated, pt has bed available at Radius LTAC.
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2103-10-1**] 12:02 PM
   Piperacillin/Tazobactam (Zosyn) - [**2103-10-2**] 06:00 AM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2103-10-2**] 08:00 AM
   Fentanyl - [**2103-10-3**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2103-10-3**] 12:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-10-3**] 12:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.6
C (99.7
   HR: 99 (68 - 104) bpm
   BP: 160/59(83) {117/46(65) - 171/114(120)} mmHg
   RR: 23 (18 - 31) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105.3 kg (admission): 114.5 kg
   Height: 64 Inch
             Total In:
                                                                  1,620 mL
                                                                     31 mL
   PO:
             TF:
                                                                  1,081 mL
                                                                     22 mL
   IVF:
                                                                    448 mL
                                                                      9 mL
   Blood products:
   Total out:
                                                                  3,485 mL
                                                                      0 mL
   Urine:
                                                                  3,485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,865 mL
                                                                     31 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 499 (411 - 582) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 10 cmH2O
   FiO2: 45%
   RSBI Deferred: PEEP > 10, Vent Dependant
   PIP: 21 cmH2O
   SpO2: 94%
   ABG: ///34/
   Ve: 11.7 L/min
   Physical Examination
   General: Obese, chronically ill appearing woman, trached.
   HEENT: NCAT, PERRL, EOMI, no scleral icterus, poor dentition
   Neck: thick, unable to appreciate JVP. Tracheostomy in place
   Pulmonary: auscultated anteriorly with coarse, rhoncorous bs b/l
   Cardiac: distant
   Abdomen: minimally distended, + BS, G-tube in place. Non-tender
   Extremities: anasarca, cool extremities with pitting edema, though
   overall improved from prior exams
   Skin: pale
   Neurologic: awake, mouthing words, responding to commands, asking
   questions.  Able to make fist and splay fingers, lift arms off bed.
   Labs / Radiology
   365 K/uL
   7.7 g/dL
   155 mg/dL
   1.5 mg/dL
   34 mEq/L
   4.3 mEq/L
   41 mg/dL
   101 mEq/L
   141 mEq/L
   23.5 %
   10.9 K/uL
        [image002.jpg]
                             [**2103-9-27**]  01:35 AM
                             [**2103-9-27**]  01:40 AM
                             [**2103-9-27**]  09:10 AM
                             [**2103-9-27**]  03:15 PM
                             [**2103-9-28**]  04:14 AM
                             [**2103-9-28**]  09:39 AM
                             [**2103-9-29**]  03:51 AM
                             [**2103-9-30**]  03:24 AM
                             [**2103-10-1**]  04:23 AM
                             [**2103-10-2**]  03:36 AM
   WBC
   6.7
   8.4
   8.0
   8.2
   9.5
   10.9
   Hct
   24.0
   25.4
   24.6
   24.2
   22.8
   23.5
   Plt
   [**Telephone/Fax (3) 4933**]98
   356
   365
   Cr
   1.6
   1.5
   1.5
   1.5
   1.5
   1.5
   1.5
   TCO2
   41
   39
   38
   Glucose
   112
   133
   82
   120
   126
   121
   155
   Other labs: PT / PTT / INR:15.7/34.4/1.4, ALT / AST:20/14, Alk Phos / T
   Bili:192/0.5, Amylase / Lipase:[**12-8**], Differential-Neuts:88.4 %,
   Lymph:6.2 %, Mono:3.2 %, Eos:2.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.6
   g/dL, LDH:192 IU/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   Sputum: [**9-29**]: Pseudomonas moderate growth, providencia struvartii
   sparse growth, GNR #3
   [**9-30**]: Pseudomonas and 2 other GNRs
   CXR:
   Assessment and Plan
   79F with MMP, including h/o GBS, s/p trach with subsequent airway
   obstruction and repeated stenting, who p/w hypoxic respiratory
   failure.  Now s/p Y stent removal, trach revision, and trach upgrade.
   Slowly improving.
   ## Hypoxic Respiratory Failure: Multifactorial including
   tracheobroncheomalacia, multifocal PNA, as well as pulm edema and COPD.
   S/p treatment for acinetobacter and stenotrophamonas with Bactrim and
   Unasyn this admission. Completed 14 day course of zosyn for pseudomonas
   PNA on [**10-2**].   Continues to make purulent secretions. Unclear what bugs
   in sputum are pathogens vs colonization in this chronically vented
   patient.
   -Continue to monitor clinically and radiographically, if decompensates,
   re-start abx for VAP, tailoring to sputum speciation/senses.
   -Nebs
   -Diurese as able.
   -Continue to wean vent as tolerated
   -f/u sputum cultures
   -will check CXR daily
   ## CHF/Total body overload: Recent TTE showed moderate systolic pulm
   artery hypertension. Mild LVH with no focal wall motion abnormalities,
   nl to slightly depressed EF at 45%.
   - Goal remains 1L negative daily, was ~1.8L negative yesterday after
   increasing lasix gtt, however now patient c/o hearing loss that is
   concerning for loop diuretic induced ototoxicity.
   - Hold diuresis today, monitor I/Os and auditory acuity.  If further
   diuresis needed, consider diuril.
   ## ARF: Considered to be post-contrast ATN, no resolved.
   ## Agitation/AMS/?Pain: Much improved as sedation weaned down. Will be
   minimizing benzos.
   -continue fentanyl boluses prn pain/agitation
   -olanzapine
   -celexa
   ## HTN: relatively hypotensive, holding home anti-hypertensives to
   allow for more diuresis.
   ## COPD: Continue Combivent MDIs
   ## AF: Off anticoagulation since GIB last month, currently in sinus
   rhythm
   ## DM2: Con
t RISS/Lantus
   ## Anemia. Hct has been in mid 20s throughout admission. No evidence
   bleeding or hemolysis.  Slightly down from 24 to 22 today.  Was iron
   deficient in 7/[**2103**].
   -Added on oral iron repletion.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2103-10-2**] 07:51 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2103-9-21**] 12:00 PM
   Prophylaxis:
   DVT: Heparin DC
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: Daughter
   [**Name (NI) 66**] status: Full code
   Disposition:Consider dispo to radius today or tomorrow, will need to
   discuss with daughter first.

2103-10-03 09:48:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   79 y/o F w/chronic resp failure and multiple episodes of VAP, admitted
   to the MICU with acute on chronic respiratory failure.
   24 Hour Events:
   - diuresing on lasix gtt yesterday, then held overnight when she noted
   diminished hearing.  Now improved this AM.
   -desaturated on fiO2 0.4 so increased back to FiO2 0.45
   History obtained from Patient
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2103-10-1**] 12:02 PM
   Piperacillin/Tazobactam (Zosyn) - [**2103-10-2**] 06:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2103-10-3**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2103-10-3**] 12:08 AM
   Other medications:
   prevacid, miralax, peridex, lantus 10 u qhs, insulin sliding scale,
   zyprexa, albuterol/atrovent, celexa, free water 30 cc q6, iron, nitro
   paste, colace/senna/lactulose prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: hearing improved
   Flowsheet Data as of  [**2103-10-3**] 09:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.9
C (98.4
   HR: 85 (71 - 105) bpm
   BP: 146/51(73) {117/46(65) - 179/114(120)} mmHg
   RR: 24 (20 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105.3 kg (admission): 114.5 kg
   Height: 64 Inch
             Total In:
                                                                  1,596 mL
                                                                    638 mL
   PO:
             TF:
                                                                  1,081 mL
                                                                    424 mL
   IVF:
                                                                    424 mL
                                                                     94 mL
   Blood products:
   Total out:
                                                                  4,085 mL
                                                                  1,415 mL
   Urine:
                                                                  4,085 mL
                                                                  1,415 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,489 mL
                                                                   -777 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 400 (400 - 518) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 22
   PEEP: 10 cmH2O
   FiO2: 45%
   RSBI Deferred: PEEP > 10, Vent Dependant
   PIP: 21 cmH2O
   SpO2: 98%
   ABG: ///33/
   Ve: 9.4 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: trach in site
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Non-tender, Bowel sounds present, Obese
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   407 K/uL
   96 mg/dL
   1.5 mg/dL
   33 mEq/L
   4.0 mEq/L
   38 mg/dL
   101 mEq/L
   142 mEq/L
   25.1 %
   13.5 K/uL
        [image002.jpg]
                             [**2103-9-27**]  01:40 AM
                             [**2103-9-27**]  09:10 AM
                             [**2103-9-27**]  03:15 PM
                             [**2103-9-28**]  04:14 AM
                             [**2103-9-28**]  09:39 AM
                             [**2103-9-29**]  03:51 AM
                             [**2103-9-30**]  03:24 AM
                             [**2103-10-1**]  04:23 AM
                             [**2103-10-2**]  03:36 AM
                             [**2103-10-3**]  03:46 AM
   WBC
   8.4
   8.0
   8.2
   9.5
   10.9
   13.5
   Hct
   25.4
   24.6
   24.2
   22.8
   23.5
   25.1
   Plt
   436
   349
   398
   356
   365
   407
   Cr
   1.5
   1.5
   1.5
   1.5
   1.5
   1.5
   1.5
   TCO2
   41
   39
   38
   Glucose
   133
   82
   120
   126
   121
   155
   96
   Other labs: PT / PTT / INR:15.7/34.4/1.4, ALT / AST:20/14, Alk Phos / T
   Bili:192/0.5, Amylase / Lipase:[**12-8**], Differential-Neuts:88.4 %,
   Lymph:6.2 %, Mono:3.2 %, Eos:2.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.6
   g/dL, LDH:192 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR: RUL infiltrate stable
   Microbiology: no new cx data
   Assessment and Plan
   79yo woman with respiratory failure, Pseudomonas pneumonia and ARF [**3-3**]
   ATN.
   1)      Acute on chronic respiratory failure
 Multiple organisms on
   sputum cultures but elected to treat only the Pseudomonas. Completed
   Zosyn 14 days [**2103-10-2**]. Continue combivent Q4H. Continue to wean vent as
   tolerated. Wean FiO2 as tolerated. She is chronically colonized with
   multiple gram-negative pathogens.
   - requiring suctioning q2-3h, WBC rising, but her CXR today did not
   show a new or worsened infiltrate ->concern for development of
   recurrent VAP.  Will start inhaled colistin which might be a better
   long term solution for her.
   2)      Agitation
 Answering questions appropriately over the past
   several days; continue to minimize sedation / analgesia and avoid
   drips. Would prefer to avoid benzos and use anti-psychotics for anxiety
   / agitation.
   3)      Anasarca
 Will hold lasix for now as CXR does not demonstrate
   pulmonary edema.  Appears to be autodiuresing as net negative since
   midnight without lasix.
   4)      HTN:  Restart home antihypertensives slowly.  Would start back
   amlodipine today.
   5)     ARF / CRI
 Creatinine stable.
   6)       Partial SBO
 Resolved; continues to tolerate TF.  Bowel
   regimen.
   7)     COPD
 Continue nebs.
   8)     F/E/N: TFs at goal. Follow/replete lytes as needed.
   9)      Heme: Hct stable at 25.  On iron. Goal transfusion is >21%. No
   e/o acute blood loss.
   20)     Code: full; access: mid-line; prophylaxis: heparin subQ / PPI.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2103-10-3**] 05:52 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Midline - [**2103-9-21**] 12:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30

2103-10-03 11:20:00 Physician Resident Progress Note
Chief Complaint: 79F with respiratory failure with trach x 2 years
   complicated by multiple stents for TMB and multiple VAPs. Initially
   presented with VAP, treated for stenotrophomonas and acinetobacter and
   discharged. Returned with respiratory failure believed to be a
   combination of trach stent narrowing and pneumonia.  Initially treated
   again for stenotrophomonas and acinetomacter.  Now just completed
   course of zosyn for pseudomonas PNA on [**10-2**].  Hospital course
   complicated by post-contrast nephropathy now resolved. Also anasarca
   for which she was on lasix gtt.
   At present, no complaints of cough, shortness of breath, chest pain.
   24 Hour Events:
   Increased lasix gtt to try to accelerate diuresis, was -1.8L yesterday.
   Pt reported decreased hearing. Lasix gtt stopped due to concern for
   ototoxicity.  Hearing has now returned to baseline.
   Tried to decrease Fi02 to 40%, pt desatted, was increased back to 45%.
   Screening process initiated, pt has bed available at Radius LTAC.
   Allergies:
   Aspirin
 Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2103-10-2**] 06:00 AM
   Colistin 100 mg INH [**Hospital1 **] (day 1 = [**2103-10-3**]) for Vent Associated Pneumonia
   Infusions:
   None
   (Lasix drip stopped [**2103-10-2**])
   Other ICU medications:
   Fentanyl - [**2103-10-3**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2103-10-3**] 12:08 AM
   Other medications:
   Amlodipine 10 mg PO daily
   Docusate 100 mg PO BID PRN
   Senna 1 tab PO BID PRN
   Ferrous Gluconate 325
   Fentanyl Citrate 25
 50 mcg IV q2hr PRN
   Citalopram 40 mg PO daily
   Olanzapine 10 mg PO TID
   Albuterol/Ipratropium [**1-31**] puff q4hours
   Regular Insulin Sliding Scale
   Glargine 10 units qhs
   Lactulose 30 mL PO q6 hours PRN
   Nitropaste PRN SBP >140
   Polyethylene Glycol 17 mg daily
   Calcium Gluconate IV sliding scale
   Lansoprazole 30 mg Daily
   Chlorhexidine Gluconate 15 ml [**Hospital1 **]
   Heparin SC TID
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-10-3**] 11:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.9
C (98.4
   HR: 81 (71 - 105) bpm
   BP: 148/63(83) {117/46(65) - 179/114(120)} mmHg
   RR: 23 (20 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105.3 kg (admission): 114.5 kg
   Height: 64 Inch
             Total In:
                                                                  1,596 mL
                                                                    725 mL
   PO:
             TF:
                                                                  1,081 mL
                                                                    508 mL
   IVF:
                                                                    424 mL
                                                                     98 mL
   Blood products:
   Total out:
                                                                  4,085 mL
                                                                  1,415 mL
   Urine:
                                                                  4,085 mL
                                                                  1,415 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,489 mL
                                                                   -690 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 400 (400 - 518) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 22
   PEEP: 10 cmH2O
   FiO2: 45%
   RSBI Deferred: PEEP > 10, Vent Dependant
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///33/
   Ve: 9.4 L/min
   Physical Examination
   Gen: chronically ill appearing, obese, elderly female, NAD
   HEENT: PERRL, EOMI
   Neck: Trach present, unable to assess JVP secondary to large neck
   CV: RRR, no murmurs/rubs/gallops
   Pulm: clear to ausculatation anteriorly
   Abd: obese, soft, nontender, nondistended, bowel sounds present
   Ext: warm, well perfused, anasarca, 2+ pitting edema b/l
   Neuro: awake and alert, conversant
   Labs / Radiology
   407 K/uL
   8.1 g/dL
   96 mg/dL
   1.5 mg/dL
   33 mEq/L
   4.0 mEq/L
   38 mg/dL
   101 mEq/L
   142 mEq/L
   25.1 %
   13.5 K/uL
        [image002.jpg]
                             [**2103-9-27**]  01:40 AM
                             [**2103-9-27**]  09:10 AM
                             [**2103-9-27**]  03:15 PM
                             [**2103-9-28**]  04:14 AM
                             [**2103-9-28**]  09:39 AM
                             [**2103-9-29**]  03:51 AM
                             [**2103-9-30**]  03:24 AM
                             [**2103-10-1**]  04:23 AM
                             [**2103-10-2**]  03:36 AM
                             [**2103-10-3**]  03:46 AM
   WBC
   8.4
   8.0
   8.2
   9.5
   10.9
   13.5
   Hct
   25.4
   24.6
   24.2
   22.8
   23.5
   25.1
   Plt
   436
   349
   398
   356
   365
   407
   Cr
   1.5
   1.5
   1.5
   1.5
   1.5
   1.5
   1.5
   TCO2
   41
   39
   38
   Glucose
   133
   82
   120
   126
   121
   155
   96
   Other labs: PT / PTT / INR:15.7/34.4/1.4, ALT / AST:20/14, Alk Phos / T
   Bili:192/0.5, Amylase / Lipase:[**12-8**], Differential-Neuts:88.4 %,
   Lymph:6.2 %, Mono:3.2 %, Eos:2.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.6
   g/dL, LDH:192 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:3.1 mg/dL
   Micro:
   [**9-30**]. sputum with Moderate Pseudomonas and Moderate GNRs.
   [**9-29**].  Sputum.  Pseudomonas sensistive to amikacin and Zosyn.
   Assessment and Plan
   Ms. [**Known lastname **] is a 79 year old female with HTN, CHF, CAD, COPD, PAF not on
   anticoagulation due to recent GI bleed, Hyperlipidemia, DM, who has
   trach and PEG here with hypoxic respiratory failure secondary to
   vent-associated pneumonia.
   1.       Vent-Associated Pneumonia.  Patient completed 14 days of Zosyn
   for VAP yesterday, but now has rising temperatures, WBC and thick
   secretions, concerning for ongoing vent-associated pneumonia.  CXR
   appears unchanged.  Previous sputum sample on [**9-30**] showed pseudomonas
   and GNRs.  On [**9-30**], sputum grew pseudomonas sensitive only to amikacin
   and Zosyn.  Will empirically treat for VAP while awaiting sputum
   culture results with Colistin.
   -            initiate colisitin (Day 1 = [**2103-10-2**])
   -            f/u sputum culture
   -            follow fever curve and WBC
   2.       Respiratory failure.  Respiratory failure is multifactorial
   due to recurrent vent-associated pneumonia, tracheobroncheomalacia s/p
   Y-stent placement, and COPD.  Patient completed 14 days of Zosyn on
   [**10-2**], but will initiate colistin today given concern of ongoing
   pneumonia.  CXR does not show evidence of CHF so will discontinue lasix
   drip.
   -            daily CXR
   -            f/u sputum cultures
   -            continue standing albuterol/atrovent nebs
   -            stop aggressive diuresis given lack of evidence of
   pulmonary edema
   -            titrate FiO2 if possible
   3.       Congestive heart failure.  Patient had a recent TTE on [**2103-9-12**]
   which showed EF at 45%.   Patient is recovering for
   contrast-nephropathy and was requiring lasix drip for diuresis.  Lasix
   drip was held yesterday due to concern of ototoxicity.  Given the lack
   of evidence of pulmonary edema on chest x-ray, will discontinue to
   lasix drip.   Patient is currently negative approximately 10 kg since
   admission and is negative 8.5L for LOS.   Patient may no longer require
   diuretics since there has been improvement of her renal function.
   -            goals diuresis of 0.5 L daily, lasix PRN
   -            follow daily weights and Is/Os
   4.        ARF.  Patient had baseline Cr of 0.9.  Cr rose to 2.5 in
   setting of contrast nephropathy, but renal function has improved and Cr
   now stable for several days at 1.5.
   -          renally dose all meds
   -          follow Cr
   5.        HTN.  Patient
s bloopd pressure has ranged from 110s to 170s
   systolic over the past 24 hours.  Antihypertensives were being held to
   give room for lasix diuresis.  Now that patient is off lasix drip, will
   slowly add back antihypertensives.  At home, patient takes hydralazine
   10 mg q8hr, Nitropaste q6hours, lopressor 37.5 q8hrs, HCTZ 12.5 mg
   daily, and Norvasc 10 mg daily.
   -          start amlodipine
   -          follow BP
   6.        COPD. Continue albuterol/atrovent nebs.
   7.       Paroxysmal A. fib.  Now is NSR.  Not anticoagulated due to GIB
   last month.
   8.       Type 2 DM.  Continue RISS and glargine qhs.
   9.       Anemia. Hct has been in mid 20s throughout admission. No
   evidence bleeding or hemolysis, though patient has history of GIB due
   to diverticulosis and hemorrhoids during last admission.
   -          continue ferrous gluconate
   -          monitor hct
   10.    Agitation.  Patient was previously agitated earlier in MICU
   stay, but now appropriate and answering questions.  Mental status is
   improved.  Will minimize mind altering meds.
                  -  continue fentanyl boluses prn pain/agitation
                  -  olanzapine
                  -  celexa
   ICU Care
   Nutrition: ProBalance (Full) - [**2103-10-3**] 05:52 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2103-9-21**] 12:00 PM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer: Lansoprazole
   VAP:  Colistin, HOB elevation
   Comments:
   Communication:  Comments: daughter
   [**Name (NI) 66**] status: Full code
   Disposition: consider transfer to radius tomorrow if she remains stable

2103-10-04 06:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Patient with increasing tachycardia overnight with HR 100-110s. EKG
   showed sintus tach wth HR 105. Given 25mg PO metoprolol with decrease
   of HR to 80s. Patient started on metoprolol 25mg PO TID (home dose of
   metoprolol 37.5mg PO TID)
   - Diuresed 1.1L without diuretics
   - vent settings are unchanged
   - continues to have thick secretions requiring frequent suctioning
   - Her o2 sat fell to 92% after receiving colistin and had wheezing but
   improved with nebs
   Allergies:
   Aspirin
 Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2103-10-1**] 12:02 PM
   Piperacillin/Tazobactam (Zosyn) - [**2103-10-2**] 06:00 AM
   [**Year (4 digits) 5051**] 100 mg INH [**Hospital1 **] day 2
   Infusions: None
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2103-10-3**] 08:05 AM
   Fentanyl - [**2103-10-3**] 03:45 PM
   Heparin Sodium (Prophylaxis) - [**2103-10-4**] 05:48 AM
   Other medications:
   Metoprolol 25 mg PO TID
   Amlodipine 10 mg daily
   Colace 100 mg PO BID PRN
   Senna [**Hospital1 **] PRN
   Ferrous Gluconate 325 daily
   Fentanyl Citrate 25-50mg IV q2hr prn
   Citalopram 40 mg daily
   Zydis 10 mg TID
   Albuterol/Atrovent 2 puff q4hours standing
   Regular Insulin Sliding Scale & Glargine
   Lactulose 30 ml q6h prn
   Nitropaste PRN
   Polyethylene glycol 17g daily
   Calcium Gluconate sliding scale
   Lansoprazole 30 mg daily
   Chlorhexidine mouthwash
   Heparin SC TID
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-10-4**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.1
C (98.8
   HR: 72 (72 - 110) bpm
   BP: 151/55(79) {119/48(65) - 165/99(103)} mmHg
   RR: 24 (21 - 31) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105.3 kg
   (admission): 114.5 kg
   Height: 64 Inch
             Total In:
                                                                  1,590 mL
                                                                    311 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    184 mL
   IVF:
                                                                    240 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                  2,770 mL
                                                                    300 mL
   Urine:
                                                                  2,770 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,180 mL
                                                                     11 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 360 (360 - 630) mL
   PS : 10 cmH2O
   RR (Spontaneous): 25
   PEEP: 10 cmH2O
   FiO2: 45%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 94%
   ABG: ///31/
   Ve: 9.3 L/min
   Physical Examination
   Gen: chronically ill appearing, obese, elderly female, NAD
   HEENT: PERRL, EOMI
   Neck: Trach present, unable to assess JVP secondary to large neck
   CV: RRR, no murmurs/rubs/gallops
   Pulm: wheezes at left bases, coarse rhonci diffusely on right side
   Abd: obese, soft, nontender, nondistended, bowel sounds present
   Ext: warm, well perfused, 1+ pitting edema b/l (improving)
   Neuro: awake and alert, conversant
   Labs / Radiology
   349 K/uL
   7.7 g/dL
   124 mg/dL
   1.2 mg/dL
   31 mEq/L
   4.3 mEq/L
   30 mg/dL
   104 mEq/L
   142 mEq/L
   24.6 %
   11.9 K/uL
        [image002.jpg]
                             [**2103-9-27**]  09:10 AM
                             [**2103-9-27**]  03:15 PM
                             [**2103-9-28**]  04:14 AM
                             [**2103-9-28**]  09:39 AM
                             [**2103-9-29**]  03:51 AM
                             [**2103-9-30**]  03:24 AM
                             [**2103-10-1**]  04:23 AM
                             [**2103-10-2**]  03:36 AM
                             [**2103-10-3**]  03:46 AM
                             [**2103-10-4**]  04:50 AM
   WBC
   8.4
   8.0
   8.2
   9.5
   10.9
   13.5
   11.9
   Hct
   25.4
   24.6
   24.2
   22.8
   23.5
   25.1
   24.6
   Plt
   436
   349
   398
   356
   365
   407
   349
   Cr
   1.5
   1.5
   1.5
   1.5
   1.5
   1.5
   1.5
   1.2
   TCO2
   39
   38
   Glucose
   133
   82
   120
   126
   121
   155
   96
   124
   Other labs: PT / PTT / INR:15.7/34.4/1.4, ALT / AST:20/14, Alk Phos / T
   Bili:192/0.5, Amylase / Lipase:[**12-8**], Differential-Neuts:88.4 %,
   Lymph:6.2 %, Mono:3.2 %, Eos:2.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.6
   g/dL, LDH:192 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   [**2103-10-2**].  Sputum.
   >25 polys, <10 epis, 3+ GNRs
   Assessment and Plan
   Ms. [**Known lastname **] is a 79 year old female with HTN, CHF, CAD, COPD, PAF not on
   anticoagulation due to recent GI bleed, Hyperlipidemia, DM, who has
   trach and PEG here with hypoxic respiratory failure secondary to
   vent-associated pneumonia.
   1.       Vent-Associated Pneumonia.  Patient completed 14 days of Zosyn
   for VAP on [**10-2**], but had rising temperatures, WBC and thick secretions
   yesterday ([**10-3**]), so was started on Colistin for concern for ongoing
   vent-associated pneumonia.  Fever curve is stable and WBC trending down
   slightly.  However, patient is having respiratory distress and
   bronchospasm secondary to colistin in spite of nebs pre- and post-
   treatment.
   -            d/c colistin due to respiratory distress and hypoxia
   following use of colistin
   -            f/u sputum culture (GNRs)
   -            consider zosyn if patient is febrile or has worsening
   respiratory secretions
   -            follow fever curve and WBC
   2.       Respiratory failure.  Respiratory failure is multifactorial
   due to recurrent vent-associated pneumonia, tracheobroncheomalacia s/p
   Y-stent placement, and COPD.  Patient completed 14 days of Zosyn on
   [**10-2**].  Patient did not tolerate [**Last Name (LF) **], [**First Name3 (LF) **] will stop antibiotics and
   consider zosyn if febrile.   No evidence of pulmonary edema on chest x
   ray.
   -            daily CXR
   -            f/u sputum cultures
   -            continue standing albuterol/atrovent nebs
   -            titrate FiO2 if possible
   3.       Congestive heart failure.  Patient had a recent TTE on [**2103-9-12**]
   which showed EF at 45%.   Patient is recovering for
   contrast-nephropathy and was requiring lasix drip for diuresis until
   [**10-2**].  Lasix drip was held on [**10-3**] due to concern of ototoxicity.  Given
   the lack of evidence of pulmonary edema on chest x-ray, lasix drip was
   discontinued.   Patient is currently negative approximately 10 kg since
   admission and is negative 9L for LOS.   Patient appears to no longer
   require diuretics since there has been improvement of her renal
   function.
   -            goals diuresis of 0.5 L daily, lasix PRN
   -            follow daily weights and Is/Os
   4.        ARF.  Patient had baseline Cr of 0.9.  Cr rose to 2.5 in
   setting of contrast nephropathy, but renal function continues to
   improve.  She has good urine output and Cr fell from 1.5 to 1.2 today.
   -          renally dose all meds
   -          follow Cr
   -          follow urine output
   5.        HTN.  Patient
s bloopd pressure has ranged from 140s to 170s
   systolic over the past 24 hours.  Antihypertensives were previously
   being held to give room for lasix diuresis, but have been slowly
   resumed after discontinuation of lasix diuresis.  Now on amlodipine and
   metoprolol.  At home, patient takes hydralazine 10 mg q8hr, Nitropaste
   q6hours, lopressor 37.5 q8hrs, HCTZ 12.5 mg daily, and Norvasc 10 mg
   daily.
   -          Continue amlodipine and metoprolol; increase metoprolol if
   needed for BP or HR control and then consider resuming hydralazine if
   still hypertensive
   -          follow BP
   6.       Tachycardia.  HR in the 100s overnight but has improved with
   initiation of home metoprolol.  Tachycardia may have been secondary to
   respiratory distress or agitation.  EKG was NSR, thought patient has a
   history of PAF.
   -          follow HR
   -          uptitrate BB to home dose of 37.5 TID if HR remains elevated
   7.        COPD. Continue albuterol/atrovent nebs.
   8.       Paroxysmal A. fib.  Now is NSR.  Not anticoagulated due to GIB
   last month.
   9.       Type 2 DM.  Continue RISS and glargine qhs.  FS 80s to 190s.
   10.    Anemia. Hct has been in mid 20s throughout admission. No
   evidence bleeding or hemolysis, though patient has history of GIB due
   to diverticulosis and hemorrhoids during last admission.
   -          continue ferrous gluconate
   -          monitor hct
   11.    Agitation.  Patient was previously agitated earlier in MICU
   stay, but now appropriate and answering questions.  Mental status is
   improved.  Will minimize mind altering meds.
                  -  d/c fentanyl IV boluses and transition to oxycodone
   for pain
                  -  olanzapine
                  -  celexa
   ICU Care
   Nutrition:
   Glycemic Control:  FSs between 80 and 190.  On RISS and glargine.
   Lines:
   Midline - [**2103-9-21**] 12:00 PM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer:  Lansoprazole
   VAP:  VAP precautions, colistin for treatment of VAP
   Comments:
   Communication:  Comments: daughter and patient
   Code status: Full code
   Disposition: ICU care for now, but consider transfer to rehab in the
   next few days if respiratory status improves

2103-10-04 09:43:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   79 y/o F w/chronic respiratory failure admitted with VAP.
   24 Hour Events:
 SPUTUM CULTURE - At [**2103-10-3**] 02:48 PM
   -tachycardic yesterday with some SVT up to 130s so restarted home
   beta-blocker
   -tachypneic and wheezing after receiving colistin (receives albuterol
   before and after)
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2103-10-1**] 12:02 PM
   Piperacillin/Tazobactam (Zosyn) - [**2103-10-2**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2103-10-4**] 05:48 AM
   Fentanyl - [**2103-10-4**] 08:02 AM
   Lansoprazole (Prevacid) - [**2103-10-4**] 08:03 AM
   Other medications:
   miralax, insulin sliding scale, lantus 10 units qhs, zyprexa, celexa,
   albuterol, free water bolus, iron, amlodipine, colistin, lopressor 25
   mg po tid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Respiratory: Tachypnea, Wheeze, thick secretions, unchanged from
   yesterday
   Flowsheet Data as of  [**2103-10-4**] 09:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.1
C (98.8
   HR: 71 (69 - 110) bpm
   BP: 120/45(63) {119/45(63) - 165/99(103)} mmHg
   RR: 20 (20 - 31) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105.3 kg (admission): 114.5 kg
   Height: 64 Inch
             Total In:
                                                                  1,590 mL
                                                                    630 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    425 mL
   IVF:
                                                                    240 mL
                                                                     95 mL
   Blood products:
   Total out:
                                                                  2,770 mL
                                                                    600 mL
   Urine:
                                                                  2,770 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,180 mL
                                                                     30 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 472 (360 - 630) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 10 cmH2O
   FiO2: 45%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 94%
   ABG: ///31/
   Ve: 10 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: trach
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, somewhat sleepy
   this AM
   Labs / Radiology
   7.7 g/dL
   349 K/uL
   124 mg/dL
   1.2 mg/dL
   31 mEq/L
   4.3 mEq/L
   30 mg/dL
   104 mEq/L
   142 mEq/L
   24.6 %
   11.9 K/uL
        [image002.jpg]
                             [**2103-9-27**]  09:10 AM
                             [**2103-9-27**]  03:15 PM
                             [**2103-9-28**]  04:14 AM
                             [**2103-9-28**]  09:39 AM
                             [**2103-9-29**]  03:51 AM
                             [**2103-9-30**]  03:24 AM
                             [**2103-10-1**]  04:23 AM
                             [**2103-10-2**]  03:36 AM
                             [**2103-10-3**]  03:46 AM
                             [**2103-10-4**]  04:50 AM
   WBC
   8.4
   8.0
   8.2
   9.5
   10.9
   13.5
   11.9
   Hct
   25.4
   24.6
   24.2
   22.8
   23.5
   25.1
   24.6
   Plt
   436
   349
   398
   356
   365
   407
   349
   Cr
   1.5
   1.5
   1.5
   1.5
   1.5
   1.5
   1.5
   1.2
   TCO2
   39
   38
   Glucose
   133
   82
   120
   126
   121
   155
   96
   124
   Other labs: PT / PTT / INR:15.7/34.4/1.4, ALT / AST:20/14, Alk Phos / T
   Bili:192/0.5, Amylase / Lipase:[**12-8**], Differential-Neuts:88.4 %,
   Lymph:6.2 %, Mono:3.2 %, Eos:2.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.6
   g/dL, LDH:192 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR this AM:  lower inspired lung volumes than previously, no
   appreciable change
   Microbiology: sputum sample yesterday with 3+ GNR, many PMNs
   Assessment and Plan
   79yo woman with respiratory failure, Pseudomonas pneumonia and ARF [**3-3**]
   ATN.
   1)      Acute on chronic respiratory failure
 Multiple organisms on
   sputum cultures but elected to treat only the Pseudomonas. Completed
   Zosyn 14 days [**2103-10-2**]. Continue combivent Q4H. Continue to wean vent as
   tolerated. Wean FiO2 as tolerated. She is chronically colonized with
   multiple gram-negative pathogens.
   - fever curve unchanged, WBC improved.  Did not tolerate colistin.
   Will d/c it and follow fever curve.
   2)      Agitation
 Answering questions appropriately over the past
   several days; continue to minimize sedation / analgesia and avoid
   drips. Would prefer to avoid benzos and use anti-psychotics for anxiety
   / agitation.
   - somewhat somnolent this AM, just received fentanyl for generalized
   pain.  Will switch to oxycodone elixir.
   3)      Anasarca
 Will hold lasix for now as CXR does not demonstrate
   pulmonary edema.  Autodiuresed yesterday without lasix.
   4)      HTN:  Restart home antihypertensives slowly.  Tolerated restart
   of amlodipine & lopressor.
   5)     ARF / CRI
 Creatinine improving, almost back to baseline.
   6)     Partial SBO
 Resolved; continues to tolerate TF.  Bowel
   regimen.
   7)     COPD
 Continue nebs.
   8)     F/E/N: TFs at goal. Follow/replete lytes as needed.
   9)      Heme: Hct stable at 25.  On iron. Goal transfusion is >21%. No
   e/o acute blood loss.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2103-10-4**] 03:57 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Midline - [**2103-9-21**] 12:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 min

2103-10-05 06:43:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
   -Colistin discontinued
   -Changed to oral pain control regimen (fentanyl IV discontinued)
   -HR and BP improved with initiation of metoprolol
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics: NONE
   Infusions: NONE
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2103-10-4**] 08:03 AM
   Heparin Sodium (Prophylaxis) - [**2103-10-5**] 06:08 AM
   Other medications:
   Oxycodone 5-10 mg q4 hours
   Metoprolol 25 TID
   Amlodipine 10 mg daily
   Colace
   Senna
   Ferrous Gluconate
   Celexa 40 daily
   Zydis 10 mg TID
   Albuterol/Atrovent q4 hour
   RISS + Glargine
   Lactulose
   Nitropaste PRN
   Polyethylene glycol 17 mg daily
   Calcium Gluconate sliding scale
   Lansoprazole 30 mg daily
   Chlorhexidine mouthwash
   Heparin SC
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-10-5**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 68 (63 - 79) bpm
   BP: 126/75(85) {102/41(56) - 143/75(87)} mmHg
   RR: 25 (19 - 33) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105.3 kg (admission): 114.5 kg
   Height: 64 Inch
             Total In:
                                                                  1,786 mL
                                                                    429 mL
   PO:
             TF:
                                                                  1,176 mL
                                                                    302 mL
   IVF:
                                                                    240 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                  1,307 mL
                                                                    320 mL
   Urine:
                                                                  1,307 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    479 mL
                                                                    109 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 321 (321 - 472) mL
   PS : 10 cmH2O
   RR (Spontaneous): 35
   PEEP: 10 cmH2O
   FiO2: 45%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 93%
   ABG: ///29/
   Ve: 15.1 L/min
   Physical Examination
   Gen: chronically ill appearing, obese, elderly female, NAD
   HEENT: PERRL, EOMI
   Neck: Trach present, unable to assess JVP secondary to large neck
   CV: RRR, no murmurs/rubs/gallops
   Pulm: wheezes at left bases, coarse rhonci diffusely on right side
   Abd: obese, soft, nontender, nondistended, bowel sounds present
   Ext: warm, well perfused, 1+ pitting edema b/l (improving)
   Neuro: awake and alert, conversant
   Labs / Radiology
   365 K/uL
   8.0 g/dL
   134 mg/dL
   1.3 mg/dL
   29 mEq/L
   4.4 mEq/L
   31 mg/dL
   104 mEq/L
   140 mEq/L
   24.8 %
   12.2 K/uL
        [image002.jpg]
                             [**2103-9-27**]  03:15 PM
                             [**2103-9-28**]  04:14 AM
                             [**2103-9-28**]  09:39 AM
                             [**2103-9-29**]  03:51 AM
                             [**2103-9-30**]  03:24 AM
                             [**2103-10-1**]  04:23 AM
                             [**2103-10-2**]  03:36 AM
                             [**2103-10-3**]  03:46 AM
                             [**2103-10-4**]  04:50 AM
                             [**2103-10-5**]  04:09 AM
   WBC
   8.4
   8.0
   8.2
   9.5
   10.9
   13.5
   11.9
   12.2
   Hct
   25.4
   24.6
   24.2
   22.8
   23.5
   25.1
   24.6
   24.8
   Plt
   436
   349
   398
   356
   365
   407
   349
   365
   Cr
   1.5
   1.5
   1.5
   1.5
   1.5
   1.5
   1.5
   1.2
   1.3
   TCO2
   38
   Glucose
   133
   82
   120
   126
   121
   155
   96
   124
   134
   Other labs: PT / PTT / INR:15.7/34.4/1.4, ALT / AST:[**11-20**], Alk Phos / T
   Bili:183/0.4, Amylase / Lipase:[**12-8**], Differential-Neuts:72.8 %,
   Lymph:17.0 %, Mono:5.9 %, Eos:3.7 %, Lactic Acid:0.9 mmol/L,
   Albumin:3.1 g/dL, LDH:233 IU/L, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:2.8
   mg/dL
   Sputum Culture [**2103-10-3**].
   GRAM STAIN (Final [**2103-10-3**]):
      >25 PMNs and <10 epithelial cells/100X field.
      3+  (5-10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   RESPIRATORY CULTURE (Preliminary):
      ? OROPHARYNGEAL FLORA.
      GRAM NEGATIVE ROD(S).    MODERATE GROWTH.
         ? OF TWO COLONIAL MORPHOLOGIES.
   CXR
   Assessment and Plan
   Ms. [**Known lastname **] is a 79 year old female with HTN, CHF, CAD, COPD, PAF not on
   anticoagulation due to recent GI bleed, Hyperlipidemia, DM, who has
   trach and PEG here with hypoxic respiratory failure secondary to
   vent-associated pneumonia.
   1.       Vent-Associated Pneumonia.  Patient completed 14 days of Zosyn
   for VAP on [**10-2**], but had rising temperatures, WBC and thick secretions
   yesterday ([**10-3**]), so was started on Colistin for concern for ongoing
   vent-associated pneumonia.  Fever curve is stable and WBC trending down
   slightly.  However, patient is having respiratory distress and
   bronchospasm secondary to colistin in spite of nebs pre- and post-
   treatment.
   -            d/c colistin due to respiratory distress and hypoxia
   following use of colistin
   -            f/u sputum culture (GNRs)
   -            consider zosyn if patient is febrile or has worsening
   respiratory secretions
   -            follow fever curve and WBC
   2.       Respiratory failure.  Respiratory failure is multifactorial
   due to recurrent vent-associated pneumonia, tracheobroncheomalacia s/p
   Y-stent placement, and COPD.  Patient completed 14 days of Zosyn on
   [**10-2**].  Patient did not tolerate [**Last Name (LF) **], [**First Name3 (LF) **] will stop antibiotics and
   consider zosyn if febrile.   No evidence of pulmonary edema on chest x
   ray.
   -            daily CXR
   -            f/u sputum cultures
   -            continue standing albuterol/atrovent nebs
   -            titrate FiO2 if possible
   3.       Congestive heart failure.  Patient had a recent TTE on [**2103-9-12**]
   which showed EF at 45%.   Patient is recovering for
   contrast-nephropathy and was requiring lasix drip for diuresis until
   [**10-2**].  Lasix drip was held on [**10-3**] due to concern of ototoxicity.  Given
   the lack of evidence of pulmonary edema on chest x-ray, lasix drip was
   discontinued.   Patient is currently negative approximately 10 kg since
   admission and is negative 8.5L for LOS.   Patient appears to no longer
   require diuretics since there has been improvement of her renal
   function.
   -            goals diuresis of 0.5 L daily, lasix PRN
   -            follow daily weights and Is/Os
   4.        ARF.  Patient had baseline Cr of 0.9.  Cr rose to 2.5 in
   setting of contrast nephropathy, but renal function continues to
   improve.  She has good urine output and Cr fell from 1.5 to 1.2 today.
   -          renally dose all meds
   -          follow Cr
   -          follow urine output
   5.        HTN.  Patient
s bloopd pressure has ranged from 140s to 170s
   systolic over the past 24 hours.  Antihypertensives were previously
   being held to give room for lasix diuresis, but have been slowly
   resumed after discontinuation of lasix diuresis.  Now on amlodipine and
   metoprolol.  At home, patient takes hydralazine 10 mg q8hr, Nitropaste
   q6hours, lopressor 37.5 q8hrs, HCTZ 12.5 mg daily, and Norvasc 10 mg
   daily.
   -          Continue amlodipine and metoprolol; increase metoprolol if
   needed for BP or HR control and then consider resuming hydralazine if
   still hypertensive
   -          follow BP
   6.       Tachycardia.  HR in the 100s overnight but has improved with
   initiation of home metoprolol.  Tachycardia may have been secondary to
   respiratory distress or agitation.  EKG was NSR, thought patient has a
   history of PAF.
   -          follow HR
   -          uptitrate BB to home dose of 37.5 TID if HR remains elevated
   7.        COPD. Continue albuterol/atrovent nebs.
   8.       Paroxysmal A. fib.  Now is NSR.  Not anticoagulated due to GIB
   last month.
   9.       Type 2 DM.  Continue RISS and glargine qhs.  FS 80s to 190s.
   10.    Anemia. Hct has been in mid 20s throughout admission. No
   evidence bleeding or hemolysis, though patient has history of GIB due
   to diverticulosis and hemorrhoids during last admission.
   -          continue ferrous gluconate
   -          monitor hct
   11.    Agitation.  Patient was previously agitated earlier in MICU
   stay, but now appropriate and answering questions.  Mental status is
   improved.  Will minimize mind altering meds.
                  -  d/c fentanyl IV boluses and transition to oxycodone
   for pain
                  -  olanzapine
                  -  celexa
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2103-10-5**] 12:02 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2103-9-21**] 12:00 PM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer: Lansoprazole
   VAP:  VAP precautions
   Comments:
   Communication:  Comments: daughter
   [**Name (NI) 66**] status: Full code
   Disposition:

2103-10-05 10:23:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - discontinued colistin
   - afebrile overnight
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2103-10-5**] 06:08 AM
   Lansoprazole (Prevacid) - [**2103-10-5**] 08:07 AM
   Other medications:
   peridex, miralax, insulin SS, lantus, celexa, iron, amlodipine 10 mg
   daily, lopressor 25 mg tid, albuterol/atrovent, colace, lactulose,
   oxycodone prn x1
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-10-5**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.9
C (98.5
   HR: 65 (61 - 76) bpm
   BP: 129/61(78) {102/41(56) - 143/75(87)} mmHg
   RR: 28 (19 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105.3 kg (admission): 114.5 kg
   Height: 64 Inch
             Total In:
                                                                  1,786 mL
                                                                    670 mL
   PO:
             TF:
                                                                  1,176 mL
                                                                    458 mL
   IVF:
                                                                    240 mL
                                                                    102 mL
   Blood products:
   Total out:
                                                                  1,307 mL
                                                                    466 mL
   Urine:
                                                                  1,307 mL
                                                                    466 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    479 mL
                                                                    204 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 369 (321 - 460) mL
   PS : 10 cmH2O
   RR (Spontaneous): 338
   PEEP: 10 cmH2O
   FiO2: 45%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 99%
   ABG: ///29/
   Ve: 15.1 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: tracheostomy in place
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, PEG dressing c/d/i
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   365 K/uL
   134 mg/dL
   1.3 mg/dL
   29 mEq/L
   4.4 mEq/L
   31 mg/dL
   104 mEq/L
   140 mEq/L
   24.8 %
   12.2 K/uL
        [image002.jpg]
                             [**2103-9-27**]  03:15 PM
                             [**2103-9-28**]  04:14 AM
                             [**2103-9-28**]  09:39 AM
                             [**2103-9-29**]  03:51 AM
                             [**2103-9-30**]  03:24 AM
                             [**2103-10-1**]  04:23 AM
                             [**2103-10-2**]  03:36 AM
                             [**2103-10-3**]  03:46 AM
                             [**2103-10-4**]  04:50 AM
                             [**2103-10-5**]  04:09 AM
   WBC
   8.4
   8.0
   8.2
   9.5
   10.9
   13.5
   11.9
   12.2
   Hct
   25.4
   24.6
   24.2
   22.8
   23.5
   25.1
   24.6
   24.8
   Plt
   436
   349
   398
   356
   365
   407
   349
   365
   Cr
   1.5
   1.5
   1.5
   1.5
   1.5
   1.5
   1.5
   1.2
   1.3
   TCO2
   38
   Glucose
   133
   82
   120
   126
   121
   155
   96
   124
   134
   Other labs: PT / PTT / INR:15.7/34.4/1.4, ALT / AST:[**11-20**], Alk Phos / T
   Bili:183/0.4, Amylase / Lipase:[**12-8**], Differential-Neuts:72.8 %,
   Lymph:17.0 %, Mono:5.9 %, Eos:3.7 %, Lactic Acid:0.9 mmol/L,
   Albumin:3.1 g/dL, LDH:233 IU/L, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:2.8
   mg/dL
   Imaging: CXR: increased pulmonary vascular markings c/w yesterday
   Microbiology: sputum [**10-3**]: 3+ GNR, ? OP flora, GNR moderate growth of 2
   morphologies, final cx data pending
   Assessment and Plan
   79yo woman with respiratory failure, Pseudomonas pneumonia and ARF [**3-3**]
   ATN.
   1)      Acute on chronic respiratory failure
 Multiple organisms on
   sputum cultures but elected to treat only the Pseudomonas. Completed
   Zosyn 14 days [**2103-10-2**]. Continue combivent Q4H. Continue to wean vent as
   tolerated. Wean FiO2 as tolerated. She is chronically colonized with
   multiple gram-negative pathogens.
   - Did not tolerate colistin.  Afebrile, WBC stable on no antibiotics.
   2)      Agitation
 Answering questions appropriately over the past
   several days; continue to minimize sedation / analgesia and avoid
   drips. Would prefer to avoid benzos and use anti-psychotics for anxiety
   / agitation.
   - somnolence improved with d/c of fentanyl.
   3)      Anasarca
 Will restart lasix today as appears somewhat volume
   overloaded on CXR.
   4)      HTN:  Restart home antihypertensives slowly.  Tolerated restart
   of amlodipine & lopressor.
   5)     ARF / CRI
 Creatinine improving, almost back to baseline.
   6)     Partial SBO
 Resolved; continues to tolerate TF.  Bowel
   regimen.
   7)     COPD
 Continue nebs.
   8)     F/E/N: TFs at goal. Follow/replete lytes as needed.
   9)      Heme: Hct stable at 24.8.  On iron. Goal transfusion is >21%.
   No e/o acute blood loss.  Stool guaiac positive but brown, not melena.
   Will follow.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2103-10-5**] 12:02 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Midline - [**2103-9-21**] 12:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 30 min